2188-04-09 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2188-4-9**] 03:05 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-9**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.8
C (98.3
   HR: 80 (75 - 80) bpm
   BP: 159/66(87) {148/56(78) - 161/66(89)} mmHg
   RR: 30 (26 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,045 mL
   Urine:
   420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,045 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-9**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-09 12:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   A/P: 83 y/o M with PMH significant for HTN, diastolic CHF s/p R TKR c/b
   septic joint s/p washout and R gastroc knee graft transferred to MICU
   overnight for hypoxia.
   24 Hour Events:
   -40 IV lasix given this AM with approx 2L out
   Allergies:
   No Known Drug Allergies
   Antibiotics
   Rifampin
   Fluconazole
   Other medications:
   Enoxaparin
   ASA
   Pantoprazole
   Colace
   Ascorbic acid
   Simvastatin
   Amlodipine
   Lisinopril
   metoprolol
   MVI
   Iron sulfate
   Cyanocobalamin
   Citalopram
   ISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no chest pain, no SOB,  for occ cough when eating
   food
   Flowsheet Data as of  [**2188-4-9**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36
C (96.8
   HR: 73 (73 - 85) bpm
   BP: 141/61(89) {141/55(78) - 162/76(91)} mmHg
   RR: 25 (21 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
   Urine:
   2 tp 3 L
   NG:
   Stool:
   Drains:
   Balance:
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Gen: Lying comfortably in bed, NAD. Speaking in full sentences, alert
   and responds appropriately.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. OP clear, dry mucous
   membranes.
   Neck: Supple, JVP 8cm
   CV: RRR, normal S1, S2. II/VI holosystolic murmur at LLSB radiating to
   axilla
   Chest: + crackles in right lung base
   Abd: Soft, obese, NTND. No HSM
   Ext: R leg in soft brace post-op with dressing partially saturated in
   blood, drain containing serosanguinous fluid, Left lateral thigh in
   aquacel dressings, 2+ pedal pulses, moving feet and toes without
   difficulty.  +1 edema in right heel
   Labs / Radiology
   461 K/uL
   8.7 g/dL
   113 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   24 mg/dL
   108 mEq/L
   146 mEq/L
   27.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2188-4-9**]  05:02 AM
   WBC
   15.0
   Hct
   27.0
   Plt
   461
   Cr
   1.5
   Glucose
   113
   Other labs: PT / PTT / INR:16.6/30.9/1.5, Differential-Neuts:82.5 %,
   Lymph:9.3 %, Mono:5.5 %, Eos:2.5 %, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 83 y/o M with PMH significant for HTN, diastolic CHF s/p R TKR c/b
   septic joint s/p washout and R gastroc knee graft transferred to MICU
   overnight for hypoxia.
   .
   # Hypoxia: Likely combined CHF (increased BNP) and PNA.  Patient's CXR
   looks concerning for pulmonary edema, and patient's symptoms and
   hypoxia improved with diuresis overnight.  However, given new fever and
   increasing WBC likely superimposed infection as etiology such as
   aspiration PNA or HAP. Patient switched to meropenem/rifampin
   overnight. Patient not tachycardic, but if without improvement.
   Patient already weaned down from NRB overnight to nasal cannula with
   diuresis or change in antibiotics.
   - pt already 3L negative since hypoxia last night, goal 1.5-2 more L
   negative (reponds to 40 IV)
   - continue weaning down O2 as tolerated, given tobacco hx ok to have 02
   sat goal of 90-92%
   - continue antibiotics per ID recs: meropenem and rifampin
   - S & S eval for ? aspiration
   - follow up cx
   - sputum cultures
   - needs to be refitted for CPAP as out pt
 if called out on floor
   should look for desaturation
   - f/u CE
   - f/u EKG
   .
   # Fever workup: Given new cough and CXR, concerning for pulmonary
   etiology. ? ASA PNA.  Per plastics eval, right knee healing well
   without evidence of infection, however cannot r/o osteo. Patient had
   been on nafcillin, rifampin for coag positive staph from knee cultures
   from [**3-14**]. Was never bacteremic. PICC line pulled, no growth from tip.
   Today [**4-9**] WBC trending up.
   - f/u BCx, UCx, obtain sputum Cx
   - continue on meropenem (d1=[**4-8**]), rifampin(d1=[**3-21**]), fluconazole for
   candidal rash. Patient also still on fluconazole for [**Female First Name (un) **] on buttock
   region.   Given increased WBC  must keep in mind that pt not tolerating
   change in antibiotics.
   - ID following, appreciate recs
   - f/u LFTs on rifampin
   .
   # s/p gastroc wound flap: Followed by surgery, plastics.  Wound open.
   Patient denies pain at surgical site, however, would need to consider
   this as site of infection
   -Routine post-op care per surgical/plastics team
   -PT c/s today
   .
   # CHF: Has diastolic HF, recent ECHO on [**3-28**] showing preserved systolic
   function. Likely decompensated. BNP elevated.
   -- pt already 3L negative since hypoxia last night, goal 1.5-2 more L
   negative (reponds to 40 IV)
   .
   # HTN: Patient's BP has recently been controlled
   - continue lisinopril, metoprolol, and amlodipine for now
   .
   # Anemia: Hct has been stable in mid 20s. Unclear etiology.  Likely
   multifactorial in setting of chronic disease, frequent phlebotomy,
   blood loss from procedures.
   - guiac stools
   - trend Hct
   .
   # FEN: Regular low salt diet with fluid restriction. Monitor lytes and
   replete as needed.
   .
   # PPX: continue SC lovenox in am, PPI, bowel regimen
   .
   # Code: Full
   .
   # Dispo: ICU care for now, but if continues to be stable on NC O2, CE
   negative, EKG normal can consider transfer back to surgical floor team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-9**] 03:32 AM
   Prophylaxis:
   DVT: enoxaparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-10 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   A/P: 83 y/o M with PMH significant for HTN, diastolic CHF s/p R TKR c/b
   septic joint s/p washout and R gastroc knee graft transferred to MICU
   overnight for hypoxia.
   24 Hour Events:
   Urine culture grew e.coli likely ESBL-added on carbapenem to
   sensitivities
   Cardiac enzymes negX3
   Autotitrated cpap for sleep with sats 80-90s overnight
   Seen by speech/swallow no aspiration
   diuresed 1.8L
   EKG done: no change from prior
   Pt desat to 95% this AM and then got better with sitting up right and a
   better high flow mask.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2188-4-10**] 01:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: slight substernal pain with deep inspiration
   Flowsheet Data as of  [**2188-4-10**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.9
   HR: 83 (68 - 87) bpm
   BP: 162/68(92) {111/44(62) - 165/79(92)} mmHg
   RR: 33 (21 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,370 mL
                                                                    400 mL
   PO:
                                                                  1,170 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                    500 mL
   Urine:
                                                                  2,520 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,775 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: ////
   Physical Examination
   Gen: alert, awake, NAD
   Cardiac: murmur LLSB
   Lung: CTAB posteriorly early in AM and later with crackles at bases
   bilaterally
   Abd: soft, NTND
   Knee: with granulation tissue
   Extremities: DP +1 and radial pulses +2, knee with granulation tissue,
   no LE edema
   Labs / Radiology
   461 K/uL
   8.7 g/dL
   113 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   24 mg/dL
   108 mEq/L
   146 mEq/L
   27.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2188-4-9**]  05:02 AM
                             [**2188-4-9**]  01:36 PM
                             [**2188-4-9**]  10:24 PM
   WBC
   15.0
   Hct
   27.0
   Plt
   461
   Cr
   1.5
   TropT
   0.06
   0.04
   0.04
   Glucose
   113
   Other labs: PT / PTT / INR:16.6/30.9/1.5, CK / CKMB /
   Troponin-T:37/2/0.04, Differential-Neuts:82.5 %, Lymph:9.3 %, Mono:5.5
   %, Eos:2.5 %, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 83 y/o M with PMH significant for HTN, diastolic CHF s/p R TKR c/b
   septic joint s/p washout and R gastroc knee graft transferred to MICU
   overnight for hypoxia.
   .
   # Hypoxia: Likely combined CHF (increased BNP) and PNA.  Patient's CXR
   looks concerning for pulmonary edema, and patient's symptoms and
   hypoxia improved with diuresis the first night after admission.
   Patient switched to meropenem/rifampin on [**4-8**]. 1^st night  patient
   weaned down from NRB  to nasal cannula with diuresis/change in
   antibiotics.  Evening of [**4-13**] pt on CPAP with sats 80-90s.  Pt on
   morning of [**4-10**] desat to 85% and got somewhat better with sitting up.
   Unclear if pt could have viral PNA, DAH, worsening AS, or eosinophilia.
   -gave lasix for more diuresis (goal neg 2L)
   -will get echo to further eval heart
   -CT of chest to further evaluate for DAH, PNA
   -trend BNP to follow CHF, increasing lisinopril to 20mg daily to
   decrease afterload
   -sending induced sputum for viral cx
   -follow HCT given as decreased  today and could be cause for [**Last Name (un) **].
   Repeat showed trend 22-> 24
   - continue antibiotics per ID recs: meropenem and rifampin
   - S & S eval for ? aspiration
   - follow up cx
   - sputum cultures
   - needs to be refitted for CPAP as out pt
 if called out on floor
   should look for desaturation
   - f/u CE
   - f/u EKG
   .
   # Fever workup: Given new cough and CXR, concerning for pulmonary
   etiology. ? ASA PNA.  Per plastics eval, right knee healing well
   without evidence of infection, however cannot r/o osteo. Patient had
   been on nafcillin, rifampin for coag positive staph from knee cultures
   from [**3-14**]. Was never bacteremic. PICC line pulled, no growth from tip.
   Today [**4-9**] WBC trending up.
   - f/u BCx, UCx, obtain sputum Cx
   - continue on meropenem (d1=[**4-8**]), rifampin(d1=[**3-21**]), fluconazole for
   candidal rash. Patient also still on fluconazole for [**Female First Name (un) **] on buttock
   region.   Given increased WBC  must keep in mind that pt not tolerating
   change in antibiotics.
   - ID following, appreciate recs
   - f/u LFTs on rifampin
   .
   # s/p gastroc wound flap: Followed by surgery, plastics.  Wound open.
   Patient denies pain at surgical site, however, would need to consider
   this as site of infection
   -Routine post-op care per surgical/plastics team
   -PT c/s today
   .
   # CHF: Has diastolic HF, recent ECHO on [**3-28**] showing preserved systolic
   function. Likely decompensated. BNP elevated.
   -- pt already 3L negative since hypoxia last night, goal 1.5-2 more L
   negative (reponds to 40 IV)
   .
   # HTN: Patient's BP has recently been controlled
   - continue lisinopril, metoprolol, and amlodipine for now
   .
   # Anemia: Hct has been stable in mid 20s. Unclear etiology.  Likely
   multifactorial in setting of chronic disease, frequent phlebotomy,
   blood loss from procedures.
   - guiac stools
   - trend Hct
   .
   # FEN: Regular low salt diet with fluid restriction. Monitor lytes and
   replete as needed.
   .
   # PPX: continue SC lovenox in am, PPI, bowel regimen
   .
   # Code: Full
   .
   # Dispo: ICU care for now, but if continues to be stable on NC O2, CE
   negative, EKG normal can consider transfer back to surgical floor team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-9**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-10 11:00:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Somewhat improved this AM.
   Noted to have oxygen desaturation this AM --> resolved with increased
   FiO2.
   Net diuresis overnight.
   NASAL SWAB - At [**2188-4-9**] 01:49 PM
   EKG - At [**2188-4-9**] 04:26 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2188-4-10**] 08:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-4-10**] 10:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-11**] Minimal
   Pain location: right leg/iknee pain
   Flowsheet Data as of  [**2188-4-10**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 76 (68 - 87) bpm
   BP: 144/58(78) {111/44(62) - 166/79(92)} mmHg
   RR: 35 (23 - 35) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,370 mL
                                                                    500 mL
   PO:
                                                                  1,170 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                    720 mL
   Urine:
                                                                  2,520 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,775 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: 7.49/33/74/21/2
   PaO2 / FiO2: 74
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : diffuse, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Right knee would in dressing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   410 K/uL
   102 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.3 mEq/L
   24 mg/dL
   113 mEq/L
   147 mEq/L
   22.8 %
   14.5 K/uL
        [image002.jpg]
                             [**2188-4-9**]  05:02 AM
                             [**2188-4-9**]  01:36 PM
                             [**2188-4-9**]  10:24 PM
                             [**2188-4-10**]  08:22 AM
                             [**2188-4-10**]  08:34 AM
   WBC
   15.0
   14.5
   Hct
   27.0
   22.8
   Plt
   461
   410
   Cr
   1.5
   1.3
   TropT
   0.06
   0.04
   0.04
   TCO2
   26
   Glucose
   113
   102
   Other labs: PT / PTT / INR:17.1/33.8/1.5, CK / CKMB /
   Troponin-T:32/2/0.04, Differential-Neuts:80.8 %, Lymph:10.7 %, Mono:4.7
   %, Eos:3.4 %, Lactic Acid:1.0 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR ([**2188-4-10**]) increased bilateral pulmonary infiltrates,
   predominatley upper lobes.
   Assessment and Plan
   Respiratory distress, probable CHF
   RESPIRATORY DISTRESS -- attributed to pulmonary edema, possible related
   to volume overload, cardiac ischemia or fever.  Wean supplimental
   oxygen.
   PULMONARY EDEMA -- cardiogenic vs. noncardiogenic.  Initially mproved
   radiographically with diuresis (in setting of elevated BNP).  However,
   now with progressive infiltrates dispite net diuresis.   Possible
   aspiration (but less likely).  Doubt pulmonary embolism. Other
   considerations include alveolar hemmorrhage (delined Hct), evolving
   ARDS, infection (esp. viral) although doubt.   Plan repeat echo (?new
   walll motion abnormality, reassess valvular heart disease --> ?AS).
   Thoracic CT vs. CT angio.
   FEVER -- attributed to UTI (resistent organism).
   ANEMIA -- Monitor for bleeding.  COncern for occult GI bleed, alveolar
   hemorrhage.  Would favor maintaining Hct >27.
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.
   OSA -- need to better assess, consider CPAP
   FLUIDS -- desire net negative fluid balance 1-2 L.  Monitor I/O.
   HYPOKALEMIA -- replete to K>4.0
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-10**] 09:29 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2188-04-11 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   A/P: 83 y/o M with PMH significant for HTN, diastolic CHF s/p R TKR c/b
   septic joint s/p washout and R gastroc knee graft transferred to MICU
   overnight for hypoxia.
   24 Hour Events:
   -Overnight RR in 30s to 40s was 85% on NRB.   Put on BiPAP rates in
   upper 20s and 30s and sats in 90s.  Diuresed 2L neg- responds to lasix
   60 IV.  ABGs at 6 and MN not on BiPAP.
   -Echo with mod pulm HTN, mild sym LV hypertrophy, minimal AS, and EF
   55%
   -Nitro drip briefly overnight
   -CT c/w ground glass opacity in perihilar and dependent region and ?
   aspiration PNA  Also could be c/w developing ARDS. Interstial edema.
   Sm bilat pleural effusions.  Signs of pulm HTN.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2188-4-11**] 01:00 AM
   Rifampin
   Infusions:
   Other ICU medications:
   Hydralazine - [**2188-4-10**] 06:35 PM
   Furosemide (Lasix) - [**2188-4-11**] 01:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: + SOB + pain with deep inspiration
   Flowsheet Data as of  [**2188-4-11**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 82 (76 - 108) bpm
   BP: 140/56(75) {98/52(62) - 178/106(120)} mmHg
   RR: 32 (25 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,515 mL
                                                                    100 mL
   PO:
                                                                  1,210 mL
             TF:
   IVF:
                                                                    305 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                  1,430 mL
   Urine:
                                                                  3,900 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,385 mL
                                                                 -1,330 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 899 (535 - 899) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.53/29/54/21/2
   Ve: 29.6 L/min
   PaO2 / FiO2: 54
   Physical Examination
   Gen: alert, awake, appears fatigued
   HEENT: cracked lips, no hematoma at attempted L IJ site
   Cardiac: difficult to access on CPAP
   Pulm: no rhonchi, no wheezes, b/s c/w CPAP
   Abd: soft NTND
   Extremities: leg with good granulation tissue, mild LE edema,
   Labs / Radiology
   410 K/uL
   7.9 g/dL
   130 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.3 mEq/L
   24 mg/dL
   112 mEq/L
   145 mEq/L
   24.1 %
   14.5 K/uL
        [image002.jpg]
                             [**2188-4-9**]  05:02 AM
                             [**2188-4-9**]  01:36 PM
                             [**2188-4-9**]  10:24 PM
                             [**2188-4-10**]  08:22 AM
                             [**2188-4-10**]  08:34 AM
                             [**2188-4-10**]  01:26 PM
                             [**2188-4-10**]  06:24 PM
                             [**2188-4-10**]  06:35 PM
                             [**2188-4-11**]  12:28 AM
   WBC
   15.0
   14.5
   Hct
   27.0
   22.8
   24.1
   Plt
   461
   410
   Cr
   1.5
   1.3
   1.2
   TropT
   0.06
   0.04
   0.04
   0.05
   TCO2
   26
   25
   25
   Glucose
   113
   102
   109
   130
   Other labs: PT / PTT / INR:17.1/33.8/1.5, CK / CKMB /
   Troponin-T:41/2/0.05, Differential-Neuts:80.8 %, Lymph:10.7 %, Mono:4.7
   %, Eos:3.4 %, Lactic Acid:1.0 mmol/L, LDH:349 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A/P: 83 y/o M with PMH significant for HTN, diastolic CHF s/p R TKR c/b
   septic joint s/p washout and R gastroc knee graft transferred to MICU
   overnight for hypoxia.
   .
   # Hypoxia: Likely combined CHF (increased BNP) and aspiration PNA.  Pt
   neg S & S eval.  Patient's CXR looks concerning for pulmonary edema,
   and patient's symptoms and hypoxia improved with diuresis the first
   night after admission.  Patient switched to meropenem(since
   [**4-8**])/rifampin ([**3-21**]) on. 1^st night  patient weaned down from NRB  to
   nasal cannula with diuresis/change in antibiotics.  Evening of [**4-13**]
   pt on CPAP with sats 80-90s.  Pt on morning of [**4-10**] desat to 85% and got
   somewhat better with sitting up.   Unclear if pt could have viral PNA,
   DAH, worsening AS, or eosinophilia.  Overnight [**Date range (1) 6753**] RR in 30s to 40s
   was 85% on NRB.   Put on BiPAP rates in upper 20s and 30s and sats in
   90s.  Diuresed 2L neg- responds to lasix 60 IV. Pt electively intubated
   on morning of [**4-11**] given increased RR. Echo with mod pulm HTN, mild sym
   LV hypertrophy, minimal AS, and EF 55%.  CT c/w ground glass opacity in
   perihilar and dependent region and ? aspiration PNA  & also could be
   c/w developing ARDS. Interstial edema.  Sm bilat pleural effusions.
   Signs of pulm HTN.  Nitro drip now off only on briefly o/n.  PT
   ELECTIVELY INTUBATED MORNING OF [**4-11**] GIVEN high RR was maintatinging
   sats on BiPAP.
   -Bronchoscopy given blood sputum on intubation and will follow gram
   stain, cx, cytology especially for hemosiderin laden macrophages
   -Cordis placement so swan can be placed to determine wedge
   - increased lisinopril to 20mg on [**4-10**] daily to decrease afterload
   -follow HCT, pt T & S
   - continue antibiotics per ID recs: meropenem and rifampin, adding PO
   vanco as detailed below
   - needs to be refitted for CPAP as out pt
   -A line for ABGs and labs
   -f/u final CT scan read
   .
   # Fever workup: Given new cough and CXR, concerning for pulmonary
   etiology. ? ASA PNA.  Per plastics eval, right knee healing well
   without evidence of infection, however cannot r/o osteo. Patient had
   been on nafcillin, rifampin for coag positive staph from knee cultures
   from [**3-14**]. Was never bacteremic. PICC line pulled, no growth from tip.
   Today [**4-11**] WBC trending up.
   -starting PO vanco for c diff empiric coverage, send c diff cx x3, and
   may start IV vanco to cover MRSA. Continue on meropenem (d1=[**4-8**]),
   rifampin(d1=[**3-21**])
   - f/u BCx, UCx, obtain sputum Cx
   - ID following, appreciate recs
   - f/u LFTs weakly on rifampin
   .
   # s/p gastroc wound flap: Followed by surgery, plastics.  Wound open.
   Patient denies pain at surgical site, however, would need to consider
   this as site of infection
   -Routine post-op care per surgical/plastics team
   .
   # CHF: Has diastolic HF, recent ECHO on [**3-28**] showing preserved systolic
   function. Likely decompensated. BNP elevated.
   Repeat echo on [**4-10**] showing mod pulm HTN, mild sym LV hypertrophy,
   minimal AS, and EF 55%.
   -float swan today
   .
   # HTN: Patient's BP has recently been controlled.  Lisinopril increased
   from 10mg to 20mg on [**4-10**].  Pt required small amount of nitro gtt on
   - continue lisinopril, metoprolol, and amlodipine for now.
   .
   # Anemia: Hct has been stable in mid 20s previously.  HCT decreased to
   22 today and was 24 on recheck.
   - will consider transfusion of one unit
   -guiac stools
   .
   # FEN: Regular low salt diet with fluid restriction. Monitor lytes and
   replete as needed.
   -pt currently NPO as he is requiring high flow oxygen
   .
   # PPX: continue SC lovenox in am, PPI, bowel regimen
   .
   # Code: Full
   .
   # Dispo: ICU care for now, but if continues to be stable on NC O2, CE
   negative, EKG normal can consider transfer back to surgical floor team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-10**] 09:29 AM
   Prophylaxis:
   DVT: enxoxaparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-11 09:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2188-4-10**] 03:08 PM
 EKG - At [**2188-4-10**] 06:17 PM
 NON-INVASIVE VENTILATION - START [**2188-4-10**] 08:00 PM
   Clinical decline since last PM --> recurrent hypoxemia, oxygen
   desaturations, accompanied by increasing RR.
   Good clinical response initally to mask ventilation and iv lasix and
   diuresis overnight.  Some worsening in RR this AM, more resp. distress,
   and progressive clinical decline prompted urgent intubation.  Intubated
   without difficulty, non-truaumatic, but significant bloody return via
   ETT -- red blood.
   Now sedated.  No bleeding elsewhere.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Mechanically ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2188-4-11**] 01:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Hydralazine - [**2188-4-10**] 06:35 PM
   Furosemide (Lasix) - [**2188-4-11**] 01:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: Joint pain, Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-4-11**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.5
   HR: 88 (76 - 108) bpm
   BP: 131/46(66) {98/46(62) - 178/106(120)} mmHg
   RR: 30 (20 - 38) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,515 mL
                                                                    116 mL
   PO:
                                                                  1,210 mL
             TF:
   IVF:
                                                                    305 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                  1,550 mL
   Urine:
                                                                  3,900 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,385 mL
                                                                 -1,434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 425 (425 - 899) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 17 cmH2O
   SpO2: 91%
   ABG: 7.53/29/54/21/2
   Ve: 17.7 L/min
   PaO2 / FiO2: 54
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   Right knee in brace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   500 K/uL
   130 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.3 mEq/L
   24 mg/dL
   112 mEq/L
   145 mEq/L
   25.8 %
   25.2 K/uL
        [image002.jpg]
                             [**2188-4-9**]  05:02 AM
                             [**2188-4-9**]  01:36 PM
                             [**2188-4-9**]  10:24 PM
                             [**2188-4-10**]  08:22 AM
                             [**2188-4-10**]  08:34 AM
                             [**2188-4-10**]  01:26 PM
                             [**2188-4-10**]  06:24 PM
                             [**2188-4-10**]  06:35 PM
                             [**2188-4-10**]  11:54 PM
                             [**2188-4-11**]  12:28 AM
   WBC
   15.0
   14.5
   25.2
   Hct
   27.0
   22.8
   24.1
   25.8
   Plt
   461
   410
   500
   Cr
   1.5
   1.3
   1.2
   TropT
   0.06
   0.04
   0.04
   0.05
   TCO2
   26
   25
   25
   Glucose
   113
   102
   109
   130
   Other labs: PT / PTT / INR:17.1/33.8/1.5, CK / CKMB /
   Troponin-T:41/2/0.05, Differential-Neuts:80.8 %, Lymph:10.7 %, Mono:4.7
   %, Eos:3.4 %, Lactic Acid:1.0 mmol/L, LDH:349 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR ([**2188-4-11**]) improved, reduced infiltrates, now intubated (ETT
   acceptable)
   Assessment and Plan
   Respiratory failulre, pulmonary edema, hemoptysis
   RESPIRATORY DISTRESS -- Primary concern is pulmonary edema, possible
   related to volume overload, hypertension with flash pulmonary edema, or
   primary cardiac ischemia.  Chest CT reveals predominately dependent
   infiltrates, but cannot exclude areas of infection.  Other concerns
   include pulmonary hemorrhage/DAH, eosinophilic pneumonia, BOOP, ARDS,
   pyogenic pneumonia, atypical pneumonia or opportunistic infection.
   Resp. failure may also be precipitated by underlying infection, such as
   C. diff, line or wound infection.  Continue mechanical venitilation.
   Monitor ABG, maintain SaO2 > 90% or pO2 >60 mmHg.  Plan for a-line.
   PULMONARY EDEMA -- cardiogenic vs. noncardiogenic.  Variable
   radiographic appearance of infiltrates, with interval improvement
   overnight.   However, now with frank bleeding.   Possible aspiration
   (but less likely).  Doubt pulmonary embolism. Other considerations
   include alveolar hemmorrhage (declined Hct), evolving ARDS, infection
   (esp. viral) although doubt.   Plan Swan-Ganz cathether placement to
   asess filling pressures, PCWP, CO/CI.  Also plan Bronchoscopy to assess
   bleeding  infiltrates.
   FEVER -- attributed to UTI (resistent organism).  Plan check new blood,
   sputum, stool cultures.  Add iv and po vanco.
   ANEMIA -- Monitor for bleeding.  Concern for occult GI bleed, alveolar
   hemorrhage.  Would favor maintaining Hct >27.  Rising plts.  Recheck
   coags (PT/PT).
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.  Ortho Service following
   OSA -- need to better assess, resume CPAP once extubated.
   FLUIDS -- desire net negative fluid balance 1-2 L.  Monitor I/O.
   HYPOKALEMIA -- replete to K>4.0.
   NUTRITIONAL SUPPORT  -- initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-11**] 08:02 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Bronchoscopy revealed evidence for alveolar hemorrhage (bilateral
   serial lavage clearly demonstrated progressive bloody return of
   cranberry colored fliud).  PA-catheter revealed elevated PA (~50/20)
   and PCWP (~20-22) consistent with left ventricular heart failure.
   Clinical assessment is predominately left heart failure (perhaps stiff
   ventricle or ischemia in setting of combination mild AS and MR).  Plan
   continue net diuresis, optimize cardiac meds (afterload & preload), and
   consult Cardiology to assist in management.
   Discussed fully with Family and Orthopedic Surgery service (including
   Dr. [**Last Name (STitle) 1244**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2188-4-11**] 17:55 ------
   With rising creatinine, would also consider Pulmonary-Renal syndrome.
   Would check ESR, ANCA, RF, anti-GBM antibodies.  Send urine for
   urinalysis.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2188-4-11**] 17:57 ------

2188-04-12 10:16:00 Physician Attending Progress Note
Chief Complaint: Resp. failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Fever recurrent.
   Hemodynamics --> developed hypotension early last PM.
   Swan-Ganz catheter reveals elevated CO and low SVR --> sepsis
   physiolgy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2188-4-12**] 12:52 AM
   Vancomycin - [**2188-4-12**] 05:03 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-4-11**] 10:10 AM
   Fentanyl - [**2188-4-11**] 07:00 PM
   Midazolam (Versed) - [**2188-4-12**] 01:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-4-12**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 93 (83 - 113) bpm
   BP: 96/45(61) {71/32(47) - 129/57(80)} mmHg
   RR: 27 (25 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 9 (4 - 13)mmHg
   PAP: (52 mmHg) / (22 mmHg)
   PCWP: 16 (14 - 20) mmHg
   CO/CI (Fick): (8.5 L/min) / (3.7 L/min/m2)
   SvO2: 61%
   Mixed Venous O2% Sat: 60 - 63
                              Total In:
                                                                  5,066 mL
                                                                  1,117 mL
   PO:
                              TF:
                                                                     14 mL
                                                                     96 mL
   IVF:
                                                                  4,097 mL
                                                                    446 mL
   Blood products:
                                                                    125 mL
                                                                    575 mL
   Total out:
                                                                  1,908 mL
                                                                    575 mL
   Urine:
                                                                  1,908 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,158 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 800 (500 - 801) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   Compliance: 80.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.31/43/73.[**Numeric Identifier 218**]/20/-4
   Ve: 22.1 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5
   360 K/uL
   98 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   115 mEq/L
   145 mEq/L
   26
   23.4 K/uL
        [image002.jpg]
                             [**2188-4-11**]  11:55 AM
                             [**2188-4-11**]  02:34 PM
                             [**2188-4-11**]  03:17 PM
                             [**2188-4-11**]  04:35 PM
                             [**2188-4-11**]  06:49 PM
                             [**2188-4-11**]  09:10 PM
                             [**2188-4-11**]  09:22 PM
                             [**2188-4-12**]  12:51 AM
                             [**2188-4-12**]  04:23 AM
                             [**2188-4-12**]  04:29 AM
   WBC
   30.4
   23.4
   Hct
   24.3
   20.0
   20
   29
   24.7
   26
   Plt
   501
   360
   Cr
   1.9
   2.0
   1.7
   TCO2
   24
   23
   24
   23
   23
   23
   23
   Glucose
   104
   118
   98
   Other labs: PT / PTT / INR:18.1/33.7/1.7, CK / CKMB /
   Troponin-T:41/2/0.05, Differential-Neuts:87.3 %, Lymph:7.7 %, Mono:4.1
   %, Eos:0.6 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:349 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Respiratory failulre, pulmonary edema, hemoptysis
   RESPIRATORY DISTRESS -- Primary concern is acute pulmonary edema,
   possible related to intermittent ischemia.  Remains hypoxemic.
   volume overload, hypertension with flash pulmonary edema, or primary
   cardiac ischemia.  Chest CT reveals predominately dependent
   infiltrates, but cannot exclude areas of infection.  Other concerns
   include pulmonary hemorrhage/DAH, eosinophilic pneumonia, BOOP, ARDS,
   pyogenic pneumonia, atypical pneumonia or opportunistic infection.
   Resp. failure may also be precipitated by underlying infection, such as
   C. diff, line or wound infection.  Continue mechanical venitilation.
   Monitor ABG, maintain SaO2 > 90% or pO2 >60 mmHg.
   PULMONARY EDEMA -- CXR demonstrates continued resolution.  Component of
   pulmonary hemorrhage.
   Initial cardiogenic vs. noncardiogenic.  Variable radiographic
   appearance of infiltrates, with interval improvement overnight.
   However, now with frank bleeding.   Possible aspiration (but less
   likely).  Doubt pulmonary embolism. Other considerations include
   alveolar hemmorrhage (declined Hct), evolving ARDS, infection (esp.
   viral) although doubt.   Plan Swan-Ganz cathether placement to asess
   filling pressures, PCWP, CO/CI.  Also plan Bronchoscopy to assess
   bleeding  infiltrates.
   SEPSIS -- Interval development of sepsis (fevers, septic physiology by
   swan ganz).  Recognized UTI (recent), and receiving Rx for right knee
   wound.  However, concern for new additional infection or evolution of
   resistance.  Considerations include pneumonia, C. Diff enteritis,
   abscess/undrained infection.
   FEVER -- attributed in part to UTI (resistent organism).  Await blood,
   sputum, stool cultures.  Add iv and po vanco.
   ANEMIA -- Diffuse alveolar hemorrhage; elevated PT on lovenox; maintain
   Hct >27.  Rising plts.  Recheck coags (PT/PT).
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.  Ortho Service following
   OSA -- Not active issue currently.  Resume CPAP once extubated.
   FLUIDS -- Currently, hypovolemic, desire net positive fluid balance,
   monitor CVP.
   HYPOKALEMIA -- replete to K>4.0.
   NUTRITIONAL SUPPORT  -- initiate TF.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-11**] 10:35 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-11**] 08:02 AM
   Arterial Line - [**2188-4-11**] 11:21 AM
   PA Catheter - [**2188-4-11**] 04:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2188-04-13 05:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Weaned off pressors after getting 2UPRBCs, pressors restarted early
   this morning for MAPs 58
   CVP remained >10
   No stool for C.diff
   CTabd/pelvis nothing obvious for infection
   Decreased FIO2 60% increased PEEP to 12 maintained sats
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-4-12**] 08:00 PM
   Vancomycin - [**2188-4-13**] 12:00 AM
   Meropenem - [**2188-4-13**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2188-4-12**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-13**] 05:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 94 (93 - 113) bpm
   BP: 114/55(74) {82/43(58) - 150/63(88)} mmHg
   RR: 23 (23 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 8 (8 - 22)mmHg
   PAP: (48 mmHg) / (19 mmHg)
   PCWP: 16 (16 - 16) mmHg
   CO/CI (Fick): (7.2 L/min) / (3.1 L/min/m2)
   SvO2: 59%
   Mixed Venous O2% Sat: 59 - 60
   Total In:
                                                                  5,892 mL
                                                                  2,167 mL
   PO:
   TF:
                                                                    240 mL
                                                                     94 mL
   IVF:
                                                                  3,377 mL
                                                                  1,773 mL
   Blood products:
                                                                  1,325 mL
   Total out:
                                                                  2,020 mL
                                                                    150 mL
   Urine:
                                                                  1,420 mL
                                                                    150 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  3,872 mL
                                                                  2,017 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 801 (800 - 801) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 133.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.25/46/95.[**Numeric Identifier 218**]//-6
   Ve: 19.1 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   360 K/uL
   9.4 g/dL
   98 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   115 mEq/L
   145 mEq/L
   29
   23.4 K/uL
        [image002.jpg]
                             [**2188-4-12**]  12:51 AM
                             [**2188-4-12**]  04:23 AM
                             [**2188-4-12**]  04:29 AM
                             [**2188-4-12**]  10:31 AM
                             [**2188-4-12**]  11:46 AM
                             [**2188-4-12**]  02:02 PM
                             [**2188-4-12**]  05:49 PM
                             [**2188-4-12**]  05:51 PM
                             [**2188-4-13**]  05:03 AM
                             [**2188-4-13**]  05:08 AM
   WBC
   23.4
   Hct
   29
   24.7
   26
   28
   28.2
   29
   Plt
   360
   Cr
   1.7
   TCO2
   23
   23
   20
   20
   20
   20
   21
   Glucose
   98
   Other labs: PT / PTT / INR:18.1/33.7/1.7, CK / CKMB /
   Troponin-T:41/2/0.05, Differential-Neuts:87.3 %, Lymph:7.7 %, Mono:4.1
   %, Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:349 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   A/P: 83 y/o M with PMH significant for HTN, diastolic CHF s/p R TKR c/b
   septic joint s/p washout and R gastroc knee graft transferred to MICU
   overnight for hypoxia.
   .
   # Hypoxia: Likely combined CHF (increased BNP) and aspiration PNA.  Pt
   neg S & S eval.  Patient's CXR looks concerning for pulmonary edema,
   and patient's symptoms and hypoxia improved with diuresis the first
   night after admission.  Patient switched to meropenem(since
   [**4-8**])/rifampin ([**3-21**]) on. 1^st night  patient weaned down from NRB  to
   nasal cannula with diuresis/change in antibiotics.  Evening of [**4-13**]
   pt on CPAP with sats 80-90s.  Pt on morning of [**4-10**] desat to 85% and got
   somewhat better with sitting up.   Unclear if pt could have viral PNA,
   DAH, worsening AS, or eosinophilia.  Overnight [**Date range (1) 6753**] RR in 30s to 40s
   was 85% on NRB.   Put on BiPAP rates in upper 20s and 30s and sats in
   90s.  Diuresed 2L neg- responds to lasix 60 IV. Pt electively intubated
   on morning of [**4-11**] given increased RR. Echo with mod pulm HTN, mild sym
   LV hypertrophy, minimal AS, and EF 55%.  CT c/w ground glass opacity in
   perihilar and dependent region and ? aspiration PNA  & also could be
   c/w developing ARDS. Interstial edema.  Sm bilat pleural effusions.
   Signs of pulm HTN.  Nitro drip now off only on briefly o/n.  PT
   ELECTIVELY INTUBATED MORNING OF [**4-11**] GIVEN high RR was maintatinging
   sats on BiPAP.
   -Bronchoscopy given blood sputum on intubation and will follow gram
   stain, cx, cytology especially for hemosiderin laden macrophages
   -Cordis placement so swan can be placed to determine wedge
   - increased lisinopril to 20mg on [**4-10**] daily to decrease afterload
   -follow HCT, pt T & S
   - continue antibiotics per ID recs: meropenem and rifampin, adding PO
   vanco as detailed below
   - needs to be refitted for CPAP as out pt
   -A line for ABGs and labs
   -f/u final CT scan read
   .
   # Fever workup: Given new cough and CXR, concerning for pulmonary
   etiology. ? ASA PNA.  Per plastics eval, right knee healing well
   without evidence of infection, however cannot r/o osteo. Patient had
   been on nafcillin, rifampin for coag positive staph from knee cultures
   from [**3-14**]. Was never bacteremic. PICC line pulled, no growth from tip.
   Today [**4-11**] WBC trending up.
   -starting PO vanco for c diff empiric coverage, send c diff cx x3, and
   may start IV vanco to cover MRSA. Continue on meropenem (d1=[**4-8**]),
   rifampin(d1=[**3-21**])
   - f/u BCx, UCx, obtain sputum Cx
   - ID following, appreciate recs
   - f/u LFTs weakly on rifampin
   .
   # s/p gastroc wound flap: Followed by surgery, plastics.  Wound open.
   Patient denies pain at surgical site, however, would need to consider
   this as site of infection
   -Routine post-op care per surgical/plastics team
   .
   # CHF: Has diastolic HF, recent ECHO on [**3-28**] showing preserved systolic
   function. Likely decompensated. BNP elevated.
   Repeat echo on [**4-10**] showing mod pulm HTN, mild sym LV hypertrophy,
   minimal AS, and EF 55%.
   -float swan today
   .
   # HTN: Patient's BP has recently been controlled.  Lisinopril increased
   from 10mg to 20mg on [**4-10**].  Pt required small amount of nitro gtt on
   evening of [**4-11**] and now is off.
   - hold  lisinopril, metoprolol, and amlodipine until swan catheter
   placed
   .
   # Anemia: Hct has been stable in mid 20s previously.  HCT still at 24.
   -guiac stools
   -recheck afternoon HCT and consider transfusion
   .
   # FEN: Regular low salt diet with fluid restriction. Monitor lytes and
   replete as needed.
   -will check alb
   .
   # PPX: continue SC lovenox in am, PPI, bowel regimen
   .
   # Code: Full
   .
   # Dispo: ICU care for now, but if continues to be stable on NC O2, CE
   negative, EKG normal can consider transfer back to surgical floor team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-11**] 10:35 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-11**] 08:02 AM
   Arterial Line - [**2188-4-11**] 11:21 AM
   PA Catheter - [**2188-4-11**] 04:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-13 10:24:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Vasopressor requirement variable, currently off.
   Swan Ganz readings improving/normalizing.
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanically ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-4-12**] 08:00 PM
   Meropenem - [**2188-4-13**] 02:00 AM
   Vancomycin - [**2188-4-13**] 08:13 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2188-4-12**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-4-13**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.4
   HR: 94 (93 - 111) bpm
   BP: 95/49(64) {82/43(58) - 150/63(88)} mmHg
   RR: 23 (23 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 13 (8 - 22)mmHg
   PAP: (46 mmHg) / (19 mmHg)
   PCWP: 16 (16 - 16) mmHg
   CO/CI (Fick): (6.6 L/min) / (2.8 L/min/m2)
   SvO2: 59%
   Mixed Venous O2% Sat: 59 - 60
   Total In:
                                                                  5,892 mL
                                                                  3,947 mL
   PO:
   TF:
                                                                    240 mL
                                                                    182 mL
   IVF:
                                                                  3,377 mL
                                                                  3,119 mL
   Blood products:
                                                                  1,325 mL
   Total out:
                                                                  2,020 mL
                                                                    440 mL
   Urine:
                                                                  1,420 mL
                                                                    440 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  3,872 mL
                                                                  3,507 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 800 (800 - 801) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 133.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.25/46/95.[**Numeric Identifier 218**]/18/-6
   Ve: 18,918.4 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   229 K/uL
   105 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.2 mEq/L
   52 mg/dL
   117 mEq/L
   147 mEq/L
   29
   18.3 K/uL
        [image002.jpg]
                             [**2188-4-12**]  04:23 AM
                             [**2188-4-12**]  04:29 AM
                             [**2188-4-12**]  10:31 AM
                             [**2188-4-12**]  11:46 AM
                             [**2188-4-12**]  02:02 PM
                             [**2188-4-12**]  05:49 PM
                             [**2188-4-12**]  05:51 PM
                             [**2188-4-13**]  04:45 AM
                             [**2188-4-13**]  05:03 AM
                             [**2188-4-13**]  05:08 AM
   WBC
   23.4
   18.3
   Hct
   24.7
   26
   28
   28.2
   29.2
   29
   Plt
   360
   229
   Cr
   1.7
   1.7
   TCO2
   23
   20
   20
   20
   20
   21
   Glucose
   98
   105
   Other labs: PT / PTT / INR:18.1/33.7/1.7, CK / CKMB /
   Troponin-T:41/2/0.05, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:1.0 %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL,
   LDH:349 IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Respiratory failulre, pulmonary edema, hemoptysis, now sepsis.
   Evidence for overall clinical improvement over past 24 hrs
   RESPIRATORY DISTRESS -- Primary concern is acute pulmonary edema,
   possible related to intermittent ischemia.  Remains hypoxemic but
   improved.  Consider evolving ARDS (at risk).  Resp. failure may also be
   precipitated by underlying infection, such as C. diff, line or wound
   infection.  Continue mechanical venitilation.   Monitor ABG, maintain
   SaO2 > 90% or pO2 >60 mmHg.
   PULMONARY EDEMA -- CXR demonstrates continued resolution, except for .
   Component of pulmonary hemorrhage.  Monitor central filling pressures
   with Swan-Ganz.  Maintain
   SEPSIS -- Interval development of sepsis (fevers, septic physiology by
   swan ganz).  Recognized UTI (recent), and receiving Rx for right knee
   wound.  However, concern for new additional infection or evolution of
   resistance.  Considerations include pneumonia (LUL and LLL on CXR and
   CT scan), C. Diff enteritis, abscess/undrained infection.  Right knee
   tapped today by ortho (+ WBC) --> await culture results.  Continue
   empirical antimicrobials.
   FEVER -- attributed in part to UTI (resistent organism), but now
   concern for sepsis.  Await blood, sputum, stool cultures.  Continue
   Meripenem,Vancomycin, Rifampin, PO vanco (possible C. diff).
   ACIDOSIS -- appears predmoniately elevated dead space ventilation.
   ANEMIA -- Diffuse alveolar hemorrhage; elevated PT on lovenox; maintain
   Hct >27.  Rising plts.  Recheck coags (PT/PT).
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.  Ortho Service performed right knee arthrocentesis.
   OSA -- Not active issue currently.  Resume CPAP once extubated.
   FLUIDS -- Currently, hypovolemic, desire net positive fluid balance,
   monitor CVP.
   HYPOKALEMIA -- replete to K>4.0.
   NUTRITIONAL SUPPORT  -- continue TF.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-11**] 10:35 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-4-11**] 08:02 AM
   Arterial Line - [**2188-4-11**] 11:21 AM
   PA Catheter - [**2188-4-11**] 04:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2188-04-14 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   83 y/o M with PMH significant for HTN, diastolic CHF s/p R TKR c/b
   septic joint s/p washout and R gastroc knee graft transferred to MICU
   for hypoxia later requiring intubation with ? of septic physiology.
   24 Hour Events:
   -Tap of knee 13,000 WBC 35, 000 RBC no organisms on gram stain
   -no infectious source found
   -started LR as fluid
   -no BM to check for c diff
   -WBC trending down
   -Acidotic on ABGs
   - + 6L
   -Pilot balloon leak
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-4-12**] 08:00 PM day 7
   Meropenem - [**2188-4-14**] 01:36 AM day 24
   Vancomycin - [**2188-4-14**] 06:00 AM day 4
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-14**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.7
   HR: 97 (92 - 112) bpm
   BP: 110/52(71) {78/42(53) - 137/71(93)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 13 (10 - 20)mmHg
   PAP: (49 mmHg) / (24 mmHg)
   PCWP: 18 (12 - 18) mmHg
   CO/CI (Fick): (8 L/min) / (3.5 L/min/m2)
   Mixed Venous O2% Sat: 58 - 67
   Total In:
                                                                  7,442 mL
                                                                    395 mL
   PO:
   TF:
                                                                    390 mL
                                                                      7 mL
   IVF:
                                                                  5,447 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  1,386 mL
                                                                    740 mL
   Urine:
                                                                  1,286 mL
                                                                    560 mL
   NG:
                                                                    100 mL
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  6,056 mL
                                                                   -345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 800 (800 - 801) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.21/47/120/20
   Ve: 16.5 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   178 K/uL
   9.3 g/dL
   130 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.1 mEq/L
   58 mg/dL
   118 mEq/L
   146 mEq/L
   28.3 %
   18.6 K/uL
        [image002.jpg] joint fluid 13, 500 WBC,  33, 500 RBC, + polys
   Anti GBM, ANCA-P, [**Doctor First Name **]-P
   Blood cx pending
                             [**2188-4-12**]  05:51 PM
                             [**2188-4-13**]  04:45 AM
                             [**2188-4-13**]  05:03 AM
                             [**2188-4-13**]  05:08 AM
                             [**2188-4-13**]  01:04 PM
                             [**2188-4-13**]  05:06 PM
                             [**2188-4-13**]  05:21 PM
                             [**2188-4-13**]  10:30 PM
                             [**2188-4-14**]  04:16 AM
                             [**2188-4-14**]  04:44 AM
   WBC
   18.3
   14.3
   18.6
   Hct
   28.2
   29.2
   29
   28.2
   28.3
   Plt
   [**Telephone/Fax (3) 6799**]
   Cr
   1.7
   1.8
   1.8
   TCO2
   21
   19
   19
   19
   20
   Glucose
   105
   110
   130
   Other labs: PT / PTT / INR:18.1/33.7/1.7, CK / CKMB /
   Troponin-T:41/2/0.05, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:1.0 %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL,
   LDH:349 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   # Sepsis: Most likely source is lung given diffuse alveolar hemorrhage,
   but could be systemic response to infxn elsewhere, given negative CT
   abd other sources could include C.diff or knee which was presenting
   symptom on admission to hospital. Appears WBC began decreasing and
   pressor needs decreased w/ addition of vancomycin. Nothing has grown
   from BAL yet. Other source of systemic inflammation could include
   rheumatologic and those studies are still pending.  WBC trending up
   today but still no organism has been ID.
   - f/u knee tap cx
   - continue vancomycin IV/PO, meropenem, & rifampin
   - f/u ID recs
   - F/u ANCA, [**Doctor First Name **], antiGBM (pulmonary renal labs given DAH)
   - wean levophed as tolerated
   .
   # Respiratory failure:  Pt has a metabolic acidosis without appropriate
   respiratory compensation.  He has some respiratory acidosis despite
   large minute ventilation as well as failure to respond to metabolic
   acidosis. This is consistent with dead space.  The patient could also
   be developing an ARDS like picture.
   -will decrease FiO2.
   -will try to increase RR in order to help pt blow off acid.  Also would
   be good for pt to decrease tidal volume.  Will increase sedation in
   order to achieve this if needed will add propofol.
   -f/u BAL
   .
   #Acidosis: Metabolic nongap acidosis w/ superimposed respiratory
   acidosis.
   - Volume resuscitation w/ LR to avoid giving more chloride
   .
   # s/p gastroc wound flap: Wound looks good and plastics thinks that
   wound looks good.
   -Routine post-op care per surgical/plastics team
   -f.u knee tap
   .
   # CHF: Has diastolic HF, recent ECHO on [**3-28**] showing preserved systolic
   function. Likely decompensated. BNP elevated.
   Repeat echo on [**4-10**] showing mod pulm HTN, mild sym LV hypertrophy,
   minimal AS, and EF 55%.
   -will remove swan today
   .
   # HTN: Holding all BP meds given pt requiring levophed today.
   .
   # Anemia: Hct stable
   - follow Hct
   .
   # FEN: Regular low salt diet with fluid restriction. Monitor lytes and
   replete as needed.
   -will check alb
   .
   # Access: given need for levophed, sedation, and possibly paralytic in
   the future will need more access.   Will insert triple lumen inside of
   cordis. Also try to get peripheral IV.
   .
   # PPX: continue SC lovenox  PPI, bowel regimen
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition: will wait to start TPN given risk of infection
   Glycemic Control:
   Lines: discontinue swan today, put triple lumen in cordis, get
   peripheral IV
   Arterial Line - [**2188-4-11**] 11:21 AM
   PA Catheter - [**2188-4-11**] 04:15 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2188-04-14 09:49:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via ETT.
   Change to IPS mode this AM, tolerating well.
   Remains sedated.
   Remains on vasopressor intermittently.
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanically ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-4-12**] 08:00 PM
   Meropenem - [**2188-4-14**] 01:36 AM
   Vancomycin - [**2188-4-14**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventiation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-4-14**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.1
   HR: 89 (89 - 112) bpm
   BP: 114/58(77) {78/42(53) - 137/71(93)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 9 (9 - 20)mmHg
   PAP: (40 mmHg) / (21 mmHg)
   PCWP: 12 (12 - 18) mmHg
   CO/CI (Thermodilution): () / (3.1 L/min/m2)
   CO/CI (Fick): (8 L/min) / (3.5 L/min/m2)
   SVR: 741 dynes*sec/cm5
   PVR: 166 dynes*sec/cm5
   Mixed Venous O2% Sat: 58 - 67
   SV: 82 mL
   SVI: 35 mL/m2
   Total In:
                                                                  7,442 mL
                                                                    648 mL
   PO:
                                TF:
                                                                    390 mL
                                                                      7 mL
   IVF:
                                                                  5,447 mL
                                                                    491 mL
   Blood products:
   Total out:
                                                                  1,386 mL
                                                                    960 mL
   Urine:
                                                                  1,286 mL
                                                                    780 mL
   NG:
                                                                    100 mL
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  6,056 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 800 (800 - 801) mL
   Vt (Spontaneous): 569 (569 - 660) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.21/47/120/18/-9
   Ve: 15.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   178 K/uL
   130 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.1 mEq/L
   58 mg/dL
   118 mEq/L
   146 mEq/L
   28.3 %
   18.6 K/uL
        [image002.jpg]
                             [**2188-4-12**]  05:51 PM
                             [**2188-4-13**]  04:45 AM
                             [**2188-4-13**]  05:03 AM
                             [**2188-4-13**]  05:08 AM
                             [**2188-4-13**]  01:04 PM
                             [**2188-4-13**]  05:06 PM
                             [**2188-4-13**]  05:21 PM
                             [**2188-4-13**]  10:30 PM
                             [**2188-4-14**]  04:16 AM
                             [**2188-4-14**]  04:44 AM
   WBC
   18.3
   14.3
   18.6
   Hct
   28.2
   29.2
   29
   28.2
   28.3
   Plt
   [**Telephone/Fax (3) 6799**]
   Cr
   1.7
   1.8
   1.8
   TCO2
   21
   19
   19
   19
   20
   Glucose
   105
   110
   130
   Other labs: PT / PTT / INR:18.1/33.7/1.7, CK / CKMB /
   Troponin-T:41/2/0.05, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:1.0 %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL,
   LDH:349 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Respiratory failulre, pulmonary edema, hemoptysis, now sepsis.
   Evidence for continued overall gradual clinical improvement over past
   24 hrs, although remains critically ill.
   RESPIRATORY DISTRESS
 Alveolar hemorrhage attributed to LUL and LLL
   pneumonia.  [**Month (only) 51**] be evolving ARDS.  Alveolar hemorrhage raises concern
   for pulmonary-renal syndrome, although improving without benefit of
   specific therapy
 awaiting blood testing (including ANCA).  Underlying
   concern remains for component of acute pulmonary edema, possible
   related to intermittent ischemia, in combination with AS and MR.
   Hypoxemia improved.   Continue mechanical venitilation.   Monitor ABG,
   maintain SaO2 > 90% or pO2 >60 mmHg.
   PULMONARY EDEMA -- CXR demonstrates continued resolution, except for .
   Component of pulmonary hemorrhage.  Monitor central filling pressures
   with Swan-Ganz.  Maintain
   SEPSIS -- Recognized UTI (recent), and receiving Rx for right knee
   wound.  However, concern for new additional infection or evolution of
   resistance.  Considerations include pneumonia (LUL and LLL on CXR and
   CT scan), C. Diff enteritis, abscess/undrained infection.  Right knee
   tapped by ortho (+ WBC) --> await culture results.  Continue empirical
   antimicrobials.
   FEVER -- attributed in part to UTI (resistent organism), but now
   concern for sepsis.  Await blood, sputum, stool cultures.  Continue
   Meripenem,Vancomycin, Rifampin, PO vanco (possible C. diff).  Plan to
   d/c swan
   ACIDOSIS -- appears predmoniately elevated dead space ventilation.
   Monitor, goa pH>7.20
   ANEMIA -- Diffuse alveolar hemorrhage; elevated PT on lovenox; maintain
   Hct >27.  Rising plts.  Recheck coags (PT/PT).
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.  Ortho Service performed right knee arthrocentesis.
   OSA -- Not active issue currently while intubated.
   FLUIDS -- Currently, hypovolemic, desire net positive fluid balance,
   monitor CVP.
   HYPOKALEMIA -- replete to K>4.0.
   NUTRITIONAL SUPPORT  -- continue TF.  Consider TPN per surgery, but
   primary concern is high risk for fungal infectious complication while
   septic, intubated and on broad spectrum antimicrobials.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   PA Catheter - [**2188-4-11**] 04:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2188-04-15 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ID rec d/c po vanco (no diarrhea and neg CT scan) and d/c rifampin but
   should restart rifampin later when pt is more stable (rifampin caan
   effect other meds and LFTs)
   -Swan pulled
   -Triple lumen placed inside of cordis
   -Tried to increase sedation fentanyl 400 and versed 10 then added on
   propofol.  Despite this pt continued to pull large lung volumes.
   -Mixed acidosis on gas with one ph being 7.19
   -Got recs for TPn but decision made not to start TPN given pt at high
   risk for fungal infection
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-4-12**] 08:00 PM
   Meropenem - [**2188-4-14**] 10:00 AM
   Vancomycin - [**2188-4-14**] 12:00 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-15**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 104 (86 - 110) bpm
   BP: 108/67(83) {86/46(62) - 149/67(93)} mmHg
   RR: 27 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 11 (9 - 18)mmHg
   PAP: (49 mmHg) / (22 mmHg)
   PCWP: 10 (10 - 13) mmHg
   CO/CI (Thermodilution): (7.23 L/min) / (2.8 L/min/m2)
   CO/CI (Fick): (6.9 L/min) / (3 L/min/m2)
   SVR: 860 dynes*sec/cm5
   PVR: 224 dynes*sec/cm5
   Mixed Venous O2% Sat: 62 - 62
   SV: 75 mL
   SVI: 32 mL/m2
   Total In:
                                                                  1,610 mL
                                                                    345 mL
   PO:
   TF:
                                                                      7 mL
   IVF:
                                                                  1,274 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    300 mL
   Urine:
                                                                  2,340 mL
                                                                    300 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 166 (163 - 816) mL
   PS : 10 cmH2O
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 33 cmH2O
   SpO2: 97%
   ABG: 7.16/56/138/17/-9
   Ve: 16.1 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   9.7 g/dL
   106 mg/dL
   1.6 mg/dL
   17 mEq/L
   4.3 mEq/L
   54 mg/dL
   118 mEq/L
   144 mEq/L
   30.8 %
   20.0 K/uL
        [image002.jpg]
                             [**2188-4-14**]  04:16 AM
                             [**2188-4-14**]  04:44 AM
                             [**2188-4-14**]  10:44 AM
                             [**2188-4-14**]  10:49 AM
                             [**2188-4-14**]  06:32 PM
                             [**2188-4-14**]  08:34 PM
                             [**2188-4-14**]  10:55 PM
                             [**2188-4-15**]  02:45 AM
                             [**2188-4-15**]  02:50 AM
                             [**2188-4-15**]  04:24 AM
   WBC
   18.6
   20.0
   Hct
   28.3
   24
   30.8
   Plt
   178
   152
   Cr
   1.8
   1.6
   TCO2
   20
   19
   21
   21
   21
   21
   21
   Glucose
   130
   106
   Other labs: PT / PTT / INR:23.2/33.7/2.2, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:32/62, Alk Phos / T Bili:93/2.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:3.0
   %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:533 IU/L, Ca++:7.8
   mg/dL, Mg++:2.5 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   # Sepsis: Most likely source is lung given diffuse alveolar hemorrhage,
   but could be systemic response to infxn elsewhere, given negative CT
   abd other sources could include C.diff or knee which was presenting
   symptom on admission to hospital. Appears WBC began decreasing and
   pressor needs decreased w/ addition of vancomycin. Nothing has grown
   from BAL yet. Other source of systemic inflammation could include
   rheumatologic and those studies are still pending.  WBC trending up
   today but still no organism has been ID.
   - f/u knee tap cx
   - continue vancomycin IV/PO, meropenem, & rifampin
   - f/u ID recs
   - F/u ANCA, [**Doctor First Name **], antiGBM (pulmonary renal labs given DAH)
   - wean levophed as tolerated
   .
   # Respiratory failure:  Pt has a metabolic acidosis without appropriate
   respiratory compensation.  He has some respiratory acidosis despite
   large minute ventilation as well as failure to respond to metabolic
   acidosis. This is consistent with dead space.  The patient could also
   be developing an ARDS like picture.
   -will decrease FiO2.
   -will try to increase RR in order to help pt blow off acid.  Also would
   be good for pt to decrease tidal volume.  Will increase sedation in
   order to achieve this if needed will add propofol.
   -f/u BAL
   .
   #Acidosis: Metabolic nongap acidosis w/ superimposed respiratory
   acidosis.
   - Volume resuscitation w/ LR to avoid giving more chloride
   .
   # s/p gastroc wound flap: Wound looks good and plastics thinks that
   wound looks good.
   -Routine post-op care per surgical/plastics team
   -f.u knee tap
   .
   # CHF: Has diastolic HF, recent ECHO on [**3-28**] showing preserved systolic
   function. Likely decompensated. BNP elevated.
   Repeat echo on [**4-10**] showing mod pulm HTN, mild sym LV hypertrophy,
   minimal AS, and EF 55%.
   -will remove swan today
   .
   # HTN: Holding all BP meds given pt requiring levophed today.
   .
   # Anemia: Hct stable
   - follow Hct
   .
   # FEN: Regular low salt diet with fluid restriction. Monitor lytes and
   replete as needed.
   -will check alb
   .
   # Access: given need for levophed, sedation, and possibly paralytic in
   the future will need more access.   Will insert triple lumen inside of
   cordis. Also try to get peripheral IV.
   .
   # PPX: continue SC lovenox  PPI, bowel regimen
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Cordis/Introducer - [**2188-4-11**] 04:15 PM
   Multi Lumen - [**2188-4-14**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-15 11:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Attempts made to optimize
   alveolar ventilation overnight with increased sedation, change
   modality  all without benefit.
   Remains on vasopressor, transiently requiring 2nd vasopressor.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-4-12**] 08:00 PM
   Vancomycin - [**2188-4-15**] 08:20 AM
   Meropenem - [**2188-4-15**] 09:51 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-15**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-4-15**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 98 (86 - 110) bpm
   BP: 101/54(71) {94/46(62) - 149/67(93)} mmHg
   RR: 23 (17 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
   CVP: 11 (9 - 11)mmHg
   PAP: (49 mmHg) / (22 mmHg)
   PCWP: 10 (10 - 10) mmHg
   CO/CI (Thermodilution): () / (2.8 L/min/m2)
   SVR: 910 dynes*sec/cm5
   PVR: 224 dynes*sec/cm5
   SV: 76 mL
   SVI: 32 mL/m2
   Total In:
                                                                  1,610 mL
                                                                    832 mL
   PO:
   TF:
                                                                      7 mL
   IVF:
                                                                  1,274 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    690 mL
   Urine:
                                                                  2,340 mL
                                                                    690 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 429 (163 - 816) mL
   PS : 10 cmH2O
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 42 cmH2O
   SpO2: 97%
   ABG: 7.16/55/130/17/-9
   Ve: 18.8 L/min
   PaO2 / FiO2: 217
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   152 K/uL
   106 mg/dL
   1.6 mg/dL
   17 mEq/L
   4.3 mEq/L
   54 mg/dL
   118 mEq/L
   144 mEq/L
   30.8 %
   20.0 K/uL
        [image002.jpg]
                             [**2188-4-14**]  04:44 AM
                             [**2188-4-14**]  10:44 AM
                             [**2188-4-14**]  10:49 AM
                             [**2188-4-14**]  06:32 PM
                             [**2188-4-14**]  08:34 PM
                             [**2188-4-14**]  10:55 PM
                             [**2188-4-15**]  02:45 AM
                             [**2188-4-15**]  02:50 AM
                             [**2188-4-15**]  04:24 AM
                             [**2188-4-15**]  06:32 AM
   WBC
   20.0
   Hct
   24
   30.8
   Plt
   152
   Cr
   1.6
   TCO2
   20
   19
   21
   21
   21
   21
   21
   21
   Glucose
   106
   Other labs: PT / PTT / INR:23.2/33.7/2.2, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:32/62, Alk Phos / T Bili:93/2.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:3.0
   %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:533 IU/L, Ca++:7.8
   mg/dL, Mg++:2.5 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Respiratory failulre, pulmonary edema, hemoptysis, now sepsis.
   Evidence for overall clinical decline over past 24 hrs, primary problem
   now acidosis which appears to be predmonately respiratory.   Remains
   critically ill.
   RESPIRATORY DISTRESS
 Alveolar hemorrhage, hypoxemia, attributed to
   LUL and LLL pneumonia, now ARDS.  Continue mechanical venitilation.
   Monitor ABG, maintain SaO2 > 90% or pO2 >60 mmHg using lung protective
   strategy.  Significant alveolar hypoventilation --> may need to
   paralyze.
   PULMONARY EDEMA -- Cardiogenic component improved.  Now with evidence
   for non-cardiogenic pulmonary edema --> lung protective strategy.
   HYPOTENSION -- attributed to sepsis, distributive shock.  Maintain
   SEPSIS -- Unclear source, but concerns includ pneumonia, UTI (recent),
   and right knee wound.  No other new additional infection identified.
   Continue empirical antimicrobials.
   FEVER -- low grade.  Attributed to sepsis.  Await blood, sputum, stool
   cultures.  Continue Meripenem,Vancomycin, Rifampin, iv Flagyl and PO
   vanco (possible C. diff).  Check serum b-glucan, galactomannan.
   ACIDOSIS -- appears predmoniately elevated dead space ventilation.
   Monitor, goal pH>7.20.
   ANEMIA -- Diffuse alveolar hemorrhage; elevated PT on lovenox; maintain
   Hct >27.  Rising plts.  Recheck coags (PT/PT).
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.  Ortho Service following.
   FLUIDS -- Currently, hypovolemic, desire net positive fluid balance,
   monitor CVP.
   HYPOKALEMIA -- replete to K>4.0.
   NUTRITIONAL SUPPORT  -- continue TF.  Consider TPN per surgery, but
   primary concern is high risk for fungal infectious complication while
   septic, intubated and on broad spectrum antimicrobials.
   OSA -- Not active issue currently while intubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Cordis/Introducer - [**2188-4-11**] 04:15 PM
   Multi Lumen - [**2188-4-14**] 06:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2188-04-16 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  83 yo M w/ sepsis and ARDS
   24 Hour Events:
   Changed vent settings to increase RR and decrease Vt, acidosis improved
   with decreased dysynchrony
   Considered paralyzing to improve synchrony but gas improved w/o it
   Updated family
   Changed line
   Started IV flagyl in case of c.diff ileus
   CVP 5-8
   Weaned pressors
   Restarted TF
   Given PO VitK empirically
   [**Last Name (un) **] stim increased from 28.2->32.6
   Changed ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-15**] 08:20 AM
   Azithromycin - [**2188-4-15**] 01:52 PM
   Meropenem - [**2188-4-16**] 02:00 AM
   Metronidazole - [**2188-4-16**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-15**] 08:20 AM
   Midazolam (Versed) - [**2188-4-15**] 12:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-16**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 82 (81 - 105) bpm
   BP: 129/55(76) {80/44(57) - 143/66(85)} mmHg
   RR: 34 (20 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 10 (5 - 12)mmHg
   PCWP: 5 (5 - 10) mmHg
   Total In:
                                                                  2,604 mL
                                                                    884 mL
   PO:
   TF:
                                                                     70 mL
                                                                    142 mL
   IVF:
                                                                  2,324 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    545 mL
   Urine:
                                                                  2,110 mL
                                                                    520 mL
   NG:
                                                                     30 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    464 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 429 (429 - 429) mL
   PS : 10 cmH2O
   RR (Set): 34
   RR (Spontaneous): 1
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50.1 cmH2O/mL
   SpO2: 92%
   ABG: 7.29/44/78.[**Numeric Identifier 181**]/19/-4
   Ve: 20.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   GEN: Sedated on vent
   HEENT: Abrasions on L and R cheek
   HEART: RRR, distant heart sounds
   Lungs: Clear anteriorly
   Abd: Soft, NT, ND, BS hypoactive
   Ext: 2+ pitting edema bilaterally
   Labs / Radiology
   136 K/uL
   8.5 g/dL
   104 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.8 mEq/L
   50 mg/dL
   122 mEq/L
   148 mEq/L
   26.5 %
   12.4 K/uL
        [image002.jpg]
                             [**2188-4-14**]  10:55 PM
                             [**2188-4-15**]  02:45 AM
                             [**2188-4-15**]  02:50 AM
                             [**2188-4-15**]  04:24 AM
                             [**2188-4-15**]  06:32 AM
                             [**2188-4-15**]  01:13 PM
                             [**2188-4-15**]  06:01 PM
                             [**2188-4-15**]  10:45 PM
                             [**2188-4-16**]  04:45 AM
                             [**2188-4-16**]  05:03 AM
   WBC
   20.0
   12.4
   Hct
   30.8
   26.5
   Plt
   152
   136
   Cr
   1.6
   1.3
   TCO2
   21
   21
   21
   21
   21
   22
   22
   22
   Glucose
   106
   104
   Other labs: PT / PTT / INR:21.3/41.8/2.0, ALT / AST:20/34, Alk Phos / T
   Bili:67/1.5, LDH:398 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   83 yo M w/ sepsis and ARDS
   # Sepsis:  Improving.  Afebrile for 24hrs.   Consider C.diff sepsis
   given ileus, have not had stool to send for toxin. Low dose pressors to
   increase SVR. ANCA/[**Doctor First Name **] negative, anti GBM negative.  Blood cultures,
   respiratory studies from BAL have been negative to date.   Patient has
   been improving on current antibiotic regimen and has been able to
   tolerate very low dose of levophed.
   - Continue Vanco/[**Last Name (un) **]/Flagyl/Azithromycin
   - Follow up cx (Mycoplasma/Ureaplasma)
   - Monitor fever curve and WBC
   # ARDS:   Improving.  Patient
s repeat CXR shows interval improvement
   in infiltrates.  Patient
s metabolic acidosis is improving, pH is
   around 7.3, likely from change in I/E ratio and from change in tube.
   Patient still overbreathing vent
   - Decrease dead space in vent tubing
   - consider paralysis if vent dysynchrony is significantly contributing
   to poor ventilation
   -will decrease FiO2.
   - continue small TV w/ high frequency RR as lung protective strategy
   -f/u BAL final legionella and AFB culture.
   #Acidosis: Metabolic nongap acidosis w/ superimposed respiratory
   acidosis. Doubt that bicarbonate would improve as would increase CO2
   which is not being exhaled.
   - Volume resuscitation if necessary will use  LR to avoid giving more
   chloride
   # s/p gastroc wound flap: Wound looks good, and knee tap essentially
   negative
   -Routine post-op care per surgical/plastics team
   -f.u knee tap Cx
   # HTN: Holding all BP meds given as pt requiring levophed.
   # Anemia: Hct steadily dropping.
   -          Transfuse 1 unit PRBCs today.
   -          Check post transfusion HCT
   .
   # FEN: Regular low salt diet.  Na 148 this AM, increased tube flushes
   to 250cc.
   -will check alb
   .
   # Access: given need for levophed, sedation, and possibly paralytic in
   the future will need more access.   Will insert triple lumen inside of
   cordis. Also try to get peripheral IV.
   .
   # PPX: continue SC lovenox  PPI, bowel regimen increased.
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-15**] 07:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   22 Gauge - [**2188-4-15**] 01:24 PM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-16 11:20:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   ETT exchanged yesterday afternoon --> ABG dramatically  improved.
   Weaning vasopressor.
   No fever.  WBC declined.
   Renal function improving.
   Tolerating TF.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Mechanical ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2188-4-15**] 01:52 PM
   Metronidazole - [**2188-4-16**] 04:00 AM
   Vancomycin - [**2188-4-16**] 08:25 AM
   Meropenem - [**2188-4-16**] 09:22 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2188-4-15**] 12:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-4-16**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 80 (80 - 100) bpm
   BP: 100/49(63) {80/44(57) - 143/66(85)} mmHg
   RR: 30 (20 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
   CVP: 9 (4 - 12)mmHg
   PCWP: 5 (5 - 10) mmHg
                                Total In:
                                                                  2,604 mL
                                                                  1,765 mL
   PO:
                                TF:
                                                                     70 mL
                                                                    289 mL
   IVF:
                                                                  2,324 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    875 mL
   Urine:
                                                                  2,110 mL
                                                                    850 mL
   NG:
                                                                     30 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    464 mL
                                                                    890 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   PS : 10 cmH2O
   RR (Set): 34
   RR (Spontaneous): 6
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 62.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.29/44/78.[**Numeric Identifier 181**]/19/-4
   Ve: 21.2 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   136 K/uL
   104 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.8 mEq/L
   50 mg/dL
   122 mEq/L
   148 mEq/L
   26.5 %
   12.4 K/uL
        [image002.jpg]
                             [**2188-4-14**]  10:55 PM
                             [**2188-4-15**]  02:45 AM
                             [**2188-4-15**]  02:50 AM
                             [**2188-4-15**]  04:24 AM
                             [**2188-4-15**]  06:32 AM
                             [**2188-4-15**]  01:13 PM
                             [**2188-4-15**]  06:01 PM
                             [**2188-4-15**]  10:45 PM
                             [**2188-4-16**]  04:45 AM
                             [**2188-4-16**]  05:03 AM
   WBC
   20.0
   12.4
   Hct
   30.8
   26.5
   Plt
   152
   136
   Cr
   1.6
   1.3
   TCO2
   21
   21
   21
   21
   21
   22
   22
   22
   Glucose
   106
   104
   Other labs: PT / PTT / INR:21.3/41.8/2.0, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:398 IU/L, Ca++:7.6
   mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Respiratory failulre, sepsis,ARDS, now with continued clinical
   improvement, although remains critically ill.
   RESPIRATORY DISTRESS
 Alveolar hemorrhage, hypoxemia, attributed to
   LUL and LLL pneumonia, now ARDS.  Continue mechanical venitilation.
   Monitor ABG, maintain SaO2 > 90% or pO2 >60 mmHg using lung protective
   strategy.  Marked improvement in alveolar ventilation.  Repeat CXR
   (poor quality film this AM).
   PULMONARY EDEMA -- Cardiogenic component improved.  Now with evidence
   for non-cardiogenic pulmonary edema --> lung protective strategy.
   HYPOTENSION -- attributed to sepsis, distributive shock.  Maintain
   vasopressor, wean as tolerated to maintain MAP >60 mmHg.
   SEPSIS -- Unclear source, but concerns include pneumonia, UTI (recent),
   and right knee wound.  No other new additional infection identified.
   Continue empirical antimicrobials, including Azithro and Flagyl.
   FEVER -- resolved.  Attributed to sepsis.  Continue
   Meripenem,Vancomycin, Rifampin, iv Flagyl and PO vanco (possible C.
   diff).  Check serum b-glucan, galactomannan.
   ACIDOSIS -- appears predmoniately elevated dead space ventilation.
   Monitor, goal pH>7.20.  Now improved.
   ANEMIA -- Diffuse alveolar hemorrhage; elevated PT on lovenox; maintain
   Hct >27.  Rising plts.  Recheck coags (PT/PT).
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.  Ortho Service following.
   FLUIDS -- Currently, hypovolemic, desire net positive fluid balance,
   monitor CVP.
   HYPOKALEMIA -- replete to K>4.0.
   NUTRITIONAL SUPPORT  -- tolerating; continue TF --> advance to goal
   rate.
   OSA -- Not active issue currently while intubated.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-15**] 07:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   22 Gauge - [**2188-4-15**] 01:24 PM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2188-04-17 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   83 yo M w/ sepsis and
   ARDS
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-16**] 08:25 AM
   Meropenem - [**2188-4-16**] 09:22 AM
   Azithromycin - [**2188-4-16**] 02:00 PM
   Metronidazole - [**2188-4-17**] 04:20 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-17**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 75 (72 - 91) bpm
   BP: 97/43(60) {89/39(54) - 130/58(79)} mmHg
   RR: 31 (30 - 39) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 10 (4 - 11)mmHg
   Total In:
                                                                  3,771 mL
                                                                    433 mL
   PO:
   TF:
                                                                    447 mL
                                                                     41 mL
   IVF:
                                                                  1,905 mL
                                                                    392 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  2,013 mL
                                                                    530 mL
   Urine:
                                                                  1,988 mL
                                                                    530 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  1,758 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.28/48/77.[**Numeric Identifier 143**]/21/-4
   Ve: 18.9 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   139 K/uL
   8.7 g/dL
   92 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.1 mEq/L
   45 mg/dL
   124 mEq/L
   150 mEq/L
   26.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2188-4-15**]  06:01 PM
                             [**2188-4-15**]  10:45 PM
                             [**2188-4-16**]  04:45 AM
                             [**2188-4-16**]  05:03 AM
                             [**2188-4-16**]  12:53 PM
                             [**2188-4-16**]  01:58 PM
                             [**2188-4-16**]  07:11 PM
                             [**2188-4-16**]  09:58 PM
                             [**2188-4-16**]  10:14 PM
                             [**2188-4-17**]  04:25 AM
   WBC
   12.4
   12.5
   11.4
   Hct
   26.5
   24.9
   28.7
   26.7
   Plt
   136
   127
   139
   Cr
   1.3
   1.1
   TCO2
   22
   22
   22
   23
   25
   24
   Glucose
   104
   92
   Other labs: PT / PTT / INR:17.6/41.8/1.6, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L, Ca++:8.1
   mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   # Sepsis:  Improving.  Afebrile for 24hrs.   Consider C.diff sepsis
   given ileus, have not had stool to send for toxin. Low dose pressors to
   increase SVR. ANCA/[**Doctor First Name **] negative, anti GBM negative.  Blood cultures,
   respiratory studies from BAL have been negative to date.   Patient has
   been improving on current antibiotic regimen and has been able to
   tolerate very low dose of levophed.
   - Continue Vanco/[**Last Name (un) **]/Flagyl/Azithromycin
   - Follow up cx (Mycoplasma/Ureaplasma)
   - Monitor fever curve and WBC
   # ARDS:   Improving.  Patient
s repeat CXR shows interval improvement
   in infiltrates.  Patient
s metabolic acidosis is improving, pH is
   around 7.3, likely from change in I/E ratio and from change in tube.
   Patient still overbreathing ventilator, and would likely benefit from
   increased sedation.  No indication for paralysis at this time as
   patient is clinically improving.
   - continue small TV w/ high frequency RR as lung protective strategy
   - Increase sedation
   #Acidosis:  pH is 7.29 this AM.  Metabolic nongap acidosis w/
   superimposed respiratory acidosis. Doubt that bicarbonate would improve
   as would increase CO2 which is not being exhaled.
   - Volume resuscitation if necessary will use  LR to avoid giving more
   chloride
   # s/p gastroc wound flap: Wound looks good, and knee tap essentially
   negative
   -Routine post-op care per surgical/plastics team
   -f.u knee tap Cx
   # HTN: Holding all BP meds given as pt requiring levophed.
   # Anemia: Hct steadily dropping.
   -          Transfuse 1 unit PRBCs today.
   -          Check post transfusion HCT
   .
   # FEN: Regular low salt diet.  Na 148 this AM, increased tube flushes
   to 250cc.
   -will check alb
   .
   # Access: given need for levophed, sedation, and possibly paralytic in
   the future will need more access.   Will insert triple lumen inside of
   cordis. Also try to get peripheral IV.
   .
   # PPX: continue SC lovenox  PPI, bowel regimen increased.
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-17**] 02:20 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   22 Gauge - [**2188-4-15**] 01:24 PM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-17 12:03:00 Physician Attending Progress Note
Chief Complaint: Resp. failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2188-4-16**] 02:00 PM
   Metronidazole - [**2188-4-17**] 04:20 AM
   Vancomycin - [**2188-4-17**] 08:15 AM
   Meropenem - [**2188-4-17**] 10:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-4-17**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 77 (72 - 85) bpm
   BP: 105/48(65) {89/39(54) - 137/61(85)} mmHg
   RR: 32 (20 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
   CVP: 15 (3 - 15)mmHg
   Total In:
                                                                  3,771 mL
                                                                  1,772 mL
   PO:
   TF:
                                                                    447 mL
                                                                    150 mL
   IVF:
                                                                  1,905 mL
                                                                    922 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  2,013 mL
                                                                  1,070 mL
   Urine:
                                                                  1,988 mL
                                                                  1,070 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  1,758 mL
                                                                    702 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 460 (460 - 460) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.28/48/77.[**Numeric Identifier 143**]/21/-4
   Ve: 18.3 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : , No(t) Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   139 K/uL
   92 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.1 mEq/L
   45 mg/dL
   124 mEq/L
   150 mEq/L
   26.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2188-4-15**]  06:01 PM
                             [**2188-4-15**]  10:45 PM
                             [**2188-4-16**]  04:45 AM
                             [**2188-4-16**]  05:03 AM
                             [**2188-4-16**]  12:53 PM
                             [**2188-4-16**]  01:58 PM
                             [**2188-4-16**]  07:11 PM
                             [**2188-4-16**]  09:58 PM
                             [**2188-4-16**]  10:14 PM
                             [**2188-4-17**]  04:25 AM
   WBC
   12.4
   12.5
   11.4
   Hct
   26.5
   24.9
   28.7
   26.7
   Plt
   136
   127
   139
   Cr
   1.3
   1.1
   TCO2
   22
   22
   22
   23
   25
   24
   Glucose
   104
   92
   Other labs: PT / PTT / INR:17.6/41.8/1.6, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L, Ca++:8.1
   mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failulre, sepsis,ARDS, now with continued clinical
   improvement, although remains critically ill.
   RESPIRATORY DISTRESS
 Alveolar hemorrhage, hypoxemia, attributed to
   LUL and LLL pneumonia, now ARDS.  Continue mechanical venitilation.
   Monitor ABG, maintain SaO2 > 90% or pO2 >60 mmHg using lung protective
   strategy.  Marked improvement in alveolar ventilation.   Consider
   repeat bronchoscopy if lack of continued progress or serum
   galactomannan or b-glucan detected.
   PULMONARY EDEMA -- Cardiogenic component improved.  Now with evidence
   for non-cardiogenic pulmonary edema (ARDS) --> lung protective
   strategy.
   HYPOTENSION -- attributed to sepsis, distributive shock.  Maintain
   vasopressor, wean as tolerated to maintain MAP >60 mmHg.
   SEPSIS -- Unclear source, but concerns include pneumonia, UTI (recent),
   and right knee wound.  No other new additional infection identified.
   Continue empirical antimicrobials, including Azithro and Flagyl.
   FEVER -- resolved.  Attributed to sepsis.  Continue
   Meripenem,Vancomycin, Rifampin, iv Flagyl and PO vanco (possible C.
   diff).  Check serum b-glucan, galactomannan.
   ACIDOSIS -- appears predmoniately elevated dead space ventilation.
   Monitor, goal pH>7.20.  Now improved.
   ANEMIA -- Diffuse alveolar hemorrhage; elevated PT on lovenox; maintain
   Hct >27.  Rising plts.  Recheck coags (PT/PT).
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.  Ortho Service following.
   FLUIDS -- Currently, hypovolemic, desire net positive fluid balance,
   monitor CVP.
   HYPOKALEMIA -- replete to K>4.0.
   NUTRITIONAL SUPPORT  -- tolerating; continue TF --> advance to goal
   rate.
   OSA -- Not active issue currently while intubated.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-17**] 02:20 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   22 Gauge - [**2188-4-15**] 01:24 PM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2188-04-18 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2188-4-17**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-17**] 08:15 AM
   Azithromycin - [**2188-4-17**] 02:00 PM
   Meropenem - [**2188-4-17**] 06:26 PM
   Metronidazole - [**2188-4-18**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Fentanyl - [**2188-4-17**] 08:27 PM
   Midazolam (Versed) - [**2188-4-18**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-18**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 70 (70 - 83) bpm
   BP: 92/43(58) {90/42(57) - 137/61(85)} mmHg
   RR: 35 (20 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 12 (11 - 15)mmHg
   Total In:
                                                                  4,493 mL
                                                                    964 mL
   PO:
   TF:
                                                                    607 mL
                                                                    220 mL
   IVF:
                                                                  2,456 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    537 mL
   Urine:
                                                                  2,005 mL
                                                                    537 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,488 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 460 (460 - 460) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 23 cmH2O
   SpO2: 93%
   ABG: 7.24/54/107/20/-4
   Ve: 17.4 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   8.6 g/dL
   115 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.5 mEq/L
   43 mg/dL
   123 mEq/L
   149 mEq/L
   27.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2188-4-16**]  01:58 PM
                             [**2188-4-16**]  07:11 PM
                             [**2188-4-16**]  09:58 PM
                             [**2188-4-16**]  10:14 PM
                             [**2188-4-17**]  04:25 AM
                             [**2188-4-17**]  04:19 PM
                             [**2188-4-17**]  05:10 PM
                             [**2188-4-17**]  08:19 PM
                             [**2188-4-18**]  04:04 AM
                             [**2188-4-18**]  06:14 AM
   WBC
   12.5
   11.4
   9.7
   11.1
   Hct
   24.9
   28.7
   26.7
   26.7
   27.3
   Plt
   127
   139
   147
   160
   Cr
   1.1
   1.0
   1.1
   TCO2
   25
   24
   24
   25
   24
   Glucose
   92
   107
   115
   Other labs: PT / PTT / INR:17.6/41.8/1.6, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L, Ca++:7.7
   mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   # Sepsis:  Improving.  Afebrile for 48hrs.   Consider C.diff sepsis
   given ileus, have not had stool to send for toxin as pt not stooled
   yet. Low dose pressors to increase SVR. ANCA/[**Doctor First Name **] negative, anti GBM
   negative.  Blood cultures, respiratory studies from BAL have been
   negative to date.   Patient has been improving on current antibiotic
   regimen and has been able to tolerate very low dose of levophed.
   - Continue Vanco/[**Last Name (un) **]/Flagyl/Azithromycin
   - appreciate ID recs
   - Follow up cx (Mycoplasma/Ureaplasma)
   - Monitor fever curve and WBC
   -CVP decreased this AM will give LR bolus of 500cc
   - Wean pressors as tolerated
   # ARDS:   Improving.  Patient
s repeat CXR shows interval improvement
   in infiltrates in LUL and LLL.  Patient
s metabolic acidosis is
   improving, pH is around 7.31, likely from change in I/E ratio and from
   change in tube 2 days ago. Pt did well on increased sedation.
   - continue small TV w/ high frequency RR as lung protective strategy
   - continue current level of sedation
   -decrease FiO2 to 40%
   #Acidosis:  pH is 7.31 this AM.  Metabolic nongap acidosis w/
   superimposed respiratory acidosis
   - Will  give LR 500 cc
   # s/p gastroc wound flap: Wound looks good, and knee tap essentially
   negative
   -Routine post-op care per surgical/plastics team
   -f.u knee tap Cx- no new growth
   # HTN: Holding all BP meds given as pt requiring levophed.
   # Anemia: Hct steadily dropping.   Transfused 1 unit pRBCs yesterday
   and bumped appropriately.  Slightly decreased HCT this Am.
   -Check afternoon HCT
   .
   # FEN: Regular low salt diet.  Na increased this AM, increased tube
   flushes to 350cc.
   -f/u 3pm NA/lytes
   .
   # PPX: continue SC lovenox  PPI, bowel regimen increased.
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   22 Gauge - [**2188-4-15**] 01:24 PM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-18 11:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Maintaining adequate BP but requiring intermittent vasopressors.
   Continues to experience high residuals with TF, now on hold, despite
   active bowel sounds and benign abdomen.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2188-4-17**] 02:00 PM
   Meropenem - [**2188-4-17**] 06:26 PM
   Metronidazole - [**2188-4-18**] 04:00 AM
   Vancomycin - [**2188-4-18**] 08:50 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-18**] 08:50 AM
   Enoxaparin (Lovenox) - [**2188-4-18**] 08:50 AM
   Fentanyl - [**2188-4-18**] 08:50 AM
   Midazolam (Versed) - [**2188-4-18**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-4-18**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 70 (69 - 83) bpm
   BP: 116/45(66) {72/32(44) - 133/60(75)} mmHg
   RR: 34 (5 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
   CVP: 11 (9 - 12)mmHg
   Total In:
                                                                  4,493 mL
                                                                  1,519 mL
   PO:
   TF:
                                                                    607 mL
                                                                    220 mL
   IVF:
                                                                  2,456 mL
                                                                    819 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    797 mL
   Urine:
                                                                  2,005 mL
                                                                    797 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,488 mL
                                                                    722 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.27/51/91/20/-3
   Ve: 17 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Tactile
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   160 K/uL
   130 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.5 mEq/L
   43 mg/dL
   123 mEq/L
   149 mEq/L
   27.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2188-4-16**]  07:11 PM
                             [**2188-4-16**]  09:58 PM
                             [**2188-4-16**]  10:14 PM
                             [**2188-4-17**]  04:25 AM
                             [**2188-4-17**]  04:19 PM
                             [**2188-4-17**]  05:10 PM
                             [**2188-4-17**]  08:19 PM
                             [**2188-4-18**]  04:04 AM
                             [**2188-4-18**]  06:14 AM
                             [**2188-4-18**]  11:21 AM
   WBC
   12.5
   11.4
   9.7
   11.1
   Hct
   28.7
   26.7
   26.7
   27.3
   Plt
   127
   139
   147
   160
   Cr
   1.1
   1.0
   1.1
   TCO2
   25
   24
   24
   25
   24
   24
   Glucose
   92
   107
   115
   130
   Other labs: PT / PTT / INR:17.6/41.8/1.6, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L, Ca++:7.7
   mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Respiratory failulre, sepsis,ARDS, now with continued clinical
   improvement, although remains critically ill.
   RESPIRATORY DISTRESS
 Alveolar hemorrhage, hypoxemia, attributed to
   LUL and LLL pneumonia, now ARDS.  Continue mechanical venitilation.
   Monitor ABG, maintain SaO2 > 90% or pO2 >60 mmHg using lung protective
   strategy.  Consider repeat bronchoscopy if lack of continued progress
   or serum galactomannan or b-glucan detected.
   PULMONARY EDEMA -- Cardiogenic component improved.  Now with evidence
   for non-cardiogenic pulmonary edema (ARDS) --> lung protective
   strategy.  Hope to begin net diuresis to limit lung water.
   HYPOTENSION -- attributed to sepsis, distributive shock --> resolving.
   Hope to continue to wean vasopressor (may be related to
   sedation/analgesia), wean as tolerated to maintain MAP >60 mmHg.
   SEPSIS -- Unclear source, but concerns include pneumonia, UTI (recent),
   and right knee wound.  No other new additional infection identified.
   Continue empirical antimicrobials, including Azithro and Flagyl.
   FEVER -- resolved.  Attributed to sepsis.  Continue
   Meripenem,Vancomycin, Rifampin, iv Flagyl and PO vanco (possible C.
   diff).  Serum b-glucan and galactomannan both negative (fungal
   infection less likely).
   ACIDOSIS -- appears predmoniately elevated dead space ventilation.
   Monitor, goal pH>7.20.  Now improved.
   HYPERNATREMIA -- improved.  Continue free H2O.
   ANEMIA -- Diffuse alveolar hemorrhage; elevated PT on lovenox; maintain
   Hct >27.  Rising plts.  Recheck coags (PT/PT).
   s/p RIGHT KNEE REPLACEMENT -- complicated by infection.  Continue
   antimicrobials.  Ortho Service following.
   FLUIDS -- Currently, hypovolemic, desire net positive fluid balance,
   monitor CVP.
   HYPOKALEMIA -- replete to K>4.0.
   NUTRITIONAL SUPPORT  -- tolerating; continue TF --> advance to goal
   rate.
   OSA -- Not active issue currently while intubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   22 Gauge - [**2188-4-15**] 01:24 PM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2188-04-19 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  ARDS/Sepsis
   24 Hour Events:
   Changed sedation several times
   Unable to wean pressors
   Had spectacular BM
   Per ID will d/c vanc/[**Last Name (un) 614**] on [**4-21**]
   Planned to decrease PEEP to 10 but PO2 had been decreasing
   Given D5W for free water deficit
   Tried IV lasix and he dropped his BP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-18**] 08:50 AM
   Azithromycin - [**2188-4-18**] 02:30 PM
   Meropenem - [**2188-4-19**] 02:14 AM
   Metronidazole - [**2188-4-19**] 04:11 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-18**] 08:50 AM
   Enoxaparin (Lovenox) - [**2188-4-18**] 08:50 AM
   Furosemide (Lasix) - [**2188-4-18**] 05:28 PM
   Midazolam (Versed) - [**2188-4-18**] 07:57 PM
   Fentanyl - [**2188-4-18**] 07:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-19**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 66 (62 - 76) bpm
   BP: 95/37(53) {72/32(44) - 146/60(77)} mmHg
   RR: 34 (27 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 12 (4 - 12)mmHg
   Total In:
                                                                  4,248 mL
                                                                  1,056 mL
   PO:
   TF:
                                                                    220 mL
                                                                     87 mL
   IVF:
                                                                  3,448 mL
                                                                    969 mL
   Blood products:
   Total out:
                                                                  2,227 mL
                                                                    720 mL
   Urine:
                                                                  2,227 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,021 mL
                                                                    336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 25 cmH2O
   Compliance: 45.1 cmH2O/mL
   SpO2: 92%
   ABG: 7.25/51/102/19/-5
   Ve: 18.5 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Gen: Sedated on the vent
   Heart: Distant heart sounds
   Lungs: Scant crackles
   Abd: Soft, NT, BS+
   Ext: Slight crusting of serum at edges of Knee wound, otherwise no
   change. 2+ pitting edema bilaterally
   Labs / Radiology
   178 K/uL
   8.6 g/dL
   106 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.9 mEq/L
   36 mg/dL
   123 mEq/L
   149 mEq/L
   26.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2188-4-17**]  05:10 PM
                             [**2188-4-17**]  08:19 PM
                             [**2188-4-18**]  04:04 AM
                             [**2188-4-18**]  06:14 AM
                             [**2188-4-18**]  11:21 AM
                             [**2188-4-18**]  05:25 PM
                             [**2188-4-18**]  05:45 PM
                             [**2188-4-19**]  12:00 AM
                             [**2188-4-19**]  03:29 AM
                             [**2188-4-19**]  04:09 AM
   WBC
   11.1
   8.9
   Hct
   27.3
   26.9
   Plt
   160
   178
   Cr
   1.1
   1.1
   1.1
   TCO2
   24
   25
   24
   24
   23
   23
   Glucose
   115
   130
   143
   133
   182
   106
   Other labs: PT / PTT / INR:16.6/35.6/1.5, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:16.0 %, Mono:9.0 %,
   Eos:5.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   # Sepsis:  Improving.  Afebrile for 72hrs.   Rheum studies negative.
   Blood cultures, respiratory studies from BAL have been negative to
   date.   Patient has been improving on current antibiotic regimen and
   has been able to tolerate very low dose of levophed.
   - Continue Vanco/[**Last Name (un) **]/Flagyl/Azithromycin d/c vanc/meropenem on [**4-21**].
   - appreciate ID recs
   - Follow up cx (Mycoplasma/Ureaplasma)
   - Monitor fever curve and WBC
   - Wean pressors as tolerated
   - Wean PEEP if O2 tolerates
   # ARDS: Appears that oxygenation is not improving. PO2 dropping on same
   settings.
   - continue small TV w/ high frequency RR as lung protective strategy
   - continue current level of sedation
   -continue FiO2 50%
   #Acidosis:  pH is 7.31 this AM.  Metabolic nongap acidosis w/
   superimposed respiratory acidosis
   - Will  give LR 500 cc
   # s/p gastroc wound flap: Wound looks good
   -Routine post-op care per surgical/plastics team
   #Hx of  HTN: Holding all BP meds given as pt requiring levophed.
   - will be careful with fluids as has propensity for flash pulmonary
   edema
   # Anemia: Hct stable today
   -daily Hct
   - try to minimize lab draws
   .
   # FEN: Regular low salt diet.  Na increased this AM, increased tube
   flushes to 350cc.
   -f/u 3pm NA/lytes
   .
   # PPX: continue SC lovenox  PPI, bowel regimen increased.
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-19**] 12:30 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   22 Gauge - [**2188-4-15**] 01:24 PM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-19 12:26:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo male with OSA, TKR s/p septic joint
   Persistent resp failure due to CHF/hemorrhage/ARDS
   *On pressors- suspect sepsis, source not entirely clear (joint
   cultures, endotracheal, blood, stool, urine) but being treated for VAP
   24 Hour Events:
 EKG - At [**2188-4-19**] 01:45 AM
   *Remained on pressors (0.2 levophed gtt)
   *BP dropped with attempts to diurese
   History obtained from [**Hospital 15**] Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-18**] 08:50 AM
   Azithromycin - [**2188-4-18**] 02:30 PM
   Meropenem - [**2188-4-19**] 02:14 AM
   Metronidazole - [**2188-4-19**] 04:11 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2188-4-18**] 05:28 PM
   Midazolam (Versed) - [**2188-4-18**] 07:57 PM
   Fentanyl - [**2188-4-18**] 07:57 PM
   Pantoprazole (Protonix) - [**2188-4-19**] 08:00 AM
   Enoxaparin (Lovenox) - [**2188-4-19**] 08:00 AM
   Other medications:
   celexa, [**Last Name (un) 532**], colace, vitamin C, zocor,chlorhexidine, MVI, reglan,
   lovenox, miralax, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-19**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 34.7
C (94.5
   HR: 63 (62 - 76) bpm
   BP: 102/45(62) {95/37(53) - 146/54(77)} mmHg
   RR: 29 (27 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
   CVP: 12 (4 - 14)mmHg
   Total In:
                                                                  4,248 mL
                                                                  1,355 mL
   PO:
   TF:
                                                                    220 mL
                                                                    190 mL
   IVF:
                                                                  3,448 mL
                                                                  1,165 mL
   Blood products:
   Total out:
                                                                  2,227 mL
                                                                    980 mL
   Urine:
                                                                  2,227 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,021 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 26 cmH2O
   Compliance: 41.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.25/51/102/19/-5
   Ve: 17.9 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (irregularly irregular
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  normal turgor
   Neurologic: sedated
   Labs / Radiology
   8.6 g/dL
   178 K/uL
   106 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.9 mEq/L
   36 mg/dL
   123 mEq/L
   149 mEq/L
   26.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2188-4-17**]  05:10 PM
                             [**2188-4-17**]  08:19 PM
                             [**2188-4-18**]  04:04 AM
                             [**2188-4-18**]  06:14 AM
                             [**2188-4-18**]  11:21 AM
                             [**2188-4-18**]  05:25 PM
                             [**2188-4-18**]  05:45 PM
                             [**2188-4-19**]  12:00 AM
                             [**2188-4-19**]  03:29 AM
                             [**2188-4-19**]  04:09 AM
   WBC
   11.1
   8.9
   Hct
   27.3
   26.9
   Plt
   160
   178
   Cr
   1.1
   1.1
   1.1
   TCO2
   24
   25
   24
   24
   23
   23
   Glucose
   115
   130
   143
   133
   182
   106
   Other labs: PT / PTT / INR:16.6/35.6/1.5, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:16.0 %, Mono:9.0 %,
   Eos:5.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SHOCK, SEPTIC
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
   83 yo male with sleep apnea, TKR/septic arthritis s/p washout, with
   acute respiratory failure in the setting of CHF/hemorrhage/ARDS, also
   with ongoing hypotension with concern for sepsis
   1.       Acute respiratory failure:
   Remains vent dependent with moderately high PEEP requirement- will
   first decrease FiO2, if able to stay at a lower FiO2 consistently, can
   try decreasing PEEP
   BP
s still fairly low- if improves enough, will re-attempt diuresis. BP
   may tolerate infusion rather than bolus injections.
   2.       Sepsis: remains on Vanc/merepenem/flagyl/azithro  with Cdiff
   toxins and cultures pending, no source by  CT chest/abd/pelvis.
   Continue current regimen
   3.       Hypernatremia: continue free water
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-19**] 12:30 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   22 Gauge - [**2188-4-15**] 01:24 PM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ICU
   VAP: elevate HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2188-04-20 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   ARDS/Sepsis
   24 Hour Events:
   Increased Lovenox to 40mg (as renal f(x) improved)
   Attempted to decreased Fi02 to 40%, had to increase back to 50%
   C Diff negative x 1
   Did not diurese, concern about dropping BPs
   Got 2L D5W plus fluhses, still hypernatremic
   Mycoplasma/Ureaplasma pending.
   Did not  tolerate pressure support well today
   -Continues to have high residuals on tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-19**] 08:00 AM
   Azithromycin - [**2188-4-19**] 02:00 PM
   Meropenem - [**2188-4-20**] 02:00 AM
   Metronidazole - [**2188-4-20**] 04:31 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-19**] 08:00 AM
   Enoxaparin (Lovenox) - [**2188-4-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-20**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.4
C (97.6
   HR: 75 (62 - 89) bpm
   BP: 108/42(60) {84/36(51) - 147/58(88)} mmHg
   RR: 33 (17 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 5 (4 - 253)mmHg
   Total In:
                                                                  2,947 mL
                                                                  1,308 mL
   PO:
   TF:
                                                                    483 mL
                                                                    152 mL
   IVF:
                                                                  2,334 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    700 mL
   Urine:
                                                                  2,210 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    737 mL
                                                                    608 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 26 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.30/46/74/21/-3
   Ve: 18.6 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Gen: Sedated on the vent
   Heart: Distant heart sounds
   Lungs: CTAB anteriorly
   Abd: Soft, NT, BS+
   Ext: 2+ pitting edema bilaterally, DP pulses +1 and radial pulses [**1-11**]+
   Labs / Radiology
   178 K/uL
   7.8 g/dL
   96 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   30 mg/dL
   121 mEq/L
   148 mEq/L
   24.7 %
   7.8 K/uL
        [image002.jpg]
                             [**2188-4-18**]  11:21 AM
                             [**2188-4-18**]  05:25 PM
                             [**2188-4-18**]  05:45 PM
                             [**2188-4-19**]  12:00 AM
                             [**2188-4-19**]  03:29 AM
                             [**2188-4-19**]  04:09 AM
                             [**2188-4-19**]  03:29 PM
                             [**2188-4-19**]  04:24 PM
                             [**2188-4-20**]  04:30 AM
                             [**2188-4-20**]  04:51 AM
   WBC
   8.9
   7.8
   Hct
   26.9
   24.7
   Plt
   178
   178
   Cr
   1.1
   1.1
   1.0
   1.0
   TCO2
   24
   23
   23
   24
   24
   Glucose
   130
   143
   133
   182
   106
   132
   96
   Other labs: PT / PTT / INR:16.8/36.4/1.5, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:16.0 %, Mono:9.0 %,
   Eos:5.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   # Sepsis:  Improving.  Afebrile.   Rheum studies negative.  Blood
   cultures, respiratory studies from BAL have been negative to date.
   Patient has been improving on current antibiotic regimen and has been
   able to tolerate very low dose of levophed.   Mycoplasma negative and
   Ureaplasma pending, C Diff Negative x2.
   - d/c azithromycin given mycoplasma negative.  d/c flagyl given c diff
   neg.
   -Continue vanc/meropenem until [**4-21**];
   - appreciate ID recs
   - Follow up cx Ureaplasma
   - Monitor fever curve and WBC
   .
   # ARDS: Appears that oxygenation is not improving. Unable to wean Fi02
   yesterday.   High level of PEEP still required so ventilation is not
   improving much. ? of whether free water we are giving him could be
   getting into  lungs.   Pt may also eventually need a trach.
   - continue small TV w/ high frequency RR as lung protective strategy
   - continue current level of sedation
   -continue fio2 of 50%
   .
   #Acidosis:  pH is 7.27 this AM.  Metabolic nongap acidosis w/
   superimposed respiratory acidosis
   - Monior, goal pH > 7.20
   - Recheck ABG this evening
   .
   # s/p gastroc wound flap: Wound looks good
   -Routine post-op care per surgical/plastics team
   #Hx of  HTN: Holding all BP meds.
   - will be careful with fluids as has propensity for flash pulmonary
   edema
   # Anemia: Hct trend 26.9 -> 24.7
   -rechecked afternoon HCT was 27.1, transfusion goal HCT> 21
   - try to minimize lab draws
   .
   # FEN: Regular low salt diet.  Hypernatremic.
   -will d/c free water flushes as they may be causing high residuals. On
   D5W @ 125cc/hr.  Will have meropenem mixed in D5W instead of normal
   saline
   -f/u 2pm NA/lytes/HCT
   -start TPN
   -high residuals will get KUB to look for NG tube placement
   .
   # PPX: continue SC lovenox  PPI, bowel regimen (d/c lactulose) has
   rectal tube.
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition: Start TPN today
   Nutren Pulmonary (Full) - [**2188-4-20**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments: Family meeting tomorrow at 2 pm
   Code status: Full code
   Disposition:

2188-04-20 11:48:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2188-4-20**] 12:15 AM
   2 sets, left radial & right IJ
 URINE CULTURE - At [**2188-4-20**] 12:29 AM
 FEVER - 101.3
F - [**2188-4-19**] 08:00 PM
   *PSV attempted this morning, but became hypercarbic
   *D5W for hypernatremia
   *TF held for high residuals
   *Fever
   *Back on levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2188-4-19**] 02:00 PM
   Metronidazole - [**2188-4-20**] 04:31 AM
   Vancomycin - [**2188-4-20**] 09:00 AM
   Meropenem - [**2188-4-20**] 10:50 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   celexa, simvastatin, chlorhexidine, reglan,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-20**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.9
C (98.4
   HR: 66 (62 - 89) bpm
   BP: 104/43(61) {84/36(51) - 147/58(120)} mmHg
   RR: 29 (16 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
   CVP: 11 (4 - 253)mmHg
   Total In:
                                                                  2,947 mL
                                                                  3,010 mL
   PO:
   TF:
                                                                    483 mL
                                                                    301 mL
   IVF:
                                                                  2,334 mL
                                                                  1,519 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                  1,075 mL
   Urine:
                                                                  2,210 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    737 mL
                                                                  1,935 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 585 (585 - 585) mL
   PS : 12 cmH2O
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.27/51/70/21/-3
   Ve: 10.7 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   178 K/uL
   96 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   30 mg/dL
   121 mEq/L
   148 mEq/L
   24.7 %
   7.8 K/uL
        [image002.jpg]
                             [**2188-4-18**]  05:45 PM
                             [**2188-4-19**]  12:00 AM
                             [**2188-4-19**]  03:29 AM
                             [**2188-4-19**]  04:09 AM
                             [**2188-4-19**]  03:29 PM
                             [**2188-4-19**]  04:24 PM
                             [**2188-4-20**]  04:30 AM
                             [**2188-4-20**]  04:51 AM
                             [**2188-4-20**]  09:55 AM
                             [**2188-4-20**]  11:04 AM
   WBC
   8.9
   7.8
   Hct
   26.9
   24.7
   Plt
   178
   178
   Cr
   1.1
   1.0
   1.0
   TCO2
   23
   23
   24
   24
   25
   24
   Glucose
   133
   182
   106
   132
   96
   Other labs: PT / PTT / INR:16.8/36.4/1.5, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:16.0 %, Mono:9.0 %,
   Eos:5.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:318 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Microbiology: Urine culture and blood cultures 4/11 pendings
   [**4-13**] bd cultures negative
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SHOCK, SEPTIC
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
   1.  Acute respiratory failure/ARDS: Slow movement with possible improvt
   in ventilation over the past day; however still with relatively high
   PEEP requirement and did not tolerate PSV earlier today. Back on ACV.
   If oxygenation improves can wean FiO2 >PEEP
   2. Sepsis: Still with intermittent fevers, though unclear cause with
   [**Name (NI) 1563**] negative x 2- plan to continue VAP antibiotics, dc [**Doctor Last Name **]/flagyl,
   re-draw cultures
   3. Nutrition: Has continued to have high residuals- will start TPN
   4. Anemia: recheck Hct later today
   5. Hypernatremia: continue free water as needed
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-4-20**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: mouth care, elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2188-04-21 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  ARDS/Sepsis
   24 Hour Events:
   -did not tolerate pressure support was very acidotic
   -ortho brought up that we may need to consider trach
   -family meeting scheduled for [**4-21**] at 2 pm
   -ID recs draw cx off line and periphery
   -we discontinued azithromycin (mycoplasma neg) and flagyl (c diff neg)
   -started TPN
   -HCT rechecked and stable
   -Na rechecked and 145, stopped free water flushes given pt a lot of
   residual on tube feeds, dosing meropenem in D5W now, KVO is now free
   water
   -starting lasix gtt and allowing for somewhat increased levophed in
   order to diurese
   -stage II ulcer on sacrum and blister on sacrum and pt needs wound care
   consult (not available on Sunday) on Monday
   -KUB done
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2188-4-19**] 02:00 PM
   Metronidazole - [**2188-4-20**] 04:31 AM
   Vancomycin - [**2188-4-20**] 09:00 AM
   Meropenem - [**2188-4-21**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-21**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 69 (61 - 83) bpm
   BP: 115/50(68) {87/39(56) - 187/75(120)} mmHg
   RR: 19 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 8 (6 - 14)mmHg
   Total In:
                                                                  5,580 mL
                                                                    798 mL
   PO:
   TF:
                                                                    385 mL
   IVF:
                                                                  3,343 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    880 mL
   Urine:
                                                                  2,965 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,615 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 463 (463 - 585) mL
   PS : 12 cmH2O
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 44 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.27/53/86.[**Numeric Identifier 143**]/22/-2
   Ve: 17.9 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: Sedated on the vent
   Heart: Distant heart sounds
   Lungs: CTAB anteriorly
   Abd: Soft, NT, BS+
   Ext: 2+ pitting edema bilaterally, DP pulses +1 and radial pulses [**1-11**]+
   Labs / Radiology
   205 K/uL
   7.7 g/dL
   114 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   27 mg/dL
   118 mEq/L
   144 mEq/L
   23.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2188-4-19**]  03:29 PM
                             [**2188-4-19**]  04:24 PM
                             [**2188-4-20**]  04:30 AM
                             [**2188-4-20**]  04:51 AM
                             [**2188-4-20**]  09:55 AM
                             [**2188-4-20**]  11:04 AM
                             [**2188-4-20**]  02:20 PM
                             [**2188-4-20**]  02:34 PM
                             [**2188-4-21**]  04:41 AM
                             [**2188-4-21**]  05:27 AM
   WBC
   7.8
   8.0
   Hct
   24.7
   27.1
   23.9
   Plt
   178
   205
   Cr
   1.0
   1.0
   1.0
   0.9
   TCO2
   24
   24
   25
   24
   24
   25
   Glucose
   132
   96
   135
   114
   Other labs: Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %,
   Mono:9.6 %, Eos:4.6 %, Lactic Acid:1.0 mmol/L, Albumin:1.5 g/dL, T Prot
   5.5,  Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   # Sepsis:  Improving.  Afebrile.   Rheum studies negative.  Blood
   cultures, respiratory studies from BAL have been negative to date.
   Patient has been improving on current antibiotic regimen and has been
   able to tolerate very low dose of levophed.   Mycoplasma negative and
   Ureaplasma pending, C Diff Negative x2.
   - d/c azithromycin given mycoplasma negative.  d/c flagyl given c diff
   neg.
   -Continue vanc/meropenem until [**4-21**];
   - appreciate ID recs
   - Follow up cx Ureaplasma
   - Monitor fever curve and WBC
   .
   # ARDS: Appears that oxygenation is not improving. Unable to wean Fi02
   yesterday.   High level of PEEP still required so ventilation is not
   improving much. ? of whether free water we are giving him could be
   getting into  lungs.   Pt may also eventually need a trach.
   - continue small TV w/ high frequency RR as lung protective strategy
   - continue current level of sedation
   -continue fio2 of 50%
   .
   #Acidosis:  pH is 7.27 this AM.  Metabolic nongap acidosis w/
   superimposed respiratory acidosis
   - Monior, goal pH > 7.20
   - Recheck ABG this evening
   .
   # s/p gastroc wound flap: Wound looks good
   -Routine post-op care per surgical/plastics team
   #Hx of  HTN: Holding all BP meds.
   - will be careful with fluids as has propensity for flash pulmonary
   edema
   # Anemia: Hct trend 26.9 -> 24.7
   -rechecked afternoon HCT was 27.1, transfusion goal HCT> 21
   - try to minimize lab draws
   .
   # FEN: Regular low salt diet.  Hypernatremic.
   -will d/c free water flushes as they may be causing high residuals. On
   D5W @ 125cc/hr.  Will have meropenem mixed in D5W instead of normal
   saline
   -f/u 2pm NA/lytes/HCT
   -start TPN
   -high residuals will get KUB to look for NG tube placement
   .
   # PPX: continue SC lovenox  PPI, bowel regimen (d/c lactulose) has
   rectal tube.
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   TPN without Lipids - [**2188-4-20**] 06:55 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   20 Gauge - [**2188-4-20**] 06:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-22 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Family meeting resulted in plan for trach eventually
   Wound care consulted, no note yet
   Diuresed well
   Stopped antibiotics
   Had TTE which showed small secundum defect otherwise fairly negative
   CTA negative for PE
   Decreased PEEP to 10 then 8, BP improved slightly and remained off of
   pressors.
   Decided against placing doboff and restarting NG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2188-4-19**] 02:00 PM
   Metronidazole - [**2188-4-20**] 04:31 AM
   Vancomycin - [**2188-4-21**] 08:00 AM
   Meropenem - [**2188-4-21**] 11:38 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-4-21**] 08:00 AM
   Pantoprazole (Protonix) - [**2188-4-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-22**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 72 (64 - 82) bpm
   BP: 118/40(60) {84/36(51) - 162/54(85)} mmHg
   RR: 32 (5 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 2 (2 - 15)mmHg
   Total In:
                                                                  2,878 mL
                                                                    711 mL
   PO:
   TF:
   IVF:
                                                                  1,402 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  4,350 mL
                                                                  2,130 mL
   Urine:
                                                                  4,350 mL
                                                                  2,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,472 mL
                                                                 -1,419 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 33.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.35/46/69/25/0
   Ve: 18.2 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Gen: Sedated on the vent, does not follow commands
   Heart: Distant heart sounds, regular
   Lungs: CTAB anteriorly
   Abd: Soft, NT, BS+, stool draining from rectal tube
   Ext: 2+ pitting edema bilaterally, DP pulses +1 and radial pulses [**1-11**]+
   Labs / Radiology
   233 K/uL
   7.6 g/dL
   128 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   30 mg/dL
   118 mEq/L
   148 mEq/L
   23.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2188-4-20**]  04:30 AM
                             [**2188-4-20**]  04:51 AM
                             [**2188-4-20**]  09:55 AM
                             [**2188-4-20**]  11:04 AM
                             [**2188-4-20**]  02:20 PM
                             [**2188-4-20**]  02:34 PM
                             [**2188-4-21**]  04:41 AM
                             [**2188-4-21**]  05:27 AM
                             [**2188-4-22**]  02:15 AM
                             [**2188-4-22**]  02:19 AM
   WBC
   7.8
   8.0
   7.3
   Hct
   24.7
   27.1
   23.9
   23.8
   Plt
   178
   205
   233
   Cr
   1.0
   1.0
   0.9
   0.9
   TCO2
   24
   25
   24
   24
   25
   26
   Glucose
   96
   135
   114
   128
   Other labs: PT / PTT / INR:16.8/36.4/1.5, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:1.0 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS: Oxygenation reasonably stable with decreased PEEP and
   ventilation significantly improved likely [**2-11**] increased blood flow to
   ventilated portions of lung after decreasing PEEP. Likely will need
   trach/peg for prolonged wean.  CTA chest yesterday was negative for PE.
   TTE also negative for large shunt.
   - IP consult for trach/peg
   - continue small TV w/ high frequency RR as lung protective strategy
   - Slowly wean sedation to fentanyl patch and PO diazepam.
   - Continue PEEP at 8 as O2 likely will not tolerate further decrease
   - Continue Lasix gtt @ 2mg unless becomes hypotense
   .
   # Sepsis:  Improving physiology, off of pressors.  Afebrile since [**4-19**].
   All cultures to date have been negative. Likely that sedation is adding
   to septic physiology. Will d/w ID how long he should be continued on
   Abx and which Abx he should be continued on for his knee, as likely can
   be narrowed to nafcillin. Will need to have central line out as soon as
   infusion requirements have decreased.
   - Plan for PICC after trach/peg
   - Continue vancomycin for today
   - appreciate ID recs
   - Monitor fever curve and WBC
   #Acidosis: Respiratory [**2-11**] large dead space, metabolic component has
   resolved w/ resolution of sepsis
   - Continue current ventilator settings
   - Consider decreasing respiratory rate to reduce mucous plugging
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   - Wound care consult initiated, will f/u recommendations
   # s/p gastroc wound flap: Wound looks stable.
   -Routine post-op care per surgical/plastics team
   - continue gram positive coverage
   # Anemia: Phlebotomizing downward
   - Send active T/S
   - Transfuse Hct<21
   .
   # FEN: Patient currently on TPN secondary to high residual volumes from
   NG but given that has been having more BMs will retry to use NG. Doboff
   placement unsuccessful yesterday.
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI,
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-21**] 06:50 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   20 Gauge - [**2188-4-20**] 06:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-23 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   ARDS and sepsis
   24 Hour Events:
   -tried to turn PEEP down to 8 but desaturated to 89%, turned back up to
   12 but later he  tolerated PEEP of 10.
   -pt started on fentanyl patch, fentanyl gtt decreased to 200 yesterday
   and 150 this AM
   -diuresed  -913cc yesterday and approx -1L so far today.  Used both
   lasix gtt (had to occasionally be shut off for hypotension) and
   metalozone.
   -TF with increased residual yesterday but advanced from 10 -> 30 today
   -plastics recommending thoracentesis and pigtail replacement
   -ID rec continue vanco, changing lines
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2188-4-21**] 11:38 AM
   Vancomycin - [**2188-4-22**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-22**] 08:11 AM
   Enoxaparin (Lovenox) - [**2188-4-22**] 08:11 AM
   Morphine Sulfate - [**2188-4-22**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-23**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 69 (66 - 74) bpm
   BP: 163/70(96) {93/38(54) - 163/70(96)} mmHg
   RR: 29 (19 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 6 (3 - 6)mmHg
   Total In:
                                                                  3,297 mL
                                                                    732 mL
   PO:
   TF:
                                                                    120 mL
                                                                     65 mL
   IVF:
                                                                  1,300 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                  1,720 mL
   Urine:
                                                                  4,210 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -913 mL
                                                                   -986 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 501) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/51/82.[**Numeric Identifier 143**]/25/1
   Ve: 18.4 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: sedated, not arousable
   HEENT: dry mm, increased JVD
   Cardiac: rrr
   Pulm: decrease bs at right and left lung bases anteriorly
   Abd: + bs, soft, NTND
   Extremities: LE edema to above the knees, right knee in brace, DP
   pulses +1, radial pulse +1 UE edema wit 3+ pitting in hands
   Labs / Radiology
   257 K/uL
   7.3 g/dL
   114 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   32 mg/dL
   114 mEq/L
   146 mEq/L
   23.3 %
   7.0 K/uL
        [image002.jpg] vanco trough 27.1 (was not true trough)
   ABG 7.36/51/83
                             [**2188-4-20**]  02:20 PM
                             [**2188-4-20**]  02:34 PM
                             [**2188-4-21**]  04:41 AM
                             [**2188-4-21**]  05:27 AM
                             [**2188-4-22**]  02:15 AM
                             [**2188-4-22**]  02:19 AM
                             [**2188-4-22**]  04:33 PM
                             [**2188-4-22**]  06:43 PM
                             [**2188-4-23**]  04:39 AM
                             [**2188-4-23**]  06:14 AM
   WBC
   8.0
   7.3
   7.0
   Hct
   27.1
   23.9
   23.8
   23.3
   Plt
   [**Telephone/Fax (3) 6970**]
   Cr
   1.0
   0.9
   0.9
   0.9
   1.0
   TCO2
   24
   25
   26
   31
   30
   Glucose
   135
   114
   128
   131
   114
   Other labs: PT / PTT / INR:16.8/36.4/1.5, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:1.0 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS: Like in combination with baseline severe COPD.  Able to
   decrease PEEP to 10 overnight but did not tolerate decreased PEEP to
   8.  CTA chest 2 days ago was negative for PE. TTE also negative for
   large shunt. ? could also partly be due to aspiration
   - Thoracics c/s for trach and j tube, peg likely will not work given
   high residuals on TF.  Likely will need trach/peg for prolonged wean.
   Pt  being seen by [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6981**] p [**Numeric Identifier 6982**] and likely will be added on OR
   schedule for  tomorrow.
   - continue small TV w/ high frequency RR as lung protective strategy
   - Slowly wean sedation unless pt begins breathing over vent, continue
   fentanyl patch and wean fentanyl and turn versed off. Keep sedation -1
   to -2.
   - Continue Lasix gtt and metalozone with goal neg 2L, hold lasix gtt
   for MAP<60
   - speak with Ortho about starting steroids given  poor respiratory
   improvement
   .
   # Sepsis:  Improving physiology, off of pressors.  Afebrile since [**4-19**].
   All cultures to date have been negative. Likely that sedation is adding
   to septic physiology. Will d/w ID how long he should be continued on
   Abx and which Abx he should be continued on for his knee, as likely can
   be narrowed to nafcillin. Will need to have central line out as soon as
   infusion requirements have decreased.
   - Plan for PICC after trach/j tube
   - Continue vancomycin for today but will discuss with ID d/c vanco
   given no white count, afebrile, and no pus at line sites.  Would then
   restart nafcillin for his knee.
   -Unfortunately he is very difficult access and given no sign of
   infection at line sites, no white count, and afebrile will keep current
   access for now.
   - appreciate ID recs
   - Monitor fever curve and WBC
   -will check LFTs per ID request
   #Acidosis: Respiratory [**2-11**] large dead space, metabolic component has
   resolved w/ resolution of sepsis
   - Continue current ventilator settings
   - Consider decreasing respiratory rate to reduce mucous plugging
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   # s/p gastroc wound flap: Wound looks stable.
   -Routine post-op care per surgical/plastics team
   - continue gram positive coverage, if d/c vanco will start nafcillin
   -plan for PT today
   -plan for ortho to manipulate leg while pt in OR
   .
   # Anemia: Phlebotomizing downward
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: Patient currently on TPN secondary to high residual volumes from
   NG.  Pt also on tube feeds.
   -plan for j tube when pt gets trached
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition: TF and TPN with plan to get j-tube when getting trach
   Nutren Pulmonary (Full) - [**2188-4-22**] 12:00 PM 10 mL/hour
   TPN w/ Lipids - [**2188-4-22**] 06:01 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   20 Gauge - [**2188-4-20**] 06:57 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2188-04-24 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  83 yo M w/ ARDS and septic physiology
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2188-4-21**] 11:38 AM
   Vancomycin - [**2188-4-22**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-24**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 59 (59 - 80) bpm
   BP: 101/45(62) {92/37(53) - 145/56(82)} mmHg
   RR: 18 (18 - 35) insp/min
   SpO2: 90%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 5 (4 - 8)mmHg
   Total In:
                                                                  3,113 mL
                                                                    678 mL
   PO:
   TF:
                                                                    613 mL
   IVF:
                                                                    400 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  5,230 mL
                                                                  1,090 mL
   Urine:
                                                                  5,230 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,117 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 90%
   ABG: 7.42/44/111/26/3
   Ve: 19.8 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Gen: sedated, not arousable
   HEENT: dry mm, increased JVD
   Cardiac: rrr
   Pulm: decrease bs at right and left lung bases anteriorly
   Abd: + bs, soft, NTND
   Extremities: LE edema to above the knees, right knee in brace, DP
   pulses +1, radial pulse +1 UE edema wit 3+ pitting in hands
   Labs / Radiology
   242 K/uL
   7.1 g/dL
   188 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.2 mEq/L
   37 mg/dL
   112 mEq/L
   144 mEq/L
   22.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2188-4-22**]  02:19 AM
                             [**2188-4-22**]  04:33 PM
                             [**2188-4-22**]  06:43 PM
                             [**2188-4-23**]  04:39 AM
                             [**2188-4-23**]  06:14 AM
                             [**2188-4-23**]  04:12 PM
                             [**2188-4-24**]  12:29 AM
                             [**2188-4-24**]  03:01 AM
                             [**2188-4-24**]  03:04 AM
                             [**2188-4-24**]  04:16 AM
   WBC
   7.0
   6.2
   Hct
   23.3
   23.0
   22.1
   Plt
   257
   242
   Cr
   0.9
   1.0
   1.0
   0.9
   TCO2
   26
   31
   30
   30
   30
   30
   Glucose
   131
   114
   127
   188
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:1.0 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS: Like in combination with baseline severe COPD.  Able to
   decrease PEEP to 10 overnight but did not tolerate decreased PEEP to
   8.  CTA chest 2 days ago was negative for PE. TTE also negative for
   large shunt. ? could also partly be due to aspiration
   - Thoracics c/s for trach and j tube, peg likely will not work given
   high residuals on TF.  Likely will need trach/peg for prolonged wean.
   Pt  being seen by [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6981**] p [**Numeric Identifier 6982**] and likely will be added on OR
   schedule for  tomorrow.
   - continue small TV w/ high frequency RR as lung protective strategy
   - Slowly wean sedation unless pt begins breathing over vent, continue
   fentanyl patch and wean fentanyl and turn versed off. Keep sedation -1
   to -2.
   - Continue Lasix gtt and metalozone with goal neg 2L, hold lasix gtt
   for MAP<60
   - speak with Ortho about starting steroids given  poor respiratory
   improvement
   .
   # Sepsis:  Improving physiology, off of pressors.  Afebrile since [**4-19**].
   All cultures to date have been negative. Likely that sedation is adding
   to septic physiology. Will d/w ID how long he should be continued on
   Abx and which Abx he should be continued on for his knee, as likely can
   be narrowed to nafcillin. Will need to have central line out as soon as
   infusion requirements have decreased.
   - Plan for PICC after trach/j tube
   - Continue vancomycin for today but will discuss with ID d/c vanco
   given no white count, afebrile, and no pus at line sites.  Would then
   restart nafcillin for his knee.
   -Unfortunately he is very difficult access and given no sign of
   infection at line sites, no white count, and afebrile will keep current
   access for now.
   - appreciate ID recs
   - Monitor fever curve and WBC
   -will check LFTs per ID request
   #Acidosis: Respiratory [**2-11**] large dead space, metabolic component has
   resolved w/ resolution of sepsis
   - Continue current ventilator settings
   - Consider decreasing respiratory rate to reduce mucous plugging
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   # s/p gastroc wound flap: Wound looks stable.
   -Routine post-op care per surgical/plastics team
   - continue gram positive coverage, if d/c vanco will start nafcillin
   -plan for PT today
   -plan for ortho to manipulate leg while pt in OR
   .
   # Anemia: Phlebotomizing downward
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: Patient currently on TPN secondary to high residual volumes from
   NG.  Pt also on tube feeds.
   -plan for j tube when pt gets trached
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-23**] 05:57 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-24 11:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-24**] 08:37 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-24**] 08:36 AM
   Enoxaparin (Lovenox) - [**2188-4-24**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2188-4-24**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 58 (55 - 80) bpm
   BP: 117/48(70) {92/38(54) - 145/56(82)} mmHg
   RR: 15 (15 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
   CVP: 12 (4 - 12)mmHg
   Total In:
                                                                  3,113 mL
                                                                  1,371 mL
   PO:
   TF:
                                                                    613 mL
   IVF:
                                                                    400 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                  5,230 mL
                                                                  1,540 mL
   Urine:
                                                                  5,230 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,117 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.42/44/111/26/3
   Ve: 18.2 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   242 K/uL
   188 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.2 mEq/L
   37 mg/dL
   112 mEq/L
   144 mEq/L
   22.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2188-4-22**]  02:19 AM
                             [**2188-4-22**]  04:33 PM
                             [**2188-4-22**]  06:43 PM
                             [**2188-4-23**]  04:39 AM
                             [**2188-4-23**]  06:14 AM
                             [**2188-4-23**]  04:12 PM
                             [**2188-4-24**]  12:29 AM
                             [**2188-4-24**]  03:01 AM
                             [**2188-4-24**]  03:04 AM
                             [**2188-4-24**]  04:16 AM
   WBC
   7.0
   6.2
   Hct
   23.3
   23.0
   22.1
   Plt
   257
   242
   Cr
   0.9
   1.0
   1.0
   0.9
   TCO2
   26
   31
   30
   30
   30
   30
   Glucose
   131
   114
   127
   188
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:1.0 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR-Bilateral infiltrates--predominantly interstitial with
   persistent bilateral effusions
   Assessment and Plan
   83 yo male with admission with ARDS and recent TKR with complication of
   septic arthritis now with patient moving to trach and PEG placement
   today.  He has had continued and persistent ventilatory failure with
   high Vd/Vt maintained during resolution of acute insult.
   1)Respiratory Failure- It is profound and persistent elevation in Vd/Vt
   driving need for continued invasive ventilatory support.  He has
   persistent depression of mental status in the setting of excess
   sedation.
   -Will move to PSV as soon as patient returns from OR
   -Will continue to move to diuresis
   -Wean sedation as possible following tracheostomy
   -Hope to move to rapid wean following tracheostomy
   -Continue steroid Rx
   -Trach and J today
   2)Sepsis-
   -Knee wash out per ortho today
   -Continue with ABX
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-23**] 05:57 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2188-04-24 13:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  ARDS
   24 Hour Events:
   - Started on Steroids yesterday
   - Increased FiO2 to 60%
   - Lasix gtt held secondary to hypotension
   - Midazolam increased secondary to agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-24**] 08:37 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-24**] 08:36 AM
   Enoxaparin (Lovenox) - [**2188-4-24**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-24**] 01:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.1
C (97
   HR: 55 (55 - 80) bpm
   BP: 122/51(74) {92/38(54) - 145/56(82)} mmHg
   RR: 26 (15 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 12 (4 - 12)mmHg
   Total In:
                                                                  3,113 mL
                                                                  1,528 mL
   PO:
   TF:
                                                                    613 mL
   IVF:
                                                                    400 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  5,230 mL
                                                                  1,680 mL
   Urine:
                                                                  5,230 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,117 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.42/44/111/26/3
   Ve: 18.2 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Gen: sedated, not arousable
   HEENT: dry mm, increased JVD
   Cardiac: rrr
   Pulm: decrease bs at right and left lung bases anteriorly
   Abd: + bs, soft, NTND
   Extremities: LE edema to above the knees, right knee in brace, DP
   pulses +1, radial pulse +1 UE edema wit 3+ pitting in hands
   Labs / Radiology
   242 K/uL
   7.1 g/dL
   188 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.2 mEq/L
   37 mg/dL
   112 mEq/L
   144 mEq/L
   22.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2188-4-22**]  02:19 AM
                             [**2188-4-22**]  04:33 PM
                             [**2188-4-22**]  06:43 PM
                             [**2188-4-23**]  04:39 AM
                             [**2188-4-23**]  06:14 AM
                             [**2188-4-23**]  04:12 PM
                             [**2188-4-24**]  12:29 AM
                             [**2188-4-24**]  03:01 AM
                             [**2188-4-24**]  03:04 AM
                             [**2188-4-24**]  04:16 AM
   WBC
   7.0
   6.2
   Hct
   23.3
   23.0
   22.1
   Plt
   257
   242
   Cr
   0.9
   1.0
   1.0
   0.9
   TCO2
   26
   31
   30
   30
   30
   30
   Glucose
   131
   114
   127
   188
   Other labs: PT / PTT / INR:15.9/33.9/1.4, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS: Like in combination with baseline severe COPD.  Able to
   decrease PEEP to 10, but increased FiO2 to 60% overnight,  ABG this AM
   is 7.42/44/111/26/3.   CTA chest 2 days ago was negative for PE.
   Patient was started on Steriods yesterday.
   - Continue Lasix gtt with goal neg 2L, hold lasix gtt for MAP<60
   - Plan for Trach and J by Thoracics today.
   - Wean Midazolam, Continue Fentanyl
   - Plan for PSV trial today
   - Continue Methylprednisolone 100mg IV q24
   # Sepsis:  Improving physiology, off of pressors now and afebrile since
   [**4-19**]. All cultures to date have been negative. Likely that sedation is
   adding to septic physiology. Will d/w ID how long he should be
   continued on Abx and which Abx he should be continued on for his knee,
   as likely can be narrowed to nafcillin. Will need to have central line
   out as soon as infusion requirements have decreased.
   - Plan for PICC after trach/j tube
   - Continue vancomycin for today but will discuss with ID changing to
   nafcillin for his knee.
   -Unfortunately he is very difficult access and given no sign of
   infection at line sites, no white count, and afebrile will keep current
   access for now.
   - appreciate ID recs
   - Monitor fever curve and WBC
   -will check LFTs per ID request
   #Acidosis: Improved.  Respiratory [**2-11**] large dead space, metabolic
   component has resolved w/ resolution of sepsis
   - Continue current ventilator settings,
   - PSV trial today
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   # s/p gastroc wound flap: Wound looks stable.
   -Routine post-op care per surgical/plastics team
   - continue gram positive coverage, if d/c vanco will start nafcillin
   -plan for PT today
   -plan for ortho to manipulate leg while pt in OR
   .
   # Anemia: Phlebotomizing downward
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: Patient currently on TPN secondary to high residual volumes from
   NG.  Pt also on tube feeds.
   -plan for j tube when pt gets trached
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-23**] 05:57 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-25 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   Got trach and PEG
   Weaned sedation, stopped midazolam
   Decreased FiO2
   Put on pressure support
   Diuresed 2L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-24**] 08:37 AM
   Nafcillin - [**2188-4-25**] 02:15 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-4-24**] 08:36 AM
   Pantoprazole (Protonix) - [**2188-4-24**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-25**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 73 (52 - 88) bpm
   BP: 152/53(83) {100/42(59) - 163/59(92)} mmHg
   RR: 16 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  2,483 mL
                                                                    799 mL
   PO:
   TF:
   IVF:
                                                                    757 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                  2,130 mL
   Urine:
                                                                  3,595 mL
                                                                  2,030 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,112 mL
                                                                 -1,331 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 35
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.39/51/72/29/4
   Ve: 24.7 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Gen: sedated, not arousable
   HEENT: dry mm, increased JVD
   Cardiac: rrr
   Pulm: decrease bs at right and left lung bases anteriorly
   Abd: + bs, soft, NTND
   Extremities: LE edema to above the knees, right knee in brace, DP
   pulses +1, radial pulse +1 UE edema wit 3+ pitting in hands
   Labs / Radiology
   303 K/uL
   8.0 g/dL
   151 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.6 mEq/L
   44 mg/dL
   111 mEq/L
   148 mEq/L
   25.7 %
   11.6 K/uL
        [image002.jpg]
                             [**2188-4-23**]  04:12 PM
                             [**2188-4-24**]  12:29 AM
                             [**2188-4-24**]  03:01 AM
                             [**2188-4-24**]  03:04 AM
                             [**2188-4-24**]  04:16 AM
                             [**2188-4-24**]  08:00 PM
                             [**2188-4-24**]  08:16 PM
                             [**2188-4-25**]  01:15 AM
                             [**2188-4-25**]  02:02 AM
                             [**2188-4-25**]  02:11 AM
   WBC
   6.2
   11.6
   Hct
   23.0
   22.1
   25.7
   Plt
   242
   303
   Cr
   1.0
   0.9
   1.0
   1.1
   TCO2
   30
   30
   30
   33
   32
   32
   Glucose
   127
   188
   157
   151
   Other labs: Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS: Like in combination with baseline severe COPD.  Able to
   decrease PEEP to 10, but increased FiO2 to 60% overnight,  ABG this AM
   is 7.42/44/111/26/3.   CTA chest 2 days ago was negative for PE.
   Patient was started on Steriods yesterday.
   - Continue Lasix gtt with goal neg 2L, hold lasix gtt for MAP<60
   - Plan for Trach and J by Thoracics today.
   - Wean Midazolam, Continue Fentanyl
   - Plan for PSV trial today
   - Continue Methylprednisolone 100mg IV q24
   # Sepsis:  Improving physiology, off of pressors now and afebrile since
   [**4-19**]. All cultures to date have been negative. Likely that sedation is
   adding to septic physiology. Will d/w ID how long he should be
   continued on Abx and which Abx he should be continued on for his knee,
   as likely can be narrowed to nafcillin. Will need to have central line
   out as soon as infusion requirements have decreased.
   - Plan for PICC after trach/j tube
   - Continue vancomycin for today but will discuss with ID changing to
   nafcillin for his knee.
   -Unfortunately he is very difficult access and given no sign of
   infection at line sites, no white count, and afebrile will keep current
   access for now.
   - appreciate ID recs
   - Monitor fever curve and WBC
   -will check LFTs per ID request
   #Acidosis: Improved.  Respiratory [**2-11**] large dead space, metabolic
   component has resolved w/ resolution of sepsis
   - Continue current ventilator settings,
   - PSV trial today
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   # s/p gastroc wound flap: Wound looks stable.
   -Routine post-op care per surgical/plastics team
   - continue gram positive coverage, if d/c vanco will start nafcillin
   -plan for PT today
   -plan for ortho to manipulate leg while pt in OR
   .
   # Anemia: Phlebotomizing downward
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: Patient currently on TPN secondary to high residual volumes from
   NG.  Pt also on tube feeds.
   -plan for j tube when pt gets trached
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-24**] 05:48 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-25 11:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  ARDS
   24 Hour Events:
   Got trach and PEG
   Weaned sedation, stopped midazolam
   Decreased FiO2
   Put on pressure support
   Diuresed 2L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-24**] 08:37 AM
   Nafcillin - [**2188-4-25**] 08:11 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-25**] 08:15 AM
   Enoxaparin (Lovenox) - [**2188-4-25**] 08:16 AM
   Fentanyl - [**2188-4-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-25**] 08:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 81 (61 - 97) bpm
   BP: 119/44(66) {103/41(61) - 166/59(92)} mmHg
   RR: 17 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  2,499 mL
                                                                  3,381 mL
   PO:
             TF:
   IVF:
                                                                    757 mL
                                                                  1,771 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                  5,620 mL
   Urine:
                                                                  3,595 mL
                                                                  5,520 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,096 mL
                                                                 -2,239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 672 (552 - 672) mL
   PS : 5 cmH2O
   RR (Set): 35
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.39/51/72/33/4
   Ve: 13 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Gen: sedated, not arousable, opening eyes
   HEENT: dry mm, increased JVD
   Cardiac: rrr
   Pulm: decrease bs at right and left lung bases anteriorly
   Abd: + bs, soft, NTND
   Extremities: LE edema to above the knees, right knee in brace, DP
   pulses +1, radial pulse +1 UE edema wit 3+ pitting in hands
   Labs / Radiology
   303 K/uL
   8.0 g/dL
   143 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.3 mEq/L
   44 mg/dL
   104 mEq/L
   144 mEq/L
   25.7 %
   11.6 K/uL
        [image002.jpg]
                             [**2188-4-24**]  12:29 AM
                             [**2188-4-24**]  03:01 AM
                             [**2188-4-24**]  03:04 AM
                             [**2188-4-24**]  04:16 AM
                             [**2188-4-24**]  08:00 PM
                             [**2188-4-24**]  08:16 PM
                             [**2188-4-25**]  01:15 AM
                             [**2188-4-25**]  02:02 AM
                             [**2188-4-25**]  02:11 AM
                             [**2188-4-25**]  05:02 PM
   WBC
   6.2
   11.6
   Hct
   22.1
   25.7
   Plt
   242
   303
   Cr
   0.9
   1.0
   1.1
   1.1
   TCO2
   30
   30
   30
   33
   32
   32
   Glucose
   188
   157
   151
   143
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:2.5 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS:  Patient is s/p Trach and Peg.  Patient has been able to
   tolerate pressure support ventilation and has had improving blood gas.
   Patient
s O2 sats have been in the 90s on 50% FiO2.  Patient is
   continuing to diurse well to lasix.
   - Plan for diurese, goal 3-4L negative with lasix dtt + thiazide
   - d/c Midazolam, Continue Fentanyl
   - Continue PSV
   - Continue Methylprednisolone 100mg IV q24
   - Consider
   # ID:  Improving physiology, off of pressors now and afebrile since
   [**4-19**]. All cultures to date have been negative. Patient on long term
   nafcillin for his knee. Will need to have central line out as soon as
   infusion requirements have decreased and lines have been in place for
   sometime.
   - Continue Nafcillin
   - Plan for PICC once patient
s infusion requirements are decreased.
   #Acidosis: Improved.  Respiratory [**2-11**] large dead space, metabolic
   component has resolved w/ resolution of sepsis
   - Continue current ventilator settings,
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   # s/p gastroc wound flap: Wound looks stable.
   -Routine post-op care per surgical/plastics team
   - continue gram positive coverage
   -plan for PT today
   -plan for passive motion of R knee
   .
   # Anemia: Phlebotomizing downward
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: G-tube in place.  Will plan to advance to J within 1-2 weeks.
   - Start tube feeds this PM
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-25**] 06:10 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-26 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  ARDS
   24 Hour Events:
   - Diuresed 3L yesterday
   - Resumed TFs
   - Stopped Midazolam
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-24**] 08:37 AM
   Nafcillin - [**2188-4-26**] 02:17 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-25**] 08:15 AM
   Enoxaparin (Lovenox) - [**2188-4-25**] 08:16 AM
   Fentanyl - [**2188-4-26**] 03:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 77 (72 - 97) bpm
   BP: 127/48(72) {103/41(61) - 166/56(90)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  3,725 mL
                                                                  1,117 mL
   PO:
             TF:
             57 mL
   IVF:
                                                                  1,846 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  6,900 mL
                                                                  3,540 mL
   Urine:
                                                                  6,800 mL
                                                                  3,040 mL
   NG:
                                                                    100 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,175 mL
                                                                 -2,423 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 613 (552 - 672) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.38/68/101/33/12
   Ve: 12.7 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Gen: sedated, not arousable, opening eyes
   HEENT: dry mm, increased JVD
   Cardiac: rrr
   Pulm: decrease bs at right and left lung bases anteriorly
   Abd: + bs, soft, NTND
   Extremities: LE edema to above the knees, right knee in brace, DP
   pulses +1, radial pulse +1 UE edema wit 3+ pitting in hands
   Labs / Radiology
   304 K/uL
   8.3 g/dL
   117 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.2 mEq/L
   46 mg/dL
   103 mEq/L
   144 mEq/L
   25.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2188-4-24**]  03:04 AM
                             [**2188-4-24**]  04:16 AM
                             [**2188-4-24**]  08:00 PM
                             [**2188-4-24**]  08:16 PM
                             [**2188-4-25**]  01:15 AM
                             [**2188-4-25**]  02:02 AM
                             [**2188-4-25**]  02:11 AM
                             [**2188-4-25**]  05:02 PM
                             [**2188-4-26**]  03:33 AM
                             [**2188-4-26**]  03:49 AM
   WBC
   11.6
   10.0
   Hct
   25.7
   25.8
   Plt
   303
   304
   Cr
   1.0
   1.1
   1.1
   1.1
   TCO2
   30
   30
   33
   32
   32
   42
   Glucose
   157
   151
   143
   117
   Other labs: Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS:  Patient is s/p Trach and Peg.  Patient has been able to
   tolerate pressure support ventilation and has had improving blood gas.
   Patient
s O2 sats have been in the 90s on 50% FiO2.  Patient is
   continuing to diurse well to lasix.
   - Plan for diurese, goal 3-4L negative with lasix dtt + thiazide
   - d/c Midazolam, Continue Fentanyl
   - Continue PSV
   - Continue Methylprednisolone 100mg IV q24
   - Consider
   # ID:  Improving physiology, off of pressors now and afebrile since
   [**4-19**]. All cultures to date have been negative. Patient on long term
   nafcillin for his knee. Will need to have central line out as soon as
   infusion requirements have decreased and lines have been in place for
   sometime.
   - Continue Nafcillin
   - Plan for PICC once patient
s infusion requirements are decreased.
   #Acidosis: Improved.  Respiratory [**2-11**] large dead space, metabolic
   component has resolved w/ resolution of sepsis
   - Continue current ventilator settings,
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   # s/p gastroc wound flap: Wound looks stable.
   -Routine post-op care per surgical/plastics team
   - continue gram positive coverage
   -plan for PT today
   -plan for passive motion of R knee
   .
   # Anemia: Phlebotomizing downward
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: G-tube in place.  Will plan to advance to J within 1-2 weeks.
   - Start tube feeds this PM
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-25**] 06:10 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-26 09:47:00 Physician Attending Progress Note
Chief Complaint: 83 man in hospit for 43 days after r knee replacement
   complicated by joint sepsis, transferred to [**Hospital Unit Name 1**] for hypoxia, s/p
   trach/PEG on PS with sedation/ infectious issues still ongoing
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Vomited at 4 AM after tube feeds restarted. Midazolam stopped
   Diuresed with lasix.
   Temp to 101, pancultured
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-24**] 08:37 AM
   Nafcillin - [**2188-4-26**] 02:17 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2188-4-26**] 03:17 AM
   Other medications:
    metalozone, protonix, methylprednisolone, nebs, lovenox, miralax,
   simvastatin, Vit C, ASA, celexa, b12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-26**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 79 (72 - 97) bpm
   BP: 139/55(80) {103/41(61) - 166/56(90)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  3,725 mL
                                                                  1,288 mL
   PO:
             TF:
             57 mL
   IVF:
                                                                  1,846 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  6,900 mL
                                                                  3,540 mL
   Urine:
                                                                  6,800 mL
                                                                  3,040 mL
   NG:
                                                                    100 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,175 mL
                                                                 -2,252 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 613 (552 - 672) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.38/68/101/33/12
   Ve: 12.7 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   304 K/uL
   117 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.2 mEq/L
   46 mg/dL
   103 mEq/L
   144 mEq/L
   25.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2188-4-24**]  03:04 AM
                             [**2188-4-24**]  04:16 AM
                             [**2188-4-24**]  08:00 PM
                             [**2188-4-24**]  08:16 PM
                             [**2188-4-25**]  01:15 AM
                             [**2188-4-25**]  02:02 AM
                             [**2188-4-25**]  02:11 AM
                             [**2188-4-25**]  05:02 PM
                             [**2188-4-26**]  03:33 AM
                             [**2188-4-26**]  03:49 AM
   WBC
   11.6
   10.0
   Hct
   25.7
   25.8
   Plt
   303
   304
   Cr
   1.0
   1.1
   1.1
   1.1
   TCO2
   30
   30
   33
   32
   32
   42
   Glucose
   157
   151
   143
   117
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:2.5 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:5.5 mg/dL
   Imaging: CXR - diffuse hazy infiltrates, unchanged
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS:  Patient is s/p Trach and Peg.  Patient has been able to
   tolerate pressure support ventilation and has had improving blood gas.
   Patient
s O2 sats have been in the 90s on 50% FiO2.  Patient is
   continuing to diurse well to lasix/metalozone.
   - Plan for diurese, goal 1-2L negative with lasix dtt + thiazide
   - d/c Midazolam, Continue Fentanyl
   - Continue PSV
   - Continue Methylprednisolone 100mg IV q24
   # ID:  Improving physiology, off of pressors now and afebrile since
   [**4-19**]. All cultures to date have been negative. Spiked this AM,
   recultured. Patient on long term nafcillin for his knee. Will need to
   have central line out as soon as infusion requirements have decreased
   and lines have been in place for sometime.
   - Change back to Vanco
   - Plan for PICC once patient
s infusion requirements are decreased.
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   # s/p gastroc wound flap: Wound looks stable.
   -Routine post-op care per surgical/plastics team
   - continue gram positive coverage
   -plan for PT today
   -plan for passive motion of R knee
   .
   # Anemia: Phlebotomizing downward
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: G-tube in place.  Will plan to advance to J within 1-2 weeks.
   - Start tube feeds this PM
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-25**] 06:10 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, lovenox)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2188-04-27 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -opening of his knee wound with ROM done
   -ortho rec CPM 2hrs [**Hospital1 7**] ut plastics rec knee to be immobile until wound
   completely healed
   -Switched to vanco given that patient spiked
   -ABG 7.39/69/99
   -lasix gtt on for most of the day with goal 2L neg was d/c in late
   afternoon
   -restarted reglan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2188-4-26**] 08:00 AM
   Vancomycin - [**2188-4-26**] 07:51 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-4-26**] 08:00 AM
   Pantoprazole (Protonix) - [**2188-4-26**] 07:53 PM
   Fentanyl - [**2188-4-27**] 05:00 AM
   Hydralazine - [**2188-4-27**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-27**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 72 (67 - 92) bpm
   BP: 162/54(84) {117/46(66) - 191/73(113)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  2,931 mL
                                                                    249 mL
   PO:
             TF:
                                                                     57 mL
   IVF:
                                                                  1,071 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  7,440 mL
                                                                  1,330 mL
   Urine:
                                                                  6,940 mL
                                                                  1,080 mL
   NG:
                                                                    500 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,509 mL
                                                                 -1,081 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 601 (600 - 700) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.44/58/81.[**Numeric Identifier 508**]/37/12
   Ve: 15.5 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Gen: Sedated on vent, following simple commands
   HEENT: Large amount of secretions  from trach site
   Heart: RRR, distant heart sounds
   Lungs: Clear anteriorly
   Abd: Soft, PEG tube in place, BS+, NT, ND
   Ext: 3+ pitting edema of LE
   Labs / Radiology
   276 K/uL
   8.3 g/dL
   120 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.0 mEq/L
   48 mg/dL
   101 mEq/L
   145 mEq/L
   25.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2188-4-25**]  05:02 PM
                             [**2188-4-26**]  03:33 AM
                             [**2188-4-26**]  03:49 AM
                             [**2188-4-26**]  03:45 PM
                             [**2188-4-26**]  05:20 PM
                             [**2188-4-27**]  12:23 AM
                             [**2188-4-27**]  12:34 AM
                             [**2188-4-27**]  03:00 AM
                             [**2188-4-27**]  04:31 AM
                             [**2188-4-27**]  04:59 AM
   WBC
   10.0
   11.9
   Hct
   25.8
   25.1
   Plt
   304
   276
   Cr
   1.1
   1.1
   1.3
   1.2
   1.1
   TCO2
   42
   43
   45
   43
   41
   Glucose
   143
   117
   163
   123
   120
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p Trach and Peg
   # ARDS:  Patient is s/p Trach and Peg.  O2 sats did not withstand
   decreasing FiO2 to less than 50% last night. Will attempt to decrease
   PEEP to 6 today. Dead space appears to be significantly improved as is
   no longer acidotic.
   - Continue Fentanyl
   - Continue PSV
   - Continue Methylprednisolone 100mg IV q24 for 7 day course
   # ID:  Patient has been febrile to [**Age over 90 516**] yesterday AM, so was switched
   back to vancomycin and pan cultured. Cultures are pending.
   - Vancomycin 1g q12hrs
   - Plan for PICC once patient
s infusion requirements are decreased and
   patient afebrile
   - f/u cxs
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   .
   #Hypernatremia: Free water deficit about 2L.
   - 2L D5W today
   .
   #Metabolic alkalosis: Likley contraction effect from large volume
   diuresis
   - Hold lasix today
   # s/p gastroc wound flap: Patient developed dehiscence post continuous
   motion. Ortho and plastics to determine optimal knee motion regimen.
   -Routine post-op care per surgical/plastics team
   - Switch to Vancomycin
   -plan for PT today
   -plan for passive motion of R knee per ortho/plastics
   .
   # Anemia: Hct stable
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: G-tube in place.  Will plan to advance to J within 1-2 weeks.
   Patient vomited to tube feeds Friday and has not been restarted.
   - Continue TPN for now
   - switch reglan to erythromycin
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care, consider rehab screening this week.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-27 10:39:00 Physician Attending Progress Note
Chief Complaint: 83 yr man with ARDS/Sepsis from R knee infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Wound dehiscence being managed by ortho and plastics
   Back on Vanco with reduction in fever since Ab changed
   Diuresed large amt fluid/lasix drip d/c'd
   Holding TF's because of high residuals
   Started on Labetolol for hypertensive episodes yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2188-4-26**] 08:00 AM
   Vancomycin - [**2188-4-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-4-26**] 07:53 PM
   Fentanyl - [**2188-4-27**] 05:00 AM
   Hydralazine - [**2188-4-27**] 06:32 AM
   Enoxaparin (Lovenox) - [**2188-4-27**] 08:00 AM
   Other medications:
   methylprednisolone 120 q 24, nebs, simvastatin, docusate, ASA, FESO4 ,
   Celexa, B12, reglan, labetolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-27**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 72 (67 - 79) bpm
   BP: 139/50(74) {117/46(66) - 191/73(113)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  2,931 mL
                                                                    965 mL
   PO:
             TF:
                                                                     57 mL
   IVF:
                                                                  1,071 mL
                                                                    645 mL
   Blood products:
   Total out:
                                                                  7,440 mL
                                                                  1,645 mL
   Urine:
                                                                  6,940 mL
                                                                  1,320 mL
   NG:
                                                                    500 mL
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,509 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 522 (522 - 800) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.53/48/87.[**Numeric Identifier 181**]/37/14
   Ve: 11.3 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   276 K/uL
   120 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.0 mEq/L
   48 mg/dL
   101 mEq/L
   145 mEq/L
   25.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2188-4-26**]  03:33 AM
                             [**2188-4-26**]  03:49 AM
                             [**2188-4-26**]  03:45 PM
                             [**2188-4-26**]  05:20 PM
                             [**2188-4-27**]  12:23 AM
                             [**2188-4-27**]  12:34 AM
                             [**2188-4-27**]  03:00 AM
                             [**2188-4-27**]  04:31 AM
                             [**2188-4-27**]  04:59 AM
                             [**2188-4-27**]  06:53 AM
   WBC
   10.0
   11.9
   Hct
   25.8
   25.1
   Plt
   304
   276
   Cr
   1.1
   1.3
   1.2
   1.1
   TCO2
   42
   43
   45
   43
   41
   41
   Glucose
   117
   163
   123
   120
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS and septic physiology
   # ARDS:  Patient is s/p Trach and Peg.  Patient has been able to
   tolerate pressure support ventilation and has had improving blood gas.
   Patient
s O2 sats have been in the 90s on 50% FiO2.  Patient diursed
   well to lasix/metalozone, now spontaneously diuresing.....
    - Hold further diuretics
    - d/c Midazolam, Continue Fentanyl
    - Continue PSV
    - Continue Methylprednisolone 100mg IV q24
   # ID:  Improving physiology, off of pressors now and afebrile since
   [**4-19**]. All cultures to date have been negative. Spiked this AM,
   recultured. Patient on long term nafcillin for his knee. Will need to
   have central line out as soon as infusion requirements have decreased
   and lines have been in place for sometime.
    - Change back to Vanco
    - Plan for PICC once patient
s infusion requirements are decreased.
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
    -seen by wound care, ulcer not progressing per nursing
   # s/p gastroc wound flap: Wound looks stable.
    -Routine post-op care per surgical/plastics team
   - continue gram positive coverage
    -plan for PT today
   -plan for passive motion of R knee
   # Anemia: Phlebotomizing downward
   - active T/S
   - Transfuse Hct<21
   # FEN: G-tube in place.  Will plan to advance to J within 1-2 weeks.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2188-04-28 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  ARDS
   24 Hour Events:
   Had small amount of blood aspirated from PEG tube
   Not actively diuresed
   Started on labetalol for HTN
   Decreased PEEP to 6 and O2 held
   Repleted free water deficit
   Started on erythromycin and stopped metaclopramide for motility
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2188-4-26**] 08:00 AM
   Vancomycin - [**2188-4-27**] 07:59 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-4-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-28**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 66 (62 - 80) bpm
   BP: 146/52(81) {93/39(55) - 189/57(93)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  4,863 mL
                                                                    715 mL
   PO:
             TF:
   IVF:
                                                                  2,612 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  3,745 mL
                                                                  1,410 mL
   Urine:
                                                                  2,820 mL
                                                                  1,100 mL
   NG:
                                                                    425 mL
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,118 mL
                                                                   -695 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 655 (450 - 800) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 6 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.47/56/122/35/15
   Ve: 12.1 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Gen: Sedated on vent, following simple commands
   HEENT: Large amount of secretions  from trach site
   Heart: RRR, distant heart sounds
   Lungs: Clear anteriorly
   Abd: Soft, PEG tube in place, BS+, NT, ND
   Ext: 3+ pitting edema of LE
   Labs / Radiology
   245 K/uL
   7.3 g/dL
   124 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.6 mEq/L
   50 mg/dL
   100 mEq/L
   142 mEq/L
   22.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2188-4-26**]  05:20 PM
                             [**2188-4-27**]  12:23 AM
                             [**2188-4-27**]  12:34 AM
                             [**2188-4-27**]  03:00 AM
                             [**2188-4-27**]  04:31 AM
                             [**2188-4-27**]  04:59 AM
                             [**2188-4-27**]  06:53 AM
                             [**2188-4-27**]  03:04 PM
                             [**2188-4-28**]  03:54 AM
                             [**2188-4-28**]  04:06 AM
   WBC
   11.9
   10.9
   Hct
   25.1
   22.3
   Plt
   276
   245
   Cr
   1.2
   1.1
   1.1
   TCO2
   43
   45
   43
   41
   41
   43
   42
   Glucose
   123
   120
   124
   Other labs: Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p Trach and Peg
   # ARDS:  Patient is s/p Trach and Peg.  O2 sats did not withstand
   decreasing FiO2 to less than 50% last night. Will attempt to decrease
   PEEP to 6 today. Dead space appears to be significantly improved as is
   no longer acidotic.
   - Continue Fentanyl
   - Continue PSV
   - Continue Methylprednisolone 100mg IV q24 for 7 day course
   # ID:  Patient has been febrile to [**Age over 90 516**] yesterday AM, so was switched
   back to vancomycin and pan cultured. Cultures are pending.
   - Vancomycin 1g q12hrs
   - Plan for PICC once patient
s infusion requirements are decreased and
   patient afebrile
   - f/u cxs
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   .
   #Hypernatremia: Free water deficit about 2L.
   - 2L D5W today
   .
   #Metabolic alkalosis: Likley contraction effect from large volume
   diuresis
   - Hold lasix today
   # s/p gastroc wound flap: Patient developed dehiscence post continuous
   motion. Ortho and plastics to determine optimal knee motion regimen.
   -Routine post-op care per surgical/plastics team
   - Switch to Vancomycin
   -plan for PT today
   -plan for passive motion of R knee per ortho/plastics
   .
   # Anemia: Hct stable
   - active T/S
   - Transfuse Hct<21
   .
   # FEN: G-tube in place.  Will plan to advance to J within 1-2 weeks.
   Patient vomited to tube feeds Friday and has not been restarted.
   - Continue TPN for now
   - switch reglan to erythromycin
   -f/u pm lytes given large volume diuresis.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care, consider rehab screening this week.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-27**] 06:09 PM 83 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-04-28 11:01:00 Physician Attending Progress Note
Chief Complaint: Sepsis, ARDS, chronic vent dependence
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   afebrile for 24 hrs
   PEEP decreased to 6
   FiO2 50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2188-4-26**] 08:00 AM
   Vancomycin - [**2188-4-27**] 07:59 PM
   Infusions:
   Other ICU medications:
   Other medications:
   pantoprazole, methylprednisolone, fentanyl patch, miralax, asa, iron,
   celexa, b12, labetolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-28**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 65 (62 - 80) bpm
   BP: 125/45(69) {93/39(55) - 156/53(85)} mmHg
   RR: 15 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  4,863 mL
                                                                  1,093 mL
   PO:
             TF:
   IVF:
                                                                  2,612 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  3,745 mL
                                                                  2,110 mL
   Urine:
                                                                  2,820 mL
                                                                  1,800 mL
   NG:
                                                                    425 mL
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,118 mL
                                                                 -1,017 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 485 (450 - 680) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 6 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.47/56/122/35/15
   Ve: 11.9 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   245 K/uL
   124 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.6 mEq/L
   50 mg/dL
   100 mEq/L
   142 mEq/L
   22.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2188-4-26**]  05:20 PM
                             [**2188-4-27**]  12:23 AM
                             [**2188-4-27**]  12:34 AM
                             [**2188-4-27**]  03:00 AM
                             [**2188-4-27**]  04:31 AM
                             [**2188-4-27**]  04:59 AM
                             [**2188-4-27**]  06:53 AM
                             [**2188-4-27**]  03:04 PM
                             [**2188-4-28**]  03:54 AM
                             [**2188-4-28**]  04:06 AM
   WBC
   11.9
   10.9
   Hct
   25.1
   22.3
   Plt
   276
   245
   Cr
   1.2
   1.1
   1.1
   TCO2
   43
   45
   43
   41
   41
   43
   42
   Glucose
   123
   120
   124
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:65.9 %, Band:0.0 %, Lymph:19.6 %, Mono:9.6 %,
   Eos:4.6 %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p Trach and Peg
   # ARDS:  Patient is s/p Trach and Peg.  Excellent gases on 50%, PEEP 6
   - On 5/0 today; consider trach mask
   - Continue Methylprednisolone 100mg IV q24 for 7 day course - finished
   today
   # ID:  Patient has been afebrile since yesterday AM
   - Vancomycin 1g q12hrs
   - Plan for PICC once patient
s infusion requirements are decreased and
   patient afebrile
   - f/u cxs
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   #Hypernatremia: Free water deficit about 2L.
   - 2L D5W today
   .#Metabolic alkalosis: Likley contraction effect from large volume
   diuresis
   - Hold lasix today again - run even
   # s/p gastroc wound flap: Patient developed dehiscence post continuous
   motion. Ortho and plastics to determine optimal knee motion regimen.
   -Routine post-op care per surgical/plastics team
   -plan for PT today
   -plan for passive motion of R knee per ortho/plastics
   # Anemia: Hct stable
   - active T/S
   - Transfuse Hct<21
   # BP better contolled on Labetolol
   # FEN: G-tube in place.  Will plan to advance to J within 1-2 weeks.
   Patient vomited to tube feeds Friday and has not been restarted.
   - Continue TPN for now
   - switch reglan to erythromycin
   -f/u pm lytes given large volume diuresis.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-27**] 06:09 PM 83 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min

2188-04-29 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2188-4-28**] 05:59 PM
 INVASIVE VENTILATION - START [**2188-4-29**] 03:12 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2188-4-26**] 08:00 AM
   Vancomycin - [**2188-4-28**] 07:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-29**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.5
C (95.9
   HR: 62 (54 - 68) bpm
   BP: 120/39(60) {95/35(52) - 155/61(92)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  3,087 mL
                                                                    869 mL
   PO:
             TF:
                                                                      5 mL
                                                                     98 mL
   IVF:
                                                                    490 mL
                                                                     68 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,450 mL
                                                                    855 mL
   Urine:
                                                                  3,140 mL
                                                                    805 mL
   NG:
                                                                     60 mL
   Stool:
   50 mL
   Drains:
   Balance:
                                                                   -363 mL
                                                                     14 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (453 - 647) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.37/60/72/35/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   8.3 g/dL
   119 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.0 mEq/L
   49 mg/dL
   104 mEq/L
   143 mEq/L
   25.8 %
   10.3 K/uL
        [image002.jpg]
                             [**2188-4-27**]  06:53 AM
                             [**2188-4-27**]  03:04 PM
                             [**2188-4-28**]  03:54 AM
                             [**2188-4-28**]  04:06 AM
                             [**2188-4-28**]  12:15 PM
                             [**2188-4-28**]  04:18 PM
                             [**2188-4-28**]  07:03 PM
                             [**2188-4-29**]  12:27 AM
                             [**2188-4-29**]  03:15 AM
                             [**2188-4-29**]  06:06 AM
   WBC
   10.9
   10.3
   Hct
   22.3
   22.0
   23.1
   25.8
   Plt
   245
   226
   Cr
   1.1
   1.1
   1.0
   TCO2
   41
   43
   42
   39
   39
   36
   Glucose
   124
   134
   119
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:78.5 %, Band:0.0 %, Lymph:10.6 %, Mono:6.5 %,
   Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p Trach and Peg
   # ARDS:  Patient is s/p Trach and Peg.  Patient
s PO2 this AM is 122 on
   50% FiO2, has tolerated pressure support. Will attempt SBT today. Dead
   space appears to be significantly improved as is no longer acidotic.
   - Continue Fentanyl patch
   - Trach mask trial today
   - d/c Methylprednisolone
   - Goal even volume status
   # ID:  Afebrile > 24 hrs.   Patient
s R knee graft had dehisced,
   concern for possible infection.  Patient has completed course of
   treatment for Pneumonia.
   - Continue Vancomycin 1g q12hrs
   - Plan for PICC once patient
s infusion requirements are decreased and
   patient afebrile
   - f/u cxs
   .
   # Grade II sacral ulcer:  Patient using air mattress, wound care per
   nursing.
   -seen by wound care, ulcer not progressing per nursing
   .
   #Metabolic alkalosis: Likley contraction effect from large volume
   diuresis
   - Hold lasix today
   # s/p gastroc wound flap: Patient developed dehiscence post continuous
   motion. Ortho and plastics to determine optimal knee motion regimen.
   -Routine post-op care per surgical/plastics team
   - Switch to Vancomycin
   -plan for PT today
   -plan for passive motion of R knee per ortho/plastics
   .
   # Anemia: Hct stable
   - active T/S
   - Transfuse 1unit PRBCs
   .
   # FEN: G-tube in place.  Will plan to advance to J within 1-2 weeks.
   - Continue TPN for now
   - switch reglan to erythromycin
   - Restart TFs at 10cc/hr and monitor.  Hold for aspiration.
   .
   # PPX: continue SC lovenox  PPI
   .
   # Code: Full
   .
   # Dispo: ICU care, consider rehab screening this week.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-4-28**] 06:14 PM 83 mL/hour
   Nutren Pulmonary (Full) - [**2188-4-28**] 11:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-4-11**] 11:21 AM
   Multi Lumen - [**2188-4-15**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-05-01 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Urine benzos negative
   less responsive
   Ortho and plastics Ok w/ 45 degrees movement
   More hypercarbic w/ intermittent breathing
   got 20 IV lasix diuresed 1.1L, SBP decreased with lasix and labetalol
   stopped
   ID said check vanc trough and when <20 start levoflox and rifampin
   [**Doctor Last Name 1244**] was alright with pt. going to rehab
   High TF residuals after getting up to goal.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-29**] 08:01 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-4-30**] 12:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-1**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 62 (55 - 63) bpm
   BP: 113/43(60) {87/29(43) - 115/43(60)} mmHg
   RR: 16 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  2,768 mL
                                                                     65 mL
   PO:
             TF:
                                                                    842 mL
   IVF:
                                                                    240 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  3,880 mL
                                                                    590 mL
   Urine:
                                                                  3,680 mL
                                                                    590 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,112 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 822 (611 - 822) mL
   PS : 15 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, No Spon Resp
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.33/73.[**Numeric Identifier 218**]/131/32/9
   Ve: 8.9 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen: Trached, follows simple commands
   HEENT: Eyes open, mouth open, no icterus, no thrush
   Heart: RRR, distant heart sounds
   Lungs: CTA anteriorly
   Abd: PEG tube well seated, no surrounding erythema
   Ext: sacral edema
   Labs / Radiology
   195 K/uL
   8.0 g/dL
   87 mg/dL
   1.2 mg/dL
   32 mEq/L
   4.8 mEq/L
   57 mg/dL
   103 mEq/L
   141 mEq/L
   25.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2188-4-28**]  07:03 PM
                             [**2188-4-29**]  12:27 AM
                             [**2188-4-29**]  03:15 AM
                             [**2188-4-29**]  06:06 AM
                             [**2188-4-29**]  09:45 PM
                             [**2188-4-30**]  03:40 AM
                             [**2188-4-30**]  12:44 PM
                             [**2188-4-30**]  05:13 PM
                             [**2188-4-30**]  05:55 PM
                             [**2188-5-1**]  04:55 AM
   WBC
   10.3
   8.7
   8.7
   Hct
   23.1
   25.8
   24.4
   25.3
   Plt
   [**Telephone/Fax (3) 7083**]
   Cr
   1.0
   1.1
   1.1
   1.2
   TCO2
   39
   36
   38
   41
   40
   Glucose
   119
   120
   97
   87
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:78.5 %, Band:0.0 %, Lymph:10.6 %, Mono:6.5 %,
   Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p Trach and Peg
   #Respiratory failure:  Satting well on trach collar, but breathing very
   slowly likely [**2-11**] long sedative washout, will attempt S/S once mental
   status improves.   Pt has COPD at baseline.
   - Continue Fentanyl patch
   -Try on trach collar and recheck ABG
   - Attempt diuresis with lasix gtt  is BP permits, goal 1L neg
   .
   #Mental status: improved today compared to yesterday. Urine bezons
   negative.
   -monitor mental status, if worsens would 1^st try narcan and then get
   brain imaging
   .
   # ID:  Afebrile > 72 hours, per ID will start levofloxacin/rifampin
   once vanc trough below 20. CVL removed and PICC placed. Cultures remain
   negative.
   - switch to levo/rifampin once vanc trough below 20, will check
   afternoon vanco trough
   - f/u cxs
   .
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   .
   # s/p gastroc wound flap: Ortho again recommending CPM, will d/w
   plastics first.
    -Routine post-op care per surgical/plastics team
   - Vancomycin on board now will change to levo and rifampin once vanco
   trough subtherapeutic
   -plan for passive motion of R knee per ortho/plastics
   .
   # Anemia: Hct stable, phelbotomized down to require transfusion
   yesterday. Likely not making enough blood [**2-11**] critical illness.
   - active T/S
   .
   # FEN: G-tube in place.  Tube feeds with residual
   - spoke with surgery, pt getting KUB and plan for peg placed in OR
   tomorrow
   .
   # PPX: continue SC lovenox
   .
   # Code: Full
   .
   # Dispo: ICU care, rehab screening this week if OK w/ [**Doctor Last Name 1244**]
   ICU Care
   Nutrition: TF with high residuals.  Plan for peg tomorrow by surgery.
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now. Needs peg tube. Being screened for rehab.

2188-05-02 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -started levofloxacin and rifampin
   -autodiuresed
   -? If can place ng dubhoff post pyloric
   -KUB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-29**] 08:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-2**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 72 (55 - 73) bpm
   BP: 133/59(77) {89/29(43) - 145/59(78)} mmHg
   RR: 16 (10 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                    740 mL
                                                                    216 mL
   PO:
             TF:
                                                                    440 mL
                                                                    149 mL
   IVF:
                                                                    240 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                    890 mL
   Urine:
                                                                  3,190 mL
                                                                    890 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,800 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (352 - 819) mL
   PS : 15 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.32/74/125/32/8
   Ve: 9.6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Gen: Trached, follows simple commands
   HEENT: Eyes open, mouth open, no icterus, no thrush
   Heart: RRR, distant heart sounds
   Lungs: CTA anteriorly
   Abd: PEG tube well seated, no surrounding erythema
   Ext: sacral edema
   Labs / Radiology
   198 K/uL
   7.9 g/dL
   108 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.4 mEq/L
   51 mg/dL
   108 mEq/L
   146 mEq/L
   24.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2188-4-29**]  03:15 AM
                             [**2188-4-29**]  06:06 AM
                             [**2188-4-29**]  09:45 PM
                             [**2188-4-30**]  03:40 AM
                             [**2188-4-30**]  12:44 PM
                             [**2188-4-30**]  05:13 PM
                             [**2188-4-30**]  05:55 PM
                             [**2188-5-1**]  04:55 AM
                             [**2188-5-1**]  07:46 AM
                             [**2188-5-2**]  03:57 AM
   WBC
   10.3
   8.7
   8.7
   9.9
   Hct
   25.8
   24.4
   25.3
   24.6
   Plt
   [**Telephone/Fax (3) 7096**]98
   Cr
   1.0
   1.1
   1.1
   1.2
   1.1
   TCO2
   36
   38
   41
   40
   40
   Glucose
   119
   120
   97
   87
   108
   Other labs: PT / PTT / INR:15.7/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:78.5 %, Band:0.0 %, Lymph:10.6 %, Mono:6.5 %,
   Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p Trach and Peg
   #Respiratory failure:  Satting well on trach collar, but breathing very
   slowly likely [**2-11**] long sedative washout, will attempt S/S once mental
   status improves.   Pt has COPD at baseline.
   - Continue Fentanyl patch
   -Try on trach collar and recheck ABG
   - Attempt diuresis with lasix gtt  is BP permits, goal 1L neg
   .
   #Mental status: improved today compared to yesterday. Urine bezons
   negative.
   -monitor mental status, if worsens would 1^st try narcan and then get
   brain imaging
   .
   # ID:  Afebrile > 72 hours, per ID will start levofloxacin/rifampin
   once vanc trough below 20. CVL removed and PICC placed. Cultures remain
   negative.
   - switch to levo/rifampin once vanc trough below 20, will check
   afternoon vanco trough
   - f/u cxs
   .
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   .
   # s/p gastroc wound flap: Ortho again recommending CPM, will d/w
   plastics first.
    -Routine post-op care per surgical/plastics team
   - Vancomycin on board now will change to levo and rifampin once vanco
   trough subtherapeutic
   -plan for passive motion of R knee per ortho/plastics
   .
   # Anemia: Hct stable, phelbotomized down to require transfusion
   yesterday. Likely not making enough blood [**2-11**] critical illness.
   - active T/S
   .
   # FEN: G-tube in place.  Tube feeds with residual
   - spoke with surgery, pt getting KUB and plan for peg placed in OR
   tomorrow
   .
   # PPX: continue SC lovenox
   .
   # Code: Full
   .
   # Dispo: ICU care, rehab screening this week if OK w/ [**Doctor Last Name 1244**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-5-2**] 04:27 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-05-03 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -got free water 250 IV x1 then with increased Na to 152, started d5W @
   150 x1 L
   -ABG on face mask was metabolic acidosis
   -place pt back on vent setting
   -[**Last Name (un) **] recommended CRP and ESR
   -pt not getting a j tube, TF without residual
   -no change in CXR
   -got urine cx, sputum cx, c diff cx, blood cx for fever previous night
   decided not to change antibiotics back to vanco unless he spikes so
   continued levo, flagyl
   -autodiuresed 2L neg
   -getting approx 1500 kcal/day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-5-2**] 08:14 PM
   Levofloxacin - [**2188-5-2**] 10:09 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-2**] 08:31 AM
   Fentanyl - [**2188-5-2**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-3**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.2
   HR: 75 (71 - 82) bpm
   BP: 159/67(88) {134/45(72) - 171/79(96)} mmHg
   RR: 28 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  1,709 mL
                                                                  1,054 mL
   PO:
             TF:
                                                                    761 mL
                                                                    190 mL
   IVF:
                                                                    727 mL
                                                                    764 mL
   Blood products:
   Total out:
                                                                  3,605 mL
                                                                  1,015 mL
   Urine:
                                                                  3,130 mL
                                                                    635 mL
   NG:
   100 mL
   Stool:
                                                                    475 mL
                                                                    280 mL
   Drains:
   Balance:
                                                                 -1,896 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (550 - 713) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.54/42/92.[**Numeric Identifier 132**]/32/11
   Ve: 15.1 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   7.9 g/dL
   113 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.5 mEq/L
   40 mg/dL
   111 mEq/L
   150 mEq/L
   24.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2188-4-30**]  05:13 PM
                             [**2188-4-30**]  05:55 PM
                             [**2188-5-1**]  04:55 AM
                             [**2188-5-1**]  07:46 AM
                             [**2188-5-2**]  03:57 AM
                             [**2188-5-2**]  05:51 PM
                             [**2188-5-2**]  09:36 PM
                             [**2188-5-2**]  10:56 PM
                             [**2188-5-3**]  01:47 AM
                             [**2188-5-3**]  03:56 AM
   WBC
   8.7
   9.9
   8.0
   Hct
   25.3
   24.6
   24.2
   Plt
   195
   198
   213
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   TCO2
   40
   40
   36
   38
   37
   Glucose
   97
   87
   108
   129
   113
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:78.5 %, Band:0.0 %, Lymph:10.6 %, Mono:6.5 %,
   Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p Trach and Peg
   #Respiratory failure:  Satting well on trach collar, but breathing very
   slowly likely [**2-11**] long sedative washout, will attempt S/S once mental
   status improves.   Pt has COPD at baseline.
   - d/c fentanyl patch to see if improves mental status
   -Try on trach collar and recheck ABG today, was metabolic alkalosis so
   put pt back on vent
   - Allow pt to autodiurese, goal 1-2L neg
   .
   #Mental status: stable today compared to yesterday. Urine bezons
   negative.
   -monitor mental status, if worsens would 1^st try narcan and then get
   brain imaging
   -d/c fentanyl patch
   .
   # ID:  Spiked fever last night to 100.1 axillary at
   -get UA, CXR, line cx, peripheral cx, c diff, sputum
   - continue levo/rifampin if spikes again consider restarting vanco
   .
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   .
   # s/p gastroc wound flap: Ortho again recommending CPM, will d/w
   plastics first.
    -Routine post-op care per surgical/plastics team
   - continue levo/rif
   -plan for passive motion of R knee per ortho/plastics
   .
   # Anemia: Hct stable, phelbotomized down to require transfusion 2 days
   ago. Likely not making enough blood [**2-11**] critical illness.
   - active T/S
   .
   #Hypernatremia:
   -free water
   .
   # FEN
   -continue TF, no j tube per family as they do not want anesthesia
   .
   # PPX: continue SC lovenox
   .
   # Code: Full
   .
   # Dispo: ICU care, rehab screening this week if OK w/ [**Doctor Last Name 1244**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2188-5-3**] 02:54 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-05-04 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got free water D5W at 250cc/hr to replete free water deficit. Na went
   from 153 to 143.
   Ortho said that they would handle CPM orders, order in
   TSH normal 2.9
   Vomitted alot so TFs stopped, started PO narcan and restarted TPN.
   Rediscussed PEJ tube w/ family and they definitely do not want open
   procedure, but may be open to advancing with scope in a week. Discussed
   goals of care and they will watch over the next week for improvement
   and then decide on whether he would have wanted this for this long.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-5-2**] 08:14 PM
   Levofloxacin - [**2188-5-2**] 10:09 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-4**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 73 (59 - 81) bpm
   BP: 153/73(93) {101/29(47) - 167/79(101)} mmHg
   RR: 31 (17 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  3,825 mL
                                                                  2,836 mL
   PO:
             TF:
                                                                    401 mL
   IVF:
                                                                  3,224 mL
                                                                  2,386 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                  3,245 mL
   Urine:
                                                                  1,895 mL
                                                                    520 mL
   NG:
                                                                    100 mL
                                                                  2,075 mL
   Stool:
                                                                    280 mL
   Drains:
   Balance:
                                                                  1,550 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 705 (659 - 705) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 19.4 L/min
   Physical Examination
   Gen: Trached, follows simple commands
   HEENT: Eyes open, mouth open, no icterus, no thrush
   Heart: RRR, distant heart sounds
   Lungs: CTA anteriorly
   Abd: PEG tube well seated, no surrounding erythema
   Ext: sacral edema
   Labs / Radiology
   207 K/uL
   7.0 g/dL
   248 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   34 mg/dL
   104 mEq/L
   143 mEq/L
   22.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2188-4-30**]  05:55 PM
                             [**2188-5-1**]  04:55 AM
                             [**2188-5-1**]  07:46 AM
                             [**2188-5-2**]  03:57 AM
                             [**2188-5-2**]  05:51 PM
                             [**2188-5-2**]  09:36 PM
                             [**2188-5-2**]  10:56 PM
                             [**2188-5-3**]  01:47 AM
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
   WBC
   8.7
   9.9
   8.0
   8.8
   Hct
   25.3
   24.6
   24.2
   22.6
   Plt
   195
   198
   213
   207
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   0.9
   TCO2
   40
   36
   38
   37
   Glucose
   97
   87
   108
   129
   113
   248
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:78.5 %, Band:0.0 %, Lymph:10.6 %, Mono:6.5 %,
   Eos:4.2 %, Lactic Acid:1.1 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p Trach and Peg
   #Respiratory failure:  Satting well on trach collar, but breathing very
   slowly likely [**2-11**] long sedative washout, will attempt S/S once mental
   status improves.   Pt has COPD at baseline.  Patient had aspirated
   overnight and has CXR LUL findings that are suggestive for Pneumonia
   versus Pneumonitis.  Patient
s CXR shows interval improvement in RLL
   effusion.
   - Change Levaquin 750mg from po to IV
   - Allow pt to autodiurese, goal 1-2L neg
   .
   # Aspiration Pneumonia vs Pneumonitis:   Tmax 100.5 this AM, WBC 8.8.
   Patient had vomited twice yesterday and had a witnessed aspiration.
   CXR c/w LUL worsening opacity.  Pt with new productive cough.
   - Send Sputum cultures
   - follow BCx, Ucx for other infectious sources
   - Change levo to IV.  (patient on Levo primarily for septic Knee)
   #Mental status:  Significantly improved.  Patient is able to move
   distal extremitities.
   - Minimize narcotics
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   .
   # s/p gastroc wound flap: Stable.
    -Routine post-op care per surgical/plastics team
   - continue levofloxacin/rifampin
   -plan for passive motion of R knee per ortho/plastics
   .
   # Anemia: Hct stable.
   - recheck HCT
   - active T/S
   .
   #Hypernatremia:  Resolved
   .
   # FEN:  Patient currently with Peg tube.  Will wait for tract to mature
   to advance Peg to J tube.  Family wishes not to pursue open J tube
   procedure at this time and wait for tract to mature.  Given that
   patient aspirated yesterday, will restart TPN.  Will also plan to
   restart TFs at 10cc/hr and advance as tolerated.
   - TPN
   - Restart TFs 100cc/hr
   # PPX: continue SC lovenox
   .
   # Code: DNR/DNI
   .
   # Dispo: ICU care, rehab screening this week
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2188-5-4**] 12:09 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT:  Lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-05-05 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   - TFs not restarted secondary to vomiting on Saturday
   - Started TPN via PICC
   - No new antibiotics started, however levaquin changed from PO to IV
   - discontinued IVFs
   - No new ID/Ortho/Plastic recs
   - CPM continued
   - Mental status significantly improved
   - Need to d/w surgery vs IR to see when tract is mature to change Peg
   to J Tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-5-2**] 08:14 PM
   Levofloxacin - [**2188-5-4**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-5**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 69 (60 - 79) bpm
   BP: 160/50(77) {131/46(68) - 164/71(93)} mmHg
   RR: 29 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  4,467 mL
                                                                    362 mL
   PO:
             TF:
   IVF:
                                                                  3,174 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  5,715 mL
                                                                    590 mL
   Urine:
                                                                  2,290 mL
                                                                    590 mL
   NG:
                                                                  2,775 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,248 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   RR (Spontaneous): 28
   FiO2: 50%
   SpO2: 100%
   ABG: 7.51/39/116/32
   PaO2 / FiO2: 232
   Physical Examination
   Gen: Trached, follows simple commands
   HEENT: Eyes open, mouth open, no icterus, no thrush
   Heart: RRR, distant heart sounds
   Lungs: coarse breath sounds diffusely
   Abd: PEG tube well seated, no surrounding erythema, putting out
   green-brown fluid
   Ext: sacral edema, trace pitting edema to the ankles bilaterally
   Neuro: squeezes hands on command; moves left toes on command
   Labs / Radiology
   223 K/uL
   8.5 g/dL
   106 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.4 mEq/L
   34 mg/dL
   104 mEq/L
   141 mEq/L
   26.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2188-5-2**]  05:51 PM
                             [**2188-5-2**]  09:36 PM
                             [**2188-5-2**]  10:56 PM
                             [**2188-5-3**]  01:47 AM
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
   WBC
   8.0
   8.8
   9.3
   Hct
   24.2
   22.6
   22.7
   26.0
   Plt
   [**Telephone/Fax (3) 7156**]
   Cr
   1.0
   1.0
   0.9
   0.9
   0.9
   TCO2
   36
   38
   37
   32
   Glucose
   129
   113
   248
   108
   106
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:78.5 %, Band:0.0 %, Lymph:10.6 %, Mono:6.5 %,
   Eos:4.2 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p trach and PEG, now doing better from a
   neurological standpoint (more awake and interactive); however,
   continues to have significant output from gastric tube, also producing
   large amounts of sputum.
   # Respiratory failure, aspiration pneumonia versus HAP versus
   pneumonitis:  Satting well on trach collar, but producing large amounts
   of sputum, also with low grade temperature and CXR indicative of
   LLL/LUL pna after aspiration event on Saturday.  Pt has COPD at
   baseline.
   - spoke with ID and will broaden antibx covarage to vanco/Zosyn for HAP
   - send for sputum culture
   - bronchodilator inh prn
   # S/p gastroc wound flap: Stable. MSSA staph aureas from [**3-14**].
    -routine post-op care per surgical/plastics team
   - continue Zosyn/vanco as above (started on [**5-5**]) for septic knee and
   HAP as above
   - stopped Levo/rifaximin [**5-5**]
   - plan for passive motion of R knee per ortho/plastics
   # FEN:  Patient currently with PEG tube with large amount of bilious
   output (500 cc+ in last 24hr).  Will wait for tract to mature to
   advance PEG to J tube.  Family wishes not to pursue open J tube
   procedure and wait for tract to mature.  Given that patient aspirated
   Saturday, will continue TPN.
   - TPN
   - restart TFs 100cc/hr
   - consider non-contrast CT abdomen to evaluate PEG tube placement
   - f/u with surgery re: plan for advancing to J tube
   # Mental status:  Significantly improved.  Patient is able to move
   distal extremitities and is more interactive than previous.
   - minimize narcotics
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   # Anemia: Hct stable.
   - active T/S
   .
   #Hypernatremia:  Resolved
   .
   # PPX: continue SC lovenox
   .
   # Code: DNR/DNI
   .
   # Dispo: ICU care, rehab screening this week
   ICU Care
   Nutrition:
   TPN without Lipids - [**2188-5-4**] 05:39 PM 46.[**Telephone/Fax (3) 3263**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending above

2188-05-05 11:44:00 Physician Attending Progress Note
Chief Complaint: Joint infection
   Pulmonary Edema--Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2188-5-4**] 10:36 AM
 URINE CULTURE - At [**2188-5-4**] 10:36 AM
 BLOOD CULTURED - At [**2188-5-4**] 10:37 AM
 BLOOD CULTURED - At [**2188-5-4**] 10:37 AM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Rifampin - [**2188-5-2**] 08:14 PM
   Levofloxacin - [**2188-5-4**] 10:00 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-5**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-5**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 73 (60 - 75) bpm
   BP: 145/59(82) {131/46(68) - 164/71(93)} mmHg
   RR: 32 (18 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  4,467 mL
                                                                    635 mL
   PO:
             TF:
   IVF:
                                                                  3,174 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  5,715 mL
                                                                  1,100 mL
   Urine:
                                                                  2,290 mL
                                                                  1,100 mL
   NG:
                                                                  2,775 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,248 mL
                                                                   -465 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.51/39/116/29/7
   PaO2 / FiO2: 232
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
patient with mild decrease
   in mucle tone noted
he has movement of RLE with commands and decreased
   reflexes.  He has right foot in brace and with flap on knee limiting
   exam
patient without movement to command
   Labs / Radiology
   8.5 g/dL
   223 K/uL
   106 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.4 mEq/L
   34 mg/dL
   104 mEq/L
   141 mEq/L
   26.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2188-5-2**]  05:51 PM
                             [**2188-5-2**]  09:36 PM
                             [**2188-5-2**]  10:56 PM
                             [**2188-5-3**]  01:47 AM
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
   WBC
   8.0
   8.8
   9.3
   Hct
   24.2
   22.6
   22.7
   26.0
   Plt
   [**Telephone/Fax (3) 7156**]
   Cr
   1.0
   1.0
   0.9
   0.9
   0.9
   TCO2
   36
   38
   37
   32
   Glucose
   129
   113
   248
   108
   106
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:20/34, Alk Phos / T Bili:67/1.5,
   Differential-Neuts:78.5 %, Band:0.0 %, Lymph:10.6 %, Mono:6.5 %,
   Eos:4.2 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:318 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   83 yo male with h/o TKR but now with complication of infection and now
   s/p surgical intervention and now with prolonged hospital course.  This
   course has been notable most recently for difficulty with establishment
   of adequate enteral feeds with inability to get gastic input to advance
   beyond stomach.
   1)Septic Arthritis-
   -Levoflox/Rifampin
   -Continue on LMWH
   2)Respiratory Compromise/Hypoxemia-
   -Patient with left sided infiltrate and with continued relatively high
   volume pulmonary secretions
   -Will expand ABX
   3)Altered Mental Status
much improved at this time with wean of
   sedation
   4)MALNUTRITION--PEG has been placed but gastic feeds not advancing
   beyond stomach and seen on return so patient has been able to be
   continued on TPN but will need distal access.  The rate of drainage is
   concerning for possible outlet obstruction as is really full volume of
   gastric output concerning.
   -Will need to consider tube advancement to allow enteral feeds
   -Will advance via thoracic input and will consider possible GI
   evaluation via contrast study (CT) to look for gastric outlet
   obstruction
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, BENIGN
 VENTILATION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 ADLS (ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SHOCK, SEPTIC
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   TPN without Lipids - [**2188-5-4**] 05:39 PM 46.[**Telephone/Fax (3) 3263**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 35 minutes

2188-05-06 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: septic knee
   24 Hour Events:
   - Started Vanc/Zosyn per ID for HAP + septic joint
   - Stopped Levo + Rifaximin
   - KUB to evaluate ?obstruction with nl wet read
   - Transminitis and mildly elevated lipase with benign exam - ?meds
   (rifampin)
   - S/S for Passey-Muir valve ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2188-5-4**] 10:00 PM
   Vancomycin - [**2188-5-5**] 05:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-6**] 03:31 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-5**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-6**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 76 (70 - 79) bpm
   BP: 121/62(76) {121/48(68) - 164/79(97)} mmHg
   RR: 32 (27 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  1,721 mL
                                                                    432 mL
   PO:
             TF:
   IVF:
                                                                    640 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                    890 mL
   Urine:
                                                                  2,465 mL
                                                                    490 mL
   NG:
                                                                    750 mL
                                                                    300 mL
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,794 mL
                                                                   -458 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: none from [**5-6**]
   Physical Examination
   Gen: Trached, follows simple commands
   HEENT: Eyes open, mouth open, no icterus, no thrush
   Heart: RRR, distant heart sounds
   Lungs: coarse breath sounds diffusely
   Abd: PEG tube well seated, no surrounding erythema, putting out
   green-brown fluid (330 cc since MN)
   Ext: sacral edema, trace pitting edema to the mid shins bilaterally
   Ext: L picc in place, non-erythematous, non-tender
   Neuro: squeezes hands on command; moves left toes on command
   Labs / Radiology
   KUB ([**5-5**]): No gas filled distended bowel, no free air, no pneumatosis,
   gas in large bowel and rectum GWIms
   223 K/uL
   8.0 g/dL
   126
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   33 mg/dL
   109 mEq/L
   143 mEq/L
   24.6 %
   10.1 K/uL
        [image002.jpg]
   AST 95, ALT 96
   LDH 301, Lip 70, TB 1.2
                             [**2188-5-2**]  09:36 PM
                             [**2188-5-2**]  10:56 PM
                             [**2188-5-3**]  01:47 AM
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
   WBC
   8.0
   8.8
   9.3
   10.1
   Hct
   24.2
   22.6
   22.7
   26.0
   24.6
   Plt
   [**Telephone/Fax (3) 7185**]23
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   36
   38
   37
   32
   Glucose
   113
   248
   108
   106
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:123/141, Alk Phos / T Bili:149/1.4,
   Amylase / Lipase:82/73, Differential-Neuts:78.5 %, Band:0.0 %,
   Lymph:10.6 %, Mono:6.5 %, Eos:4.2 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:318 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p trach and PEG, improved from a neurological
   standpoint; however, continues to have significant output from gastric
   tube, also producing large amounts of sputum.
   # Respiratory failure, aspiration pneumonia versus HAP versus
   pneumonitis:  satting well on trach collar, but producing large amounts
   of sputum, also with low grade temperature and CXR indicative of
   LLL/LUL pna after aspiration event on [**5-3**].  Pt has COPD at baseline.
   - continue vanc/Zosyn for HAP (started [**5-5**])
   - s/p trach [**4-24**]-sutures can be removed today
   - bronchodilator inh prn
   - contact ID regarding duration of antibiotics, plan for f/u
   # S/p gastroc wound flap: Stable. MSSA staph aureas from [**3-14**].
   - per plastics, ROM should be limited to 45 degrees until [**5-9**], then
   increase to 90 degrees until [**5-16**], then full ROM
   - patient will need f/u in plastic surgery clinic 1 week after
   discharge [**Telephone/Fax (1) 7196**]
   - continue Zosyn/vanc as above (started on [**5-5**]) for septic knee and
   HAP as above
   - stopped Levo/rifaximin [**5-5**]
   # FEN:  Patient currently with PEG tube with large amount of bilious
   output. Will wait for tract to mature to advance PEG to J tube- per
   thoracics, maturity of tract requires at least 4 weeks, closer to 6
   weeks in malnourished patients.  Family wishes not to pursue open J
   tube procedure and wait for tract to mature.  Given that patient
   aspirated Saturday, will continue TPN.
   - continue TPN
   - follow-up final read KUB
   - post-pyloric dobhoff tube in IR, today if possible
   - pending KUB read, may start Reglan/erythromycin if no evidence of
   obstruction
   - keep PEG tube placed to gravity per thoracic
   #Diarrhea:
   -check stool C diff
   # Mental status:  Significantly improved.  Patient is able to move
   distal extremitities and is more interactive than previous.
   - minimize narcotics
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   # Anemia: Hct stable.
   - active T/S
   #Hypernatremia:  Resolved
   # PPX: continue SC lovenox
   # Code: DNR/DNI
   # Dispo: ICU care, rehab screening this week
   ICU Care
   Nutrition:
   TPN without Lipids - [**2188-5-4**] 05:39 PM 46.[**Telephone/Fax (3) 3263**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: pending above

2188-05-06 11:48:00 Physician Attending Progress Note
Chief Complaint: Septic Arthritis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ABX refined to Vanco/ZOsyn
   KUB performed without evidence of obstruction
   Patient maintained on trach mask at 50%
   PEG tube output was 750cc in 24 hours
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2188-5-4**] 10:00 PM
   Vancomycin - [**2188-5-5**] 05:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-6**] 03:31 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2188-5-6**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 77 (70 - 79) bpm
   BP: 124/56(73) {121/45(63) - 164/79(97)} mmHg
   RR: 34 (27 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  1,721 mL
                                                                    732 mL
   PO:
             TF:
   IVF:
                                                                    640 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                  1,260 mL
   Urine:
                                                                  2,465 mL
                                                                    860 mL
   NG:
                                                                    750 mL
                                                                    300 mL
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,794 mL
                                                                   -528 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Trach mask
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   223 K/uL
   126 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   33 mg/dL
   109 mEq/L
   143 mEq/L
   24.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2188-5-2**]  09:36 PM
                             [**2188-5-2**]  10:56 PM
                             [**2188-5-3**]  01:47 AM
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
   WBC
   8.0
   8.8
   9.3
   10.1
   Hct
   24.2
   22.6
   22.7
   26.0
   24.6
   Plt
   [**Telephone/Fax (3) 7185**]23
   Cr
   1.0
   0.9
   0.9
   0.9
   0.8
   TCO2
   36
   38
   37
   32
   Glucose
   113
   248
   108
   106
   126
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:96/95, Alk Phos / T Bili:149/1.2,
   Amylase / Lipase:82/70, Differential-Neuts:78.5 %, Band:0.0 %,
   Lymph:10.6 %, Mono:6.5 %, Eos:4.2 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:301 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   83 yo male with admission with sepsis and prolonged hospital course
   complicated by persistent ventilatory compromise and concern for
   persistent high G-tube output but no evidence of obstruction on KUB at
   this time.
   1) PNEUMONIA, ASPIRATION
   -Vanco/Zosyn to continue
   -Reasonable discussion with ID about ABX choice is that Vanco/Zosyn
   will allow coverage of septic arthritis and as well as pneumonia
   -8 day course for hosp acquired PNA
   -Pt OOB to chair
   2)Septic Joint-
   -Continue with ABX as defined by ID support in consultation with
   Vancomycin for 6 week course current recommendation
   3)ALTERATION IN NUTRITION-
   -continued on TPN for now
   -G-tube output decreased a bit but still approaches the expected 24
   output from the stomach
   -Would like to consider placement of NGT post pyloric and allow G-tube
   to remain to drainage and allow enteral feeds vit NGT placed post
   pyloric
 MALNUTRITION
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, BENIGN
 VENTILATION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 ADLS (ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SHOCK, SEPTIC
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   TPN without Lipids - [**2188-5-5**] 05:40 PM 44.[**Telephone/Fax (3) 7195**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 40 minutes

2188-05-07 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Respiratory distress.
   24 Hour Events:
   - Thoracics contact[**Name (NI) **] for suture removal from trach --> sutures
   removed.
   - Started reglan IV.
   - Post-pyloric tube placed - started tube feeds.
   - Plastics contact[**Name (NI) **] - 45 degree flexion until Friday, then 90 degree
   flexion until Friday, then full ROM as tolerated. F/u plastics clinic 1
   week after discharge [**Telephone/Fax (1) 7196**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2188-5-4**] 10:00 PM
   Vancomycin - [**2188-5-6**] 08:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-7**] 04:44 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-6**] 08:00 AM
   Pantoprazole (Protonix) - [**2188-5-6**] 08:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-7**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.2
C (97.2
   HR: 78 (71 - 86) bpm
   BP: 143/54(76) {112/45(63) - 148/69(85)} mmHg
   RR: 32 (24 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  1,948 mL
                                                                    714 mL
   PO:
             TF:
             45 mL
   IVF:
                                                                    750 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  2,928 mL
                                                                    880 mL
   Urine:
                                                                  1,828 mL
                                                                    580 mL
   NG:
                                                                  1,000 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -980 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG:
   Physical Examination
   Gen: Trached, follows simple commands
   HEENT: Eyes open, mouth open, no icterus, no thrush
   Heart: RRR, distant heart sounds
   Lungs: coarse breath sounds diffusely, unchanged
   Abd: PEG tube well seated, no surrounding erythema, putting out
   green-brown fluid (330 cc since MN)
   Ext: sacral edema, trace pitting edema to the mid shins bilaterally
   Ext: L picc in place, non-erythematous, non-tender
   Neuro: squeezes hands on command; moves left toes on command
   Labs / Radiology
   KUB: no distended loops of bowel seen; there is a paucity of bowel
   [**Last Name (un) **]
 high grade obstruction cannot be excluded.
   219 K/uL
   8.2 g/dL
   131 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.4 mEq/L
   33 mg/dL
   113 mEq/L
   147 mEq/L
   25.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2188-5-2**]  10:56 PM
                             [**2188-5-3**]  01:47 AM
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
                             [**2188-5-7**]  04:15 AM
   WBC
   8.0
   8.8
   9.3
   10.1
   11.1
   Hct
   24.2
   22.6
   22.7
   26.0
   24.6
   25.9
   Plt
   [**Telephone/Fax (3) 7185**]23
   219
   Cr
   1.0
   0.9
   0.9
   0.9
   0.8
   TCO2
   38
   37
   32
   Glucose
   113
   248
   108
   106
   126
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:96/95, Alk Phos / T Bili:149/1.2,
   Amylase / Lipase:82/70, Differential-Neuts:78.5 %, Band:0.0 %,
   Lymph:10.6 %, Mono:6.5 %, Eos:4.2 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:301 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p trach and PEG, continues to improve from a
   neurological standpoint, now s/p post-pyloric tube placement due to
   high residuals from PEG tube.
   # Respiratory failure, aspiration pneumonia versus HAP versus
   pneumonitis: satting well on trach collar, but producing large amounts
   of sputum, also with low grade temperature and CXR indicative of
   LLL/LUL pna after aspiration event on [**5-3**].  Pt has COPD at baseline.
   CXR from [**5-7**] shows decreased opacities on L side, c/w resolving
   pneumonia.
   - continue vanc/Zosyn for HAP for eight day course (started [**5-5**])
   - s/p trach [**4-24**]- currently on trach mask
   - bronchodilator inh prn
   - appreciate infectious disease recs
   # S/p gastroc wound flap: Stable. MSSA staph aureas from [**3-14**].
   - per plastics, ROM should be limited to 45 degrees until [**5-9**], then
   increase to 90 degrees until [**5-16**], then full ROM
   - patient will need f/u in plastic surgery clinic 1 week after
   discharge [**Telephone/Fax (1) 7196**]
   - continue Zosyn/vanc as above, then switch back to
   Rifampin/levofloxacin per ID recs
   # FEN:  Patient currently with PEG tube and post-pyloric tube. Will
   wait for tract to mature to advance PEG to J tube- per thoracics,
   maturity of tract requires at least 4 weeks, closer to 6 weeks in
   malnourished patients.  Family wishes not to pursue open J tube
   procedure and wait for tract to mature.  Post-pyloric tube was placed
   on [**5-6**] and tube feeds started. Reglan was started for bowel
   dysmotilitiy.
   - continue Reglan
   - decrease tpn rate gradually as tube feeds are increased
   - consider contrast study to further evaluate large and small
   bowel
serial KUBs w/ barium vs CT w/ contrast
   - keep PEG tube placed to gravity per thoracic
   # Leukocytosis/low-grade temperature: continue vanc/Zosyn as above and
   continue to monitor
   # Diarrhea:  will recheck C diff
   # Mental status:  Significantly improved.  Patient is able to move
   distal extremitities and is more interactive than previous.
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   # Anemia: Hct stable.
   - active T/S
   #Hypernatremia: will decrease sodium concentration in TPN and give
   gentle D5W. Will recheck sodium in afternoon
   # PPX: continue SC lovenox
   # Code: DNR/DNI
   # Dispo: ICU care, rehab screening this week
   ICU Care
   Nutrition: Tubefeeds via post-pyloric NGT
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: pending above

2188-05-07 12:07:00 Physician Attending Progress Note
Chief Complaint: Septic Arthritis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Post pyloric feeding tube placed by IR
   Trach sutures removed
   KUB final [**Location (un) **]--no evidence of bowel gas--concering for obstruction
   but TF's started via post pyloric tube given need for enteral nutrition
   and patient continued passage of stool from below.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2188-5-4**] 10:00 PM
   Vancomycin - [**2188-5-6**] 08:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-7**] 04:44 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-5-6**] 08:26 PM
   Enoxaparin (Lovenox) - [**2188-5-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-7**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 82 (71 - 86) bpm
   BP: 106/47(69) {106/25(52) - 150/61(82)} mmHg
   RR: 34 (24 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  1,948 mL
                                                                  1,462 mL
   PO:
             TF:
             159 mL
   IVF:
                                                                    750 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  2,928 mL
                                                                  1,495 mL
   Urine:
                                                                  1,828 mL
                                                                  1,045 mL
   NG:
                                                                  1,000 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -980 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Trach mask
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   219 K/uL
   131 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.4 mEq/L
   33 mg/dL
   113 mEq/L
   147 mEq/L
   25.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2188-5-2**]  10:56 PM
                             [**2188-5-3**]  01:47 AM
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
                             [**2188-5-7**]  04:15 AM
   WBC
   8.0
   8.8
   9.3
   10.1
   11.1
   Hct
   24.2
   22.6
   22.7
   26.0
   24.6
   25.9
   Plt
   [**Telephone/Fax (3) 7185**]23
   219
   Cr
   1.0
   0.9
   0.9
   0.9
   0.8
   1.0
   TCO2
   38
   37
   32
   Glucose
   113
   248
   108
   106
   126
   131
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:96/95, Alk Phos / T Bili:149/1.2,
   Amylase / Lipase:82/70, Differential-Neuts:78.5 %, Band:0.0 %,
   Lymph:10.6 %, Mono:6.5 %, Eos:4.2 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   83 yo male with initial admission with septic arthritis and now with
   ongoing support of establishment of enteral feedings following
   admission to ICU with respiratory failure now maintained with
   tracheostomy in the setting of treatment of likely aspiraiton PNA.  The
   issue of management of his enteral feeding has been a challenge--this
   issue is that PEG tube has had high output with concern for possible
   gastric outlet obstruction.
   1)PNEUMONIA, ASPIRATION-
   -Vanco/Zosyn
   -CXR with modest improvement in LLL infiltrate predominantly.
   -Will continue to provide suction and secretion clearance
   2)MALNUTRITION-Have been working to establish adequate enteral access
   to allow initiation of enteral feeding.  He has favorable findings of
   stool passage and bowel sounds noted.  The findings on KUB of minimal
   evidence of bowel gas willl require close monitoring going forward.
   -Will continue to follow exam
   -Will continue Reglan to promote motility
   -Follow stool output
   -C. Diff for loose stools
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, BENIGN
 VENTILATION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 ADLS (ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SHOCK, SEPTIC
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-5-6**] 07:00 PM 75 mL/hour
   Vivonex (Full) - [**2188-5-7**] 01:23 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Fmaily meeting planned for today.  Goal is to
   be able to move towards rehab dedicated facility with stability of
   enteral feeds
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 40 minutes

2188-05-08 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CXR: interval improvement in LUL/LLL opacities
   - tube feeds rate increased; tpn rate slowly decreased
   - ID recs: 10-day aspiration pna course with vanc/Zosyn, followed by
   Levaquin 500 qday and Rifampin 300 [**Hospital1 **] for septic knee
   - ortho recs: continue current managment
   - vanco trough: 15
   - C dif: negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-5-7**] 08:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-8**] 04:14 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-7**] 08:00 AM
   Pantoprazole (Protonix) - [**2188-5-7**] 07:56 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-8**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 77 (76 - 90) bpm
   BP: 133/49(68) {106/25(52) - 151/64(86)} mmHg
   RR: 31 (26 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  3,442 mL
                                                                    967 mL
   PO:
             TF:
                                                                    580 mL
                                                                    408 mL
   IVF:
                                                                  1,050 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                    890 mL
   Urine:
                                                                  1,945 mL
                                                                    590 mL
   NG:
                                                                    350 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    997 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Gen: Trached, awake, answers questions appropriatly with nods,
   [**Last Name (un) **]-jejunal tube in place
   Heart: RRR, distant heart sounds
   Lungs: coarse breath sounds diffusely.
   Abd: PEG tube well seated, no surrounding erythema, putting out
   green-brown fluid (330 cc since MN), No bowel sounds auscultated.
   Ext: sacral edema, trace pitting edema to the mid shins bilaterally
   Ext: L picc in place, non-erythematous, non-tender
   Neuro: squeezes hands on command; moves left toes on command, minimal
   movement of right toes.
   Labs / Radiology
   210 K/uL
   7.8 g/dL
   125 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.8 mEq/L
   33 mg/dL
   116 mEq/L
   145 mEq/L
   24.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
                             [**2188-5-7**]  04:15 AM
                             [**2188-5-7**]  04:30 PM
                             [**2188-5-8**]  04:08 AM
   WBC
   8.0
   8.8
   9.3
   10.1
   11.1
   11.2
   Hct
   24.2
   22.6
   22.7
   26.0
   24.6
   25.9
   24.7
   Plt
   [**Telephone/Fax (3) 7185**]23
   219
   210
   Cr
   1.0
   0.9
   0.9
   0.9
   0.8
   1.0
   1.0
   0.9
   TCO2
   32
   Glucose
   113
   248
   108
   106
   126
   131
   127
   125
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:96/95, Alk Phos / T Bili:149/1.2,
   Amylase / Lipase:82/70, Differential-Neuts:74.8 %, Band:0.0 %,
   Lymph:16.4 %, Mono:4.5 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:301 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p trach and PEG, continues to improve from a
   neurological standpoint, now s/p post-pyloric tube placement due to
   high residuals from PEG tube.
   # Respiratory failure, aspiration pneumonia versus HAP versus
   pneumonitis: satting well on trach collar, but producing large amounts
   of sputum, also with low grade temperature and CXR indicative of
   LLL/LUL pna after aspiration event on [**5-3**].  Pt has COPD at baseline.
   CXR from [**5-7**] shows decreased opacities on L side, c/w resolving
   pneumonia.  Patient remains stable and may start to be screened for
   rehab.
   - continue vanc/Zosyn for HAP for eight day course (started [**5-5**])
   - s/p trach [**4-24**]- currently on trach mask
   - bronchodilator inh prn
   - appreciate infectious disease recs
   # S/p gastroc wound flap: Stable. MSSA staph aureas from [**3-14**].
   - per plastics, ROM should be limited to 45 degrees until [**5-9**], then
   increase to 90 degrees until [**5-16**], then full ROM
   - patient will need f/u in plastic surgery clinic 1 week after
   discharge [**Telephone/Fax (1) 7196**]
   - continue Zosyn/vanc as above, then switch back to
   Rifampin/levofloxacin per ID recs
   # FEN:  Patient currently with PEG tube and post-pyloric tube. Will
   wait for tract to mature to advance PEG to J tube- per thoracics,
   maturity of tract requires at least 4 weeks, closer to 6 weeks in
   malnourished patients.  Family wishes not to pursue open J tube
   procedure and wait for tract to mature.  Post-pyloric tube was placed
   on [**5-6**] and tube feeds started. Reglan was started for bowel
   dysmotilitiy.
   - continue Reglan
   - decrease tpn rate gradually as tube feeds are increased. (TPN should
   stop tomorrow)
   - consider contrast study to further evaluate large and small
   bowel
serial KUBs w/ barium vs CT w/ contrast
   - keep PEG tube placed to gravity per thoracic
   # Leukocytosis/low-grade temperature: continue vanc/Zosyn as above and
   continue to monitor
   # Diarrhea:  C. Diff negative. [**Month (only) 51**] be related to ABX and diet.
   # Mental status:  Significantly improved.  Patient is able to move
   distal extremitities and is more interactive than previous.
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   # Anemia: Hct stable.
   - active T/S
   #Hypernatremia: will decrease sodium concentration in TPN and give
   gentle D5W. Will recheck sodium in afternoon
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-5-7**] 07:36 PM 35 mL/hour
   Vivonex (Full) - [**2188-5-8**] 02:12 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT: SC LOVENOX
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: dnr/dni
   Disposition: ICU care, rehab screening this week

2188-05-08 13:01:00 Physician Attending Progress Note
Chief Complaint: ARDS
   Septic Arthritis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   TF's trialed--some improvement in G-tube output to 250cc
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-5-7**] 08:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-8**] 04:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-5-7**] 07:56 PM
   Enoxaparin (Lovenox) - [**2188-5-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-8**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 79 (76 - 90) bpm
   BP: 147/51(75) {114/41(60) - 151/63(86)} mmHg
   RR: 28 (22 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  3,442 mL
                                                                  1,692 mL
   PO:
             TF:
                                                                    580 mL
                                                                    734 mL
   IVF:
                                                                  1,050 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                  1,380 mL
   Urine:
                                                                  1,945 mL
                                                                  1,080 mL
   NG:
                                                                    350 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    997 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Bowel sounds present, BM's passing from below
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   210 K/uL
   125 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.8 mEq/L
   33 mg/dL
   116 mEq/L
   145 mEq/L
   24.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2188-5-3**]  03:56 AM
                             [**2188-5-4**]  04:08 AM
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
                             [**2188-5-7**]  04:15 AM
                             [**2188-5-7**]  04:30 PM
                             [**2188-5-8**]  04:08 AM
   WBC
   8.0
   8.8
   9.3
   10.1
   11.1
   11.2
   Hct
   24.2
   22.6
   22.7
   26.0
   24.6
   25.9
   24.7
   Plt
   [**Telephone/Fax (3) 7185**]23
   219
   210
   Cr
   1.0
   0.9
   0.9
   0.9
   0.8
   1.0
   1.0
   0.9
   TCO2
   32
   Glucose
   113
   248
   108
   106
   126
   131
   127
   125
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:96/95, Alk Phos / T Bili:149/1.2,
   Amylase / Lipase:82/70, Differential-Neuts:74.8 %, Band:0.0 %,
   Lymph:16.4 %, Mono:4.5 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:301 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   83 yo male with prolonged hospitalization following ARDS and septic
   arthritis now with slow recovery in terms of ventilatory function but
   with reasonable tolerance of RR 26-28 chronically at this time.  He has
   had most active issue that of needing to establish tolerance of enteral
   feeds--NJ tube placed and have attempted trophic feeds to allow some
   stimulation of gut function in the absence of objective evidence of
   obstruction with continued BM's noted.  In this setting the G-tube
   output has decreased a bit.
   1)Respiratory Failure
HAP vs/+ Aspiration PNA
   -Will have continued TM with suppplemental Oxygen
   -Check ABG to confirm adequate ventilation if continued high RR seen
   -Will maintain trach in place
   -Continue ABX cours
   2)Ileus
Do have decreased G-tube output, Reglan in place, no change in
   abdominal exam
   -Will provide small volume of contrast from J-tube and follow up with
   CT to confirm transit and not frank ileus.
   -TPN to continue until adequate nutritional needs met
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 ALTERATION IN NUTRITION
 MALNUTRITION
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, BENIGN
 VENTILATION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 ADLS (ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SHOCK, SEPTIC
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-5-7**] 07:36 PM 25 mL/hour
   Vivonex (Full) - [**2188-5-8**] 02:12 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2188-05-09 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Routine ABG to check tachypnea: 7.45/37/94. Resolution of bilateral
   pleural effusions on CT
   - CT with barium through post-pyloric tube without obstruction,
   contrast to rectum
   - Last day TPN, only tube feeds
   - Redness at PICC site but nontender; pt HD stable
   Patient reports feeling about the same.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-5-8**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-8**] 09:00 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-8**] 08:00 AM
   Pantoprazole (Protonix) - [**2188-5-8**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-9**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 74 (74 - 88) bpm
   BP: 116/50(67) {114/41(63) - 150/63(82)} mmHg
   RR: 30 (22 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  2,938 mL
                                                                    759 mL
   PO:
             TF:
                                                                  1,287 mL
                                                                    679 mL
   IVF:
                                                                    750 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,790 mL
                                                                    770 mL
   Urine:
                                                                  1,890 mL
                                                                    670 mL
   NG:
                                                                    500 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.45/37/94.[**Numeric Identifier 126**]/22/1
   PaO2 / FiO2: 188
   Physical Examination
   Gen: Trached, awake, answers questions appropriatly with nods,
   [**Last Name (un) **]-jejunal tube in place
   Heart: RRR, distant heart sounds
   Lungs: coarse breath sounds diffusely.
   Abd: PEG tube well seated, no surrounding erythema, putting out
   green-brown fluid (330 cc since MN), No bowel sounds auscultated.
   Ext: sacral edema, trace pitting edema to the mid shins bilaterally
   Ext: L picc in place, non-erythematous, non-tender
   Neuro: squeezes hands on command; moves left toes on command, minimal
   movement of right toes.
   Labs / Radiology
   223 K/uL
   7.6 g/dL
   137 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.6 mEq/L
   29 mg/dL
   116 mEq/L
   147 mEq/L
   23.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
                             [**2188-5-7**]  04:15 AM
                             [**2188-5-7**]  04:30 PM
                             [**2188-5-8**]  04:08 AM
                             [**2188-5-8**]  03:33 PM
                             [**2188-5-9**]  04:31 AM
   WBC
   9.3
   10.1
   11.1
   11.2
   11.1
   Hct
   22.7
   26.0
   24.6
   25.9
   24.7
   23.9
   Plt
   223
   223
   219
   210
   223
   Cr
   0.9
   0.9
   0.8
   1.0
   1.0
   0.9
   1.0
   TCO2
   32
   27
   Glucose
   108
   106
   126
   131
   127
   125
   137
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:96/95, Alk Phos / T Bili:149/1.2,
   Amylase / Lipase:82/70, Differential-Neuts:74.8 %, Band:0.0 %,
   Lymph:16.4 %, Mono:4.5 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:301 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   83 yo M w/ ARDS, s/p trach and PEG, continues to improve from a
   neurological standpoint, now s/p post-pyloric tube placement due to
   high residuals from PEG tube.
   # Respiratory failure, aspiration pneumonia versus HAP versus
   pneumonitis: satting well on trach collar, but producing large amounts
   of sputum, also with low grade temperature and CXR indicative of
   LLL/LUL pna after aspiration event on [**5-3**].  Pt has COPD at baseline.
   CXR from [**5-7**] shows decreased opacities on L side, c/w resolving
   pneumonia.  Patient remains stable and may start to be screened for
   rehab.
   - continue vanc/Zosyn for HAP for eight day course (started [**5-5**])
   - s/p trach [**4-24**]- currently on trach mask
   - bronchodilator inh prn
   - appreciate infectious disease recs
   # S/p gastroc wound flap: Stable. MSSA staph aureas from [**3-14**].
   - per plastics, ROM should be limited to 45 degrees until [**5-9**], then
   increase to 90 degrees until [**5-16**], then full ROM
   - patient will need f/u in plastic surgery clinic 1 week after
   discharge [**Telephone/Fax (1) 7196**]
   - continue Zosyn/vanc as above, then switch back to
   Rifampin/levofloxacin per ID recs
   # FEN:  Patient currently with PEG tube and post-pyloric tube. Will
   wait for tract to mature to advance PEG to J tube- per thoracics,
   maturity of tract requires at least 4 weeks, closer to 6 weeks in
   malnourished patients.  Family wishes not to pursue open J tube
   procedure and wait for tract to mature.  Post-pyloric tube was placed
   on [**5-6**] and tube feeds started. Reglan was started for bowel
   dysmotilitiy.
   - continue Reglan
   - decrease tpn rate gradually as tube feeds are increased. (TPN should
   stop tomorrow)
   - consider contrast study to further evaluate large and small
   bowel
serial KUBs w/ barium vs CT w/ contrast
   - keep PEG tube placed to gravity per thoracic
   # Leukocytosis/low-grade temperature: continue vanc/Zosyn as above and
   continue to monitor
   # Diarrhea:  C. Diff negative. [**Month (only) 51**] be related to ABX and diet.
   # Mental status:  Significantly improved.  Patient is able to move
   distal extremitities and is more interactive than previous.
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   # Anemia: Hct stable.
   - active T/S
   #Hypernatremia: will decrease sodium concentration in TPN and give
   gentle D5W. Will recheck sodium in afternoon
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2188-5-8**] 09:53 PM 85 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   20 Gauge - [**2188-5-8**] 06:00 PM
   Prophylaxis:
   DVT: SC LOVENOX
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: dnr/dni
   Disposition: ICU care, rehab screening this week

2188-05-09 12:03:00 Physician Attending Progress Note
Chief Complaint: Septic Arthritis
   ARDS
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT scan with passage of contrast to rectum
   Significant decrease in pleural effusions and opacities
   ABG with adequate ventilation and oxygenation
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-5-8**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-8**] 09:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-5-8**] 08:15 PM
   Enoxaparin (Lovenox) - [**2188-5-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-9**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 81 (74 - 88) bpm
   BP: 128/60(75) {114/47(66) - 150/63(82)} mmHg
   RR: 28 (23 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  2,938 mL
                                                                    981 mL
   PO:
             TF:
                                                                  1,287 mL
                                                                    823 mL
   IVF:
                                                                    750 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  2,790 mL
                                                                  1,110 mL
   Urine:
                                                                  1,890 mL
                                                                  1,010 mL
   NG:
                                                                    500 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.45/37/94.[**Numeric Identifier 126**]/22/1
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   223 K/uL
   137 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.6 mEq/L
   29 mg/dL
   116 mEq/L
   147 mEq/L
   23.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2188-5-4**]  05:18 PM
                             [**2188-5-4**]  06:20 PM
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
                             [**2188-5-7**]  04:15 AM
                             [**2188-5-7**]  04:30 PM
                             [**2188-5-8**]  04:08 AM
                             [**2188-5-8**]  03:33 PM
                             [**2188-5-9**]  04:31 AM
   WBC
   9.3
   10.1
   11.1
   11.2
   11.1
   Hct
   22.7
   26.0
   24.6
   25.9
   24.7
   23.9
   Plt
   223
   223
   219
   210
   223
   Cr
   0.9
   0.9
   0.8
   1.0
   1.0
   0.9
   1.0
   TCO2
   32
   27
   Glucose
   108
   106
   126
   131
   127
   125
   137
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:96/95, Alk Phos / T Bili:149/1.2,
   Amylase / Lipase:82/70, Differential-Neuts:74.8 %, Band:0.0 %,
   Lymph:16.4 %, Mono:4.5 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:301 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Imaging: CT Scan--Improved pleural effusions
   Assessment and Plan
   83 yo male with prolonged hospital course and now showing good
   improvement in respiratory stability of venilator, adequate tolerance
   of post pyloric feeding and minimal evidence of recurrent infection.
 PNEUMONIA, ASPIRATION
   -vanco/zosyn
 ALTERATION IN NUTRITION
   -Tube feeds to continue thorugh NGT which is post pyloric
   -Will discuss with T-[**Doctor First Name **] management strategy for G-Tube
 MALNUTRITION
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, BENIGN
 VENTILATION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 ADLS (ACTIVITIES OF DAILY LIVING), INABILITY TO PERFORM
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SHOCK, SEPTIC
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition: Tube Feeds!
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   20 Gauge - [**2188-5-8**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family (daughter)updated in full
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2188-05-10 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Septic knee, respiratory distress
   24 Hour Events:
   - Clamped G-Tube, Residual: 30, kept tube clamped.
   - Rehab screening
   - No focal complaints this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-5-8**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-5-9**] 11:57 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-5-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-5-10**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 78 (73 - 82) bpm
   BP: 118/44(63) {114/44(63) - 142/62(83)} mmHg
   RR: 32 (19 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.9 kg (admission): 109.4 kg
   Height: 73 Inch
             Total In:
                                                                  2,668 mL
                                                                  1,076 mL
   PO:
             TF:
                                                                  2,044 mL
                                                                    553 mL
   IVF:
                                                                    583 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    910 mL
   Urine:
                                                                  1,910 mL
                                                                    510 mL
   NG:
                                                                    330 mL
   Stool:
   Drains:
   Balance:
                                                                    428 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   Gen: awake, alert and oriented; in no distress
   Heart: RRR, distant S1/S2
   Lungs: coarse diffuse breath sounds
   [**Last Name (un) 61**]: soft, nontender. PEG tube clamped off. Non-erythematous and
   non-tender at entrance into skin. Trace amount of yellow output into
   PEG tube
   Extrem: non-edematous. No rashes. Dressing in place over right knee.
   Neuro: moving all extremities; awake and alert.
   Labs / Radiology
   22
   161 K/uL
   6.2 g/dL
   130
   0.8
   23
   3.5 mEq/L
   [**Telephone/Fax (2) 7270**]2mEq/L
   144
   21.9 %
   7.8 KuL
        [image002.jpg]
                             [**2188-5-5**]  04:00 AM
                             [**2188-5-5**]  05:23 AM
                             [**2188-5-6**]  05:13 AM
                             [**2188-5-7**]  04:15 AM
                             [**2188-5-7**]  04:30 PM
                             [**2188-5-8**]  04:08 AM
                             [**2188-5-8**]  03:33 PM
                             [**2188-5-9**]  04:31 AM
                             [**2188-5-9**]  04:20 PM
                             [**2188-5-10**]  04:49 AM
   WBC
   9.3
   10.1
   11.1
   11.2
   11.1
   7.8
   Hct
   26.0
   24.6
   25.9
   24.7
   23.9
   19.6
   Plt
   223
   223
   219
   [**Telephone/Fax (3) 7262**]
   Cr
   0.9
   0.8
   1.0
   1.0
   0.9
   1.0
   0.9
   0.8
   TCO2
   32
   27
   Glucose
   106
   126
   131
   127
   125
   137
   155
   406
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:41/2/0.05, ALT / AST:96/95, Alk Phos / T Bili:149/1.2,
   Amylase / Lipase:82/70, Differential-Neuts:74.8 %, Band:0.0 %,
   Lymph:16.4 %, Mono:4.5 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:1.5 g/dL, LDH:301 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   83 year-old man originally presented with infected right prosthetic
   knee, multiple post-operative complication, transferred to [**Hospital Unit Name 1**] w/
   ARDS, now s/p trach and PEG, continues to improve from a neurological
   standpoint, now s/p post-pyloric tube placement due to high residuals
   from PEG tube.
   # Respiratory failure, aspiration pneumonia versus HAP versus
   pneumonitis: satting well on trach collar, but producing large amounts
   of sputum, also with low grade temperature and CXR indicative of
   LLL/LUL pna after aspiration event on [**5-3**].  Pt has COPD at baseline.
   CXR from [**5-7**] shows decreased opacities on L side, c/w resolving
   pneumonia.  Patient remains stable from a respiratory standpoint.
   - continue vanc/Zosyn for HAP for eight day course (started [**5-5**])
   - s/p trach [**4-24**]- currently on trach mask
   - ABG from this morning indicates good oxygenation and ventilation
   (7.45/35/108)
   - bronchodilator inh prn
   - appreciate infectious disease recs
   # S/p gastroc wound flap: Stable. MSSA staph aureas from [**3-14**].
   - per plastics, ROM should be limited to 45 degrees until [**5-9**], then
   increase to 90 degrees until [**5-16**], then full ROM
   - patient will need f/u in plastic surgery clinic 1 week after
   discharge [**Telephone/Fax (1) 7196**]
   - continue Zosyn/vanc as above, then switch back to
   Rifampin/levofloxacin per ID recs
   # FEN:  Patient currently with PEG tube and post-pyloric tube. Will
   wait for tract to mature to advance PEG to J tube- per thoracics,
   maturity of tract requires at least 4 weeks, closer to 6 weeks in
   malnourished patients.  Family wishes not to pursue open J tube
   procedure and wait for tract to mature.  Post-pyloric tube was placed
   on [**5-6**] and tube feeds started. Reglan was started for bowel
   dysmotilitiy.  CT with contrast from N-J tube to rectum, no signs of
   obstruction.
   - continue Reglan
   - keep PEG tube placed to gravity per thoracic
   # Leukocytosis/low-grade temperature: continue vanc/Zosyn as above and
   continue to monitor.  Pt afebrile overnight.
   # Diarrhea:  C. Diff negative. [**Month (only) 51**] be related to ABX and diet.
   # Mental status:  Significantly improved.  Patient is able to move
   distal extremitities and is more interactive than previous.
   # Grade II sacral ulcer:  Per nursing appears to be improving.
   -dressings as recommended by wound care.
   # Anemia: Hct somewhat down from yesterday.
   - active T/S
   - transfuse 1U PRBCs today
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2188-5-9**] 09:21 PM 85 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-4-29**] 05:47 PM
   20 Gauge - [**2188-5-8**] 06:00 PM
   Prophylaxis:
   DVT: SQ lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: possible to [**Hospital 328**] Rehab today
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 7271**]
 note and agree
   with his findings and plan of care.  Mr [**Name13 (STitle) 7272**] has come a long way
   from his ARDS and HAP.  He has a trache and PEG though the latter is
   not functional due to gastric hypomotility, and hence he has required a
   nasal post pyloric feeding tube for the present  for nutrition,  which
   is giving goal rate tube feedings.  Once  his Vanco and Zosyn Rx for
   his pneumonia are finished, he will return to Levo/Rifampin for ongoing
   Rx of his septic prosthetic knee. We believe he is ready for transfer
   to a rehab facility, and following once last RBC transfusion, he is
   scheduled to go to  [**Hospital 7273**] Rehab later today.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2188-5-10**] 14:55 ------